2125-09-07 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given 5mg PO sublingual zyprexa for agitation/delirium overnight
   - Patient trialed on CPAP on autoset overnight for periods of apnea
   (5s)
   - CT chest done overnight
 BLOOD CULTURED - At [**2125-9-6**] 11:30 AM
   a-line.
 URINE CULTURE - At [**2125-9-6**] 11:30 AM
   Pleural cxs sent as well.
 BLOOD CULTURED - At [**2125-9-6**] 12:03 PM
   TLC
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-9-6**] 02:00 PM
   Metronidazole - [**2125-9-7**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-9-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 103 (86 - 112) bpm
   BP: 109/50(71) {85/40(56) - 143/72(101)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 9 (5 - 12)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,341 mL
                                                                    749 mL
   PO:
   TF:
                                                                     40 mL
                                                                    288 mL
   IVF:
                                                                  1,181 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  1,551 mL
                                                                    755 mL
   Urine:
                                                                    681 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -210 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/62/174/30/7
   PaO2 / FiO2: 497
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   521 K/uL
   9.4 g/dL
   124 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   100 mEq/L
   132 mEq/L
   28.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2125-9-6**]  12:16 PM
                             [**2125-9-6**]  01:36 PM
                             [**2125-9-6**]  05:37 PM
                             [**2125-9-6**]  07:29 PM
                             [**2125-9-7**]  02:03 AM
                             [**2125-9-7**]  02:18 AM
   WBC
   23.0
   Hct
   28.4
   Plt
   521
   Cr
   0.5
   TropT
   0.28
   0.23
   TCO2
   36
   38
   36
   36
   Glucose
   124
   Other labs: PT / PTT / INR:14.3/88.4/1.2, CK / CKMB /
   Troponin-T:21//0.23, ALT / AST:33/30, Alk Phos / T Bili:54/0.4, Amylase
   / Lipase:24/10, Differential-Neuts:95.7 %, Lymph:2.2 %, Mono:1.9 %,
   Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Pt is a  75M with many medical problems, admitted initially [**8-4**] with
   surgical wound infection, with hospital course complicated by PNA,
   NSTEMI, who is now transferred to MICU with shock.
   .
   #Sepsis: Pleural fluid with GN diplococci on gram stain, GNR in
   culture.  Bloo,d urine, stool still pending. Though pleural fluid has
   not been cultured previously, it is concerning that this infection
   developed while on Meropenem.  He also has pleural effusion on Left
   that has never been tapped but clearly is high risk for infection as
   well.
   -Broad antibiotic coverage: Zosyn, dapto, flagyl.
   -ID consult
   -stress dose steroids
   -maintain CVP =[**7-31**], MAP >65
   -R pigtail draining well
   -consult IP/Thoracics for L pigtail vs chest tube (hold heparin gtt for
   this procedure)
   .
   #PVD/Necrotic foot: pt was scheduled to go for AKA and fem/fem bypass,
   however,  procedure on hold given clinical instability currently.
   -wound care
   -on heparin gtt
   -appreciate surgery recs
   -standing Tylenol, neurontin for pain control
   .
   #Apnea: had apnic spells overnight. Likely has undiagnosed OSA.
   Started on Bipap with autotitrate, did well.
   -continue bipap at night in house
   -will eventually need outpt sleep study
   #CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out yesterday; no
   current EKG changes.
   -already on heparin gtt
   -continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   -hold BB given hypotension
   -on statin
   .
   #CHF:  Diastolic, preserved EF.   Total body fluid overloaded, but
   Hypotensive.
   -unable to diurese at present given hypotension
   -appreciate cardiology input
   -follow I+O's
   .
   #Rhythm: has afib, but currently in sinus rhythm.
   -on heparin
   -holding BB for now
   .
   #COPD: scheduled and PRN nebs
   .
   # FEN: replete lytes prn
   .
   # PPx: on heparin gtt, bowel regimen PRN
   .
   # Access: central line, a line, PICC
   .
   # Nutrition- very poor nutritional status.
   -place NGT, start tube feeds.
   .
   # Code: full (confirmed on admit to ICU)
   .
   # Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5440**]
 family meeting with
   daughter and wife on phone today at 1 pm.
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-6**] 08:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   PICC Line - [**2125-9-6**] 11:35 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-09-08 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   IP and thoracic surgery consulted; pigtail catheter placed in L pleural
   effusion by IP.
   ID consulted; recommended continueing Meropenem/Dapto.
   Family meeting was held at 1 PM with daughter and with wife via phone;
   discussed hospital course to date, current problems and overall poor
   prognosis.  Patient remains full code with the goal of stabilizing
   enought to go for AKA/fem-fem bypass.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-9-7**] 11:47 AM
   Daptomycin - [**2125-9-7**] 04:00 PM
   Meropenem - [**2125-9-8**] 12:00 AM
   Metronidazole - [**2125-9-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 99 (92 - 106) bpm
   BP: 126/52(83) {92/37(58) - 135/65(95)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 8 (1 - 12)mmHg
   Total In:
                                                                  2,665 mL
                                                                    717 mL
   PO:
   TF:
                                                                  1,137 mL
                                                                    347 mL
   IVF:
                                                                  1,242 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                  1,005 mL
   Urine:
                                                                  1,020 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: NG tube, No gag reflex noted
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: at bases, Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   609 K/uL
   9.5 g/dL
   152 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   101 mEq/L
   134 mEq/L
   28.5 %
   20.0 K/uL
        [image002.jpg]
                             [**2125-9-6**]  12:16 PM
                             [**2125-9-6**]  01:36 PM
                             [**2125-9-6**]  05:37 PM
                             [**2125-9-6**]  07:29 PM
                             [**2125-9-7**]  02:03 AM
                             [**2125-9-7**]  02:18 AM
                             [**2125-9-8**]  04:09 AM
   WBC
   23.0
   20.0
   Hct
   28.4
   28.5
   Plt
   521
   609
   Cr
   0.5
   0.5
   TropT
   0.28
   0.23
   TCO2
   36
   38
   36
   36
   Glucose
   124
   152
   Other labs: PT / PTT / INR:12.5/27.4/1.1, CK / CKMB /
   Troponin-T:21//0.23, ALT / AST:33/30, Alk Phos / T Bili:54/0.4, Amylase
   / Lipase:24/10, Differential-Neuts:95.7 %, Lymph:2.2 %, Mono:1.9 %,
   Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR (prelim)
   lt pigtail in good position at left base, no ptx, nearly resolved lt
   effusionw ith good re-expansion and much improved b/l pulm edema. right
   basilar opacities and effusion stable. lines/tubes stable
   Microbiology: R pleural fluid
    GRAM STAIN (Final [**2125-9-6**]):
         REPORTED BY PHONE TO DR. [**Last Name (STitle) **] [**2125-9-6**] @ 1552..
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI (PROBABLE
         BIPOLAR STAINING GRAM NEGATIVE RODS).
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
         SMEAR REVIEWED; RESULTS CONFIRMED.
      FLUID CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
   L pleural fluid
   GRAM STAIN (Final [**2125-9-7**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   Pt is a  75M with many medical problems, admitted initially [**8-4**] with
   surgical wound infection, with hospital course complicated by PNA,
   NSTEMI, who was transferred to MICU with shock.
   .
   #Sepsis: Pleural fluid with GN diplococci on gram stain, GNR in
   culture.  Blood urine, stool still pending.  Gram stain of L pleural
   fluid is negative, culture pending.
   -Broad antibiotic coverage: [**Last Name (un) 430**], dapto,
   -appreciate ID  input
   -stress dose steroids given previous borderline [**Last Name (un) 45**] stim during SICU
   stay earlier this admit
   -maintain CVP =[**7-31**], MAP >65
   -b/l pigtails draining well
   -scheduled nasal suctioning
   -high risk for aspiration, likely will require PEG at time of vascular
   surgery
   .
   #PVD/Necrotic foot: pt was scheduled to go for AKA and fem/fem bypass,
   however,  procedure was held due to clinical instability.
   -wound care
   -on heparin gtt
   -appreciate surgery recs
   -standing Tylenol, neurontin for pain control
   -discuss timing of surgery with Vascular
consider Monday as he is
   clinically much better today and needs the surgery if he is to ever
   regain health
   .
   #Apnea: Likely has undiagnosed OSA.  Started on Bipap with autotitrate,
   did well.
   -continue bipap at night in house
   -will eventually need outpt sleep study
   #CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out yesterday; no
   current EKG changes.
   -already on heparin gtt
   -continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   -hold BB given hypotension
   -on statin
   .
   #CHF:  Diastolic, preserved EF.   Total body fluid overloaded, but
   Hypotensive.
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even to -500 cc
s neg
   .
   #Rhythm: has afib, but currently in sinus rhythm.
   -on heparin
   -holding BB for now
   .
   #COPD: scheduled and PRN nebs
   .
   # FEN: replete lytes prn
   .
   # PPx: on heparin gtt, bowel regimen PRN
   .
   # Access: central line, a line.  Will discontinue PICC today
   .
   # Nutrition- very poor nutritional status.
   -place NGT, start tube feeds.
   -need to discuss PEG with family
consider PEG placement at time of
   vascular procedure (?Monday)
   .
   # Code: full (confirmed on admit to ICU)
   .
   # Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5440**]
 family meeting with
   daughter and wife on phone today at 1 pm.
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-7**] 08:27 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   PICC Line - [**2125-9-6**] 11:35 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
start chlorhexadine today
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2125-09-09 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC line pulled and tip sent for culture.
   Flagyl was discontinued as there was no evidence of C. diff infection
   and had anaerobic coverage with cefepime.
   Started on heparin drip for his LE vascular lesions.
   Steroids were decreased at recommendations of endocrine.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-9-7**] 11:47 AM
   Metronidazole - [**2125-9-8**] 04:00 AM
   Daptomycin - [**2125-9-8**] 04:15 PM
   Meropenem - [**2125-9-9**] 12:43 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-9-8**] 08:15 AM
   Heparin Sodium - [**2125-9-9**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-9**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 104 (87 - 126) bpm
   BP: 145/70(103) {109/48(76) - 149/76(108)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 15 (2 - 17)mmHg
   Total In:
                                                                  2,307 mL
                                                                    654 mL
   PO:
   TF:
                                                                  1,202 mL
                                                                    322 mL
   IVF:
                                                                    866 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,358 mL
                                                                    215 mL
   Urine:
                                                                    918 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: 7.41/52/60/29/6
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), left dry gangrene of toes
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   No(t) Rhonchorous: diffusely)
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   568 K/uL
   9.8 g/dL
   126 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   30.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2125-9-6**]  05:37 PM
                             [**2125-9-6**]  07:29 PM
                             [**2125-9-7**]  02:03 AM
                             [**2125-9-7**]  02:18 AM
                             [**2125-9-8**]  04:09 AM
                             [**2125-9-8**]  12:02 PM
                             [**2125-9-8**]  08:02 PM
                             [**2125-9-9**]  02:30 AM
                             [**2125-9-9**]  02:57 AM
                             [**2125-9-9**]  03:42 AM
   WBC
   23.0
   20.0
   15.7
   Hct
   28.4
   28.5
   30.1
   Plt
   521
   609
   616
   568
   Cr
   0.5
   0.5
   0.5
   0.4
   TropT
   0.28
   0.23
   0.12
   TCO2
   36
   36
   34
   34
   Glucose
   124
   152
   147
   126
   Other labs: PT / PTT / INR:13.0/47.4/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:92.2 %, Lymph:4.1 %,
   Mono:3.6 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, LDH:218 IU/L, Ca++:8.1
   mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Pt is a  75M with many medical problems, admitted initially [**8-4**] with
   surgical wound infection, with hospital course complicated by PNA,
   NSTEMI, who was transferred to MICU with shock.
   .
   #Sepsis: Pleural fluid with GN diplococci on gram stain, GNR in
   culture.  Blood urine, stool still pending.  Gram stain of L pleural
   fluid is negative, culture pending.
   -Broad antibiotic coverage: [**Last Name (un) 430**], dapto,
   -appreciate ID  input
   -stress dose steroids given previous borderline [**Last Name (un) 45**] stim during SICU
   stay earlier this admit
   -maintain CVP =[**7-31**], MAP >65
   -b/l pigtails draining well
   -scheduled nasal suctioning
   -high risk for aspiration, likely will require PEG at time of vascular
   surgery
   .
   #PVD/Necrotic foot: pt was scheduled to go for AKA and fem/fem bypass,
   however,  procedure was held due to clinical instability.
   -wound care
   -on heparin gtt
   -appreciate surgery recs
   -standing Tylenol, neurontin for pain control
   -discuss timing of surgery with Vascular
consider Monday as he is
   clinically much better today and needs the surgery if he is to ever
   regain health
   .
   #Apnea: Likely has undiagnosed OSA.  Started on Bipap with autotitrate,
   did well.
   -continue bipap at night in house
   -will eventually need outpt sleep study
   #CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out yesterday; no
   current EKG changes.
   -already on heparin gtt
   -continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   -hold BB given hypotension
   -on statin
   .
   #CHF:  Diastolic, preserved EF.   Total body fluid overloaded, but
   Hypotensive.
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even to -500 cc
s neg
   .
   #Rhythm: has afib, but currently in sinus rhythm.
   -on heparin
   -holding BB for now
   .
   #COPD: scheduled and PRN nebs
   .
   # FEN: replete lytes prn
   .
   # PPx: on heparin gtt, bowel regimen PRN
   .
   # Access: central line, a line.  Will discontinue PICC today
   .
   # Nutrition- very poor nutritional status.
   -place NGT, start tube feeds.
   -need to discuss PEG with family
consider PEG placement at time of
   vascular procedure (?Monday)
   .
   # Code: full (confirmed on admit to ICU)
   .
   # Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5440**]
 family meeting with
   daughter and wife on phone today at 1 pm.
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-7**] 08:27 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   PICC Line - [**2125-9-6**] 11:35 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
start chlorhexadine today
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-8**] 04:25 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   On this day I was present with and reviewed today's note of Dr.
   [**Last Name (STitle) 5182**] for the key portion of the service provided.  I agree with the
   findings and plan of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2125-9-9**] 15:56 ------
   Additional addendum to plan for the day:
   # Sepsis: Will continue meropenem for coverage of klebsiella.
   Acinetobacter could be a contaminant. Per ID, will discontinue
   daptomycin today. Patient has remained Afebrile with decreasing
   leukocytosis. Hemodynamically stable overnight
   - ID following, appreciate recs
   - continue meropenem
 will continue until last pleural fluid culture
   comes back to decide on abx course
   - continue stress dose steroids (day #[**2-21**] today) and continue tapering
   down tomorrow
   .
   # PNA: Patient with klebsiella PNA with bilateral loculated effusions.
   Bilateral pigtail catheters draining well.
   - f/u ID regarding course of meropenem
   - resend sputum culture
   - continue to follow pigtail catheter drainage and consider repeat CT
   when drainage decreases
   .
   # CV: Patient with afib with some episodes of tachycardia. Being
   titrated up slowly on beta blocker as previously had some decrease in
   BP with increased metoprolol
   - increased metoprolol to 25mg PO TID for improved rate control (home
   dose is 50mg PO TID)
   - cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, consider persantine stress test prior to
   vascular surgery
   .
   # PVD/necrotic foot: Still on table for patient to go for AKA and
   fem/fem bypass. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to take
   patient to OR if cleared medically. Patient
s pain uncontrolled on PO
   oxycodone.
   - vascular surgery recs on whether candidate for surgery
   - continue heparin gtt
   - trial of IV morphine for pain control
   .
   # Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits. Family
   still very interested in pursuing surgery.
   Rest of plan is unchanged from above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5025**] [**Last Name (NamePattern1) 2569**], MD
   on:[**2125-9-9**] 17:58 ------

2125-09-09 10:43:00 Physician Attending Progress Note
Chief Complaint: Sepsis.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2125-9-8**] 02:30 PM
 EKG - At [**2125-9-8**] 02:53 PM
   Heparin gtt started for ischemic left toes.
   ID consult recommended d/c of daptomycin and continuation of meropenem
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-9-7**] 11:47 AM
   Metronidazole - [**2125-9-8**] 04:00 AM
   Daptomycin - [**2125-9-8**] 04:15 PM
   Meropenem - [**2125-9-9**] 06:35 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Heparin Sodium - [**2125-9-9**] 03:54 AM
   Other medications:
   pravstatin
   asa
   Prevacid
   neurontin
   Atrovent
   RISS
   plavix
   synthroid
   Heparin gtt
   tylenol
   lopressor
   hydrocortsione 50 q8 (day 3 of 5)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-9**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 106 (87 - 126) bpm
   BP: 121/53(79) {109/53(76) - 149/76(108)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 11 (2 - 17)mmHg
   Total In:
                                                                  2,307 mL
                                                                  1,085 mL
   PO:
   TF:
                                                                  1,202 mL
                                                                    507 mL
   IVF:
                                                                    866 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                  2,358 mL
                                                                    870 mL
   Urine:
                                                                    918 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.42/50/63/29/6
   Physical Examination
   GEN:  Alert, RASS 0
   CV: Irregular, no murmurs
   LUNGS: Corase rhonchi
   ABD: Soft,
   EXT: LLE cold/wrapped
   SKIN: RLE wound deadhescence, Left foot wrapped.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   568 K/uL
   126 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   30.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2125-9-7**]  02:03 AM
                             [**2125-9-7**]  02:18 AM
                             [**2125-9-8**]  04:09 AM
                             [**2125-9-8**]  12:02 PM
                             [**2125-9-8**]  08:02 PM
                             [**2125-9-9**]  02:30 AM
                             [**2125-9-9**]  02:57 AM
                             [**2125-9-9**]  03:42 AM
                             [**2125-9-9**]  08:26 AM
                             [**2125-9-9**]  09:26 AM
   WBC
   23.0
   20.0
   15.7
   Hct
   28.4
   28.5
   30.1
   Plt
   521
   609
   616
   568
   Cr
   0.5
   0.5
   0.5
   0.4
   TropT
   0.23
   0.12
   TCO2
   36
   34
   34
   34
   34
   Glucose
   124
   152
   147
   126
   Other labs: PT / PTT / INR:13.0/72.5/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:92.2 %, Lymph:4.1 %,
   Mono:3.6 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, LDH:218 IU/L, Ca++:8.1
   mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: patchy opacities bl- no interval change.
   Microbiology: Pleural fluid [**9-6**]: pan resistent acinetobacter.
   ECG: Afib at 110-120
   Assessment and Plan
   Chronically critically ill with ongoing issues of PVD, peripheral LLE
   ischemia, poor skin integrity, chronic acinetobactor infection in
   pleural space, poor swallow and cough, cachexia, painfull contracted
   extrimities.
   From the standpoint of his sepsis he is overall improved: spontaneously
   breathing, mentating, no pressor requirement.
   What is needed is clarification of goals of care as patient is asking
   to eat and unclear [**Name2 (NI) 5520**] he will ever be deemed a surgical candidate
   for his PVD.
   NEURO
   1) MSO4 PRN for pain
   CV:
   1) s/p NSTEMI and asa and plavix.
   2) increase metoprolol to 25 tid for afib; heparin gtt
   3) TBB even to -500.
   RESP:
   1) As needed suctioning for pulm toilet, sheduled bronchodilators.
   2) Oxygen as needed for SpO2>90%
   3) Autotitrating CPAP qhs for OSA
   4) CT still draining fluid so will wait for this to taper off before
   repeating CT chest.
   GI:
   1) Tube feeds at goal.
   2) PPI for prophylaxis
   ENDO:
   1) day [**2-21**] for empiric hydrocortisone
   2) FS well controlled
   ID:
   1) consult appreciated.  He's s/p 3 weeks of meropenem at this point-
   will ask ID how long to continue.
   2) Will leave in aline for now.
   HEME:
   1) Heparin gtt for PVD
   VASCULAR:
   1) We asked vacular chief resident today to give us a plan re: surgical
   options.
   DISPO:
   1)MICU given RN needs.  Will need to re-assess goals of care with
   family.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-8**] 04:25 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2125-09-11 07:43:00 Physician Resident Progress Note
Chief Complaint:
   None
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2125-9-10**] 04:00 PM
   - Patient failed CPAP and was intubated for hypercarbic respiratory
   failure.
   - ID believes Acinetobacter is colonized as patient improved without
   treatment and dose not appear infected.
   - Patient hypotensive to 76/42 after intubation, given 250cc NS bolus x
   2. on minimal levophed for a few hours, now off
   - Steroids tapered to 50mg IV q12
   - Tube feeds off for concern that he is aspirating them.
   Patient minimally responsive to verbal and noxious stimuli, on
   sedation. Per nursing report, was relatively quiet overnight, appears
   comfortable.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-9-8**] 04:15 PM
   Meropenem - [**2125-9-11**] 06:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2125-9-10**] 08:00 AM
   Furosemide (Lasix) - [**2125-9-10**] 02:01 PM
   Other medications:
   Atrovent, albuterol, Lactulose, senna, colace, levothyroxine,
   metoprolol TID, morphine PRN, neutraphos, chlorhexadine, zyprexa,
   meropenem, plavix, Insulin ss, neurontin, ASA 325, lasoprazole,
   pravastatin, hydrocerin
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-11**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 101 (73 - 103) bpm
   BP: 121/60(86) {83/43(58) - 145/70(104)} mmHg
   RR: 21 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  3,613 mL
                                                                    524 mL
   PO:
   TF:
                                                                  1,729 mL
                                                                    205 mL
   IVF:
                                                                  1,514 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  2,089 mL
                                                                    680 mL
   Urine:
                                                                  1,574 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,524 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (300 - 500) mL
   Vt (Spontaneous): 500 (500 - 907) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.43/54/111/33/10
   Ve: 10.9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: Sedated, does not respond to verbal stimuli, opens eyes
   slightly with sternal rub. ET tube in place. No spontaneous movements
   noted.
   HEENT: NC/AT. Slightly dry MM, ETT in place. Eyes closed, will not
   cooperative for pupil exam.
   Neck: Supple. CVL in place, clean, dry, and intact.
   Lungs: Rhoncherous, sound of ventilator appreciated bilaterally.
   Cardiac: Irregular
   Abdomen: Soft, +BS, ND
   Extr: Hands cool
right hand with dusky blue-purple appearance of finger
   tips, no areas of necrosis noted. Left hand with some duskiness, less
   than right. Capillary refill sluggish. Radial pulses difficult to
   appreciate, but present. Edematous upper extremities and right lower
   extremity. Extremities less dusky when re-assess with team on AM
   rounds.
   Skin: No other lesions or breakdown noted.
   Neurologic: As described above.
   Labs / Radiology
   441 K/uL
   9.4 g/dL
   125 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.6 mEq/L
   28 mg/dL
   109 mEq/L
   144 mEq/L
   30.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2125-9-10**]  03:28 AM
                             [**2125-9-10**]  04:21 AM
                             [**2125-9-10**]  11:20 AM
                             [**2125-9-10**]  12:33 PM
                             [**2125-9-10**]  01:58 PM
                             [**2125-9-10**]  03:13 PM
                             [**2125-9-10**]  05:22 PM
                             [**2125-9-10**]  07:36 PM
                             [**2125-9-11**]  03:51 AM
                             [**2125-9-11**]  06:46 AM
   WBC
   10.5
   9.8
   Hct
   28.7
   30.3
   Plt
   484
   441
   Cr
   0.5
   0.3
   TCO2
   35
   37
   35
   38
   36
   40
   37
   37
   Glucose
   121
   125
   Other labs: PT / PTT / INR:12.8/76.9/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.0
   mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Mirco Data:
   [**9-10**] Stool negative for c. diff A & B toxins
   [**9-9**] Sputum sample contaminated
   [**9-9**] PICC tip culture no growth to date
   [**9-7**] Pleural fluid culture: No PMNs or organisms on gram stain, no
   growth on cultures, AFB smear negative
   [**9-7**] Swab of wound culture (
CT site
) Acinetobacter and Klebseilla
   [**9-7**], [**9-6**] x4 (one mycolytic), NGTD
   [**9-6**] Pleural fluid acinetobacter
   CXR [**9-11**]: Bilateral pleural effusions with superimposed infiltrates,
   ETT and lines in place.
   Assessment and Plan
   .
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated
   yesterday for hypercarbic respiratory distress.
   Hypercarbic Respiratory Failure:  Patient intubated yesterday after
   noted to be less responsive, hypercarbic, and failed CPAP trial.
   Suspect that his respiratory failure is secondary to pulmonary
   infection, prior history of COPD, OSA, altered mental status, and
   likely aspiration of tube feeds. With increase in respiratory rate,
   ABGs have demonstrated improved oxygenation.
   - Will attempt to go back down on rate, re-assess with repeat ABG later
   today.
   - Continue meropenem for klebseilla PNA, today is day 13 of 14.
   - Appreciate ID commenting on whether to cover patient for
   acinetobacter given respiratory decline.
   - Will need to continue to have discussions with family re: goals of
   care, as given need for intubation for the 2^nd time, may need to
   discuss other options such as tracheostomy.
   - Daily trial off sedation to assess mental status.
   Sepsis/PNA: Pleural fluid from [**9-7**] growing acinetobacter, sputum with
   klebseilla. Patient has remained afebrile, but of note he had been on
   standing Tylenol.  No leukocytosis. Hemodynamically stable overnight
   after intubation period once levophed off.
   - Appreciate ID  input: will clarify treatment for acinetobacter,
   possible that it is colonization, but could be possible source for
   deterioration.
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to draining well, so will need
   to remain in place.
   - Scheduled nasal suctioning
   - Tube feeds noted to be suctioned out of ETT tube, so will attempt to
   place Dobhoff today, will likely will require PEG at time of vascular
   surgery
   - Continue meropenem for Klebsiella Day 1: [**2125-8-31**]. (although first
   dose 9/9). 14 day course
should end tomorrow.
   - Will stop stress dose steroids (today is day 5 of 5), yesterday had
   changed to 50 [**Hospital1 **]
   PVD/Necrotic foot: Today, noted to have dusky extremities, which were
   improved upon repeat examination. Pulses palpable, so less likely
   embolic given improvement. Could be secondary to pressors, but patient
   was only on levophed transiently. Likely also related to bad vascular
   disease.  Currently, plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - Hold standing Tylenol to better monitor fever curve, but for now will
   continue neurontin for pain control
may need to cut down or d/c if
   having difficulty assessing mental status.
   - vascular surgery recs on whether candidate for surgery
   - trial of IV morphine for pain control
   Apnea: Likely was contributing to hypercarbic failure. Will need outpt
   sleep study and BiPAP at night if extubated.
   CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out this week; no current
   EKG changes.
   -already on heparin gtt
   -continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   -hold BB given hypotension
   -on statin
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia. Being titrated up slowly on beta blocker as previously had
   some decrease in BP with increased metoprolol
   - Increased metoprolol to 25mg PO TID for improved rate control (home
   dose is 50mg PO TID)
as tolerated by BP, currently being held, will
   plan to re-intiated in AM after d/c stress steroids today and ensuring
   that BP remains stable.
   - Cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, persantine stress test prior to vascular
   surgery, reconsult after stress test
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolving
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even to -500 cc
s neg.
   FEN: replete lytes prn
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
given concerns re:aspiration, will need to attempt to
   place dobhoff today (post-pylorus), and will need to discuss PEG with
   family
consider PEG placement (possibly at time of vascular surgery or
   tracheostomy).
   Code: full (confirmed on admit to ICU)
   .
   # Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5440**]
 family meeting with
   daughter and wife earlier this week, will need to have another meeting
   this week.
   # Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits. Family
   still very interested in pursuing surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Hep gtt
   Stress ulcer: Lansoprazole
   VAP:  Chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2125-09-12 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dobhoff placed, placement in stomach confirmed, advanced further to
   increase likelihood tube is post-pyloric
   - Mildly hypotensive (systolic 80's) after Dobhoff placement, had
   received add'l sedation, responded to 250 cc bolus
   - Started reglan to help with gastric motility given significant amount
   of tube feeds present in suctionned material
   - Afternoon ABG demonstrated alkalosis, decreased respiratory rate
   - Discussed latest events with daughter, possibility that tracheostomy
   might be best next option if respiratory status does not significantly
   improve--per family preference, daughter to discuss with wife. Family
   aware we would like to discuss patient's progress and goals of care
   later this week.
   - Steroids and standing Tylenol stopped.
   - Hypoglycemic to 50 (tube feeds were being held)-- 1 amp D50.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 06:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-9-11**] 08:33 AM
   Dextrose 50% - [**2125-9-11**] 12:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 95 (74 - 109) bpm
   BP: 121/63(67) {88/50(64) - 147/92(109)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  1,685 mL
                                                                    441 mL
   PO:
   TF:
                                                                    205 mL
   IVF:
                                                                  1,250 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    620 mL
   Urine:
                                                                  1,265 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.44/50/98.[**Numeric Identifier 248**]/34/7
   Ve: 6.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   8.9 g/dL
   88 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   23 mg/dL
   110 mEq/L
   144 mEq/L
   28.3 %
   9.0 K/uL
        [image002.jpg]
                             [**2125-9-10**]  12:33 PM
                             [**2125-9-10**]  01:58 PM
                             [**2125-9-10**]  03:13 PM
                             [**2125-9-10**]  05:22 PM
                             [**2125-9-10**]  07:36 PM
                             [**2125-9-11**]  03:51 AM
                             [**2125-9-11**]  06:46 AM
                             [**2125-9-11**]  11:59 AM
                             [**2125-9-11**]  03:19 PM
                             [**2125-9-12**]  03:05 AM
   WBC
   9.8
   9.0
   Hct
   30.3
   28.3
   Plt
   441
   366
   Cr
   0.3
   0.4
   TCO2
   35
   38
   36
   40
   37
   37
   39
   35
   Glucose
   125
   88
   Other labs: PT / PTT / INR:12.8/66.7/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.9
   mg/dL, Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: WBC count trending down
   Bicarb up to 34
   7.44/50/98 3pm [**9-11**] (rr 18->14)
   7.47/52/104 12pm [**9-11**]
   Imaging: CXR
   Microbiology: No new culture data. Sputum culture from [**2126-9-11**] poor
   sample
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated
   yesterday for hypercarbic respiratory distress.
   Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds. With
   increase in respiratory rate, ABGs have demonstrated improved
   oxygenation.
   - now on 500/14/5/40%
   - Will attempt to go back down on rate, re-assess with repeat ABG later
   today.
   - Continue meropenem for klebseilla PNA, today is day 14 of 14.
   - Appreciate ID commenting on whether to cover patient for
   acinetobacter given respiratory decline.
   - Will need to continue to have discussions with family re: goals of
   care, as given need for intubation for the 2nd time, may need to
   discuss other options such as tracheostomy.
   - Daily trial off sedation to assess mental status.
   Sepsis/PNA: Pleural fluid from [**9-7**] growing acinetobacter, sputum with
   klebseilla. Patient has remained afebrile, but of note he had been on
   standing Tylenol.  No leukocytosis. Hemodynamically stable overnight
   after intubation period once levophed off.
   - Appreciate ID  input: will clarify treatment for acinetobacter,
   possible that it is colonization, but could be possible source for
   deterioration.
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to draining well, so will need
   to remain in place.
   - Scheduled nasal suctioning
   - Tube feeds noted to be suctioned out of ETT tube, so will attempt to
   place Dobhoff today, will likely will require PEG at time of vascular
   surgery
   - Continue meropenem for Klebsiella Day 1: [**2125-8-31**]. 14 day course
   finishes today
   - s/p stress dose steroids
   PVD/Necrotic foot: Today, noted to have dusky extremities, which were
   improved upon repeat examination. Pulses palpable, so less likely
   embolic given improvement. Could be secondary to pressors, but patient
   was only on levophed transiently. Likely also related to bad vascular
   disease.  Currently, plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - Hold standing Tylenol to better monitor fever curve, but for now will
   continue neurontin for pain control
may need to cut down or d/c if
   having difficulty assessing mental status.
   - vascular surgery recs on whether candidate for surgery
   - trial of IV morphine for pain control
   Apnea: Likely was contributing to hypercarbic failure. Will need outpt
   sleep study and BiPAP at night if extubated.
   CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out this week; no current
   EKG changes.
   -already on heparin gtt
   -continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   -hold BB given hypotension
   -on statin
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia. Being titrated up slowly on beta blocker as previously had
   some decrease in BP with increased metoprolol
   - Increased metoprolol to 25mg PO TID for improved rate control (home
   dose is 50mg PO TID)
as tolerated by BP, currently being held, will
   plan to re-intiated in AM after d/c stress steroids today and ensuring
   that BP remains stable.
   - Cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, persantine stress test prior to vascular
   surgery, reconsult after stress test
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolving
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even to -500 cc
s neg.
   FEN: replete lytes prn
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
given concerns re:aspiration, will need to attempt to
   place dobhoff today (post-pylorus), and will need to discuss PEG with
   family
consider PEG placement (possibly at time of vascular surgery or
   tracheostomy).
   Code: full (confirmed on admit to ICU)
   # Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting with
   daughter and wife earlier this week, will need to have another meeting
   this week.
   # Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits. Family
   still very interested in pursuing surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-13 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - On PS trial (PS 14 with 5 peep) tolerating with ABG: 7.46/47/99/34
   since 2pm yesterday
   - D/C'd Meropenem
   - Goal fluid balance even
   - UOP trailed off in evening, got 250cc NS bolus for borderline BP and
   UOP
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 12:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-9-12**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-13**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 121 (104 - 122) bpm
   BP: 122/62(86) {96/47(67) - 135/73(100)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (1 - 16)mmHg
   Total In:
                                                                  1,588 mL
                                                                    133 mL
   PO:
   TF:
                                                                    233 mL
   IVF:
                                                                  1,154 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    400 mL
   Urine:
                                                                  1,005 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    123 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 450 (427 - 560) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.47/44/107/32/7
   Ve: 8.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   8.5 g/dL
   69 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.1 mEq/L
   19 mg/dL
   108 mEq/L
   144 mEq/L
   26.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2125-9-11**]  03:51 AM
                             [**2125-9-11**]  06:46 AM
                             [**2125-9-11**]  11:59 AM
                             [**2125-9-11**]  03:19 PM
                             [**2125-9-12**]  03:05 AM
                             [**2125-9-12**]  08:23 AM
                             [**2125-9-12**]  02:07 PM
                             [**2125-9-12**]  10:07 PM
                             [**2125-9-13**]  04:32 AM
                             [**2125-9-13**]  04:57 AM
   WBC
   9.8
   9.0
   10.8
   Hct
   30.3
   28.3
   26.3
   Plt
   [**Telephone/Fax (3) 5600**]
   Cr
   0.3
   0.4
   0.4
   TCO2
   37
   39
   35
   35
   35
   34
   33
   Glucose
   125
   88
   69
   Other labs: PT / PTT / INR:12.8/66.7/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: 5am: 7.47/44/107
   10pm: 7.46/47/99
   2pm: 7.43/51/115
   No new culture data
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory distress.
   Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds
   - now on PSV 40% 14/5, has been tolerating this since 2pm [**9-12**], RSBI
   127
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Will need to continue to have discussions with family re: goals of
   care, as given need for intubation for the 2nd time, may need to
   discuss other options such as tracheostomy and PEG
   - Daily trial off sedation to assess mental status.
   Sepsis/PNA: now resolving, Does not appear infected
    s/p 14 day treatment with meropenem for klebs PNA.
   Acinetobacter from pigtail likely contaminant.
   No leukocytosis. Hemodynamically stable. afebrile
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to draining well, so will need
   to remain in place for now, IP following
   - Dobhoff placed to help prevent aspiration. Will talk to family about
   PEG; chronic aspirator
   - Continue meropenem for Klebsiella Day 1: [**2125-8-31**]. 14 day course
   finishes today
   - Appreciate ID recs.
   PVD/Necrotic foot:  plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - neurontin for pain control
may need to cut down or d/c if having
   difficulty assessing mental status.
   - trial of IV morphine for pain control
   CAD: s/p recent NSTEMI. Has prior BMS.  Ruled out this week; no current
   EKG changes.
   - on heparin gtt
   - continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   - hold BB given hypotension
   - on statin
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, persantine stress test prior to vascular
   surgery, reconsult after stress test, and patient is high risk for high
   risk procedure.
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
given concerns re:aspiration, will need to attempt to
   place dobhoff today (post-pylorus), and will need to
   - discuss PEG with family
consider PEG placement (possibly at time of
   vascular surgery or tracheostomy).
   Apnea: Likely was contributing to hypercarbic failure. Will need outpt
   sleep study and BiPAP at night if extubated.
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting with
   daughter and wife earlier this week, will need to have another meeting
   this week.
   Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-14 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Dobhoff clogged, replaced with NGT
   -          Versed boluses during NGT -> periods of apnea, on AC then
   back on PS 10/5 40% at 7 PM
   -          Family meeting 12 today
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopenia
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Fentanyl - [**2125-9-13**] 02:30 PM
   Midazolam (Versed) - [**2125-9-13**] 02:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-14**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 94 (94 - 114) bpm
   BP: 109/54(75) {76/43(55) - 140/76(103)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                    742 mL
                                                                    208 mL
   PO:
   TF:
   IVF:
                                                                    662 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    505 mL
   Urine:
                                                                    980 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -848 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 514 (406 - 514) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/60/112/31/5
   Ve: 4.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: Intubated, sedated
   HEENT: Pupils 1mm
   Heart: s1s2 irregular
   Lungs: Coarse BS bilaterally
   Abd: Soft, NT/ND
   Ext: RLE warm, LLE cooler to palpation (baseline), ulcer over L knee
   unchanged; fingers cool, nail beds appear dusky
   Neurologic: Alert, follows commands
   Labs / Radiology
   329 K/uL
   8.7 g/dL
   64 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   109 mEq/L
   146 mEq/L
   26.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-9-11**]  03:19 PM
                             [**2125-9-12**]  03:05 AM
                             [**2125-9-12**]  08:23 AM
                             [**2125-9-12**]  02:07 PM
                             [**2125-9-12**]  10:07 PM
                             [**2125-9-13**]  04:32 AM
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
   WBC
   9.0
   10.8
   9.3
   Hct
   28.3
   26.3
   26.9
   Plt
   366
   346
   329
   Cr
   0.4
   0.4
   0.4
   TCO2
   35
   35
   35
   34
   33
   33
   35
   Glucose
   88
   69
   64
   Other labs: PT / PTT / INR:12.8/66.7/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   CXR [**9-14**]: No new consolidations; unchanged pleural effusions
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure.
   Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds
   - PCo2 increased, pH decreased on PS 8, increased to 12
   - will allow some degree of hypercarbia given COPD hx
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Family meeting re: goals of care, as given need for intubation for
   the 2nd time, need to discuss other options such as tracheostomy and
   PEG
   Sepsis/PNA: now resolving, Does not appear infected
    s/p 14 day treatment with meropenem for klebs PNA.
   Acinetobacter from pigtail likely contaminant.
   No leukocytosis. Hemodynamically stable. afebrile
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to draining well, so will need
   to remain in place for now, IP following
   - Dobhoff clogged, replaced with NGT
   PVD/Necrotic foot: plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - neurontin for pain control
may need to cut down or d/c if having
   difficulty assessing mental status.
   - heparin gtt, since may have procedure
   CAD: s/p recent NSTEMI. Has prior BMS.
   - continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   - on BB
   - on statin
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, persantine stress test prior to vascular
   surgery, reconsult after stress test, and patient is high risk for high
   risk procedure.
   - heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even
   - UOP trailed off this AM, small fluid bolus
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds: dobhoff clogged, replaced with NG tube
   - discuss PEG with family
consider PEG placement (possibly at time of
   vascular surgery or tracheostomy).
   Apnea: Likely was contributing to hypercarbic failure. Will need outpt
   sleep study and BiPAP at night if extubated.
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting today
   Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2125-09-14 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Failed S&S eval, but recommend waiting until next week to
   re-eval before discussion of PEG
   -          Dobhoff replaced
   -          Called out to floor with 1:1 sitter
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Fentanyl - [**2125-9-13**] 02:30 PM
   Midazolam (Versed) - [**2125-9-13**] 02:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-14**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 94 (94 - 114) bpm
   BP: 109/54(75) {76/43(55) - 140/76(103)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                    742 mL
                                                                    210 mL
   PO:
   TF:
   IVF:
                                                                    662 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    505 mL
   Urine:
                                                                    980 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -848 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 514 (406 - 514) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/60/112/31/5
   Ve: 4.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen:
   HEENt:
   Heart:
   Lungs:
   Abd:
   Ext:
   Neurologic: Awake, alert
   Labs / Radiology
   329 K/uL
   8.7 g/dL
   64 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   109 mEq/L
   146 mEq/L
   26.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-9-11**]  03:19 PM
                             [**2125-9-12**]  03:05 AM
                             [**2125-9-12**]  08:23 AM
                             [**2125-9-12**]  02:07 PM
                             [**2125-9-12**]  10:07 PM
                             [**2125-9-13**]  04:32 AM
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
   WBC
   9.0
   10.8
   9.3
   Hct
   28.3
   26.3
   26.9
   Plt
   366
   346
   329
   Cr
   0.4
   0.4
   0.4
   TCO2
   35
   35
   35
   34
   33
   33
   35
   Glucose
   88
   69
   64
   Other labs: PT / PTT / INR:12.8/66.7/1.1, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-09-15 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Family meeting yesterday: family wishes to proceed with
   aggressive care, want trach/PEG
   -          Increased PS to 14 as PCO2 rose and pH dropped on PS [**7-29**]
   -          Bolused 250cc, then 500cc for low urine output and marginal
   BPs (90-100)
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,350 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2125-9-14**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-15**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 115 (84 - 115) bpm
   BP: 117/64(84) {87/44(61) - 128/70(95)} mmHg
   RR: 23 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 267 (8 - 267)mmHg
   Total In:
                                                                  1,459 mL
                                                                    902 mL
   PO:
   TF:
                                                                     73 mL
                                                                    154 mL
   IVF:
                                                                  1,121 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    290 mL
   Urine:
                                                                    685 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    554 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 438 (397 - 833) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/50/87.[**Numeric Identifier 244**]/29/3
   Ve: 13 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: Intubated, sedated, arouses to voice
   HEENT: PERRL
   Lungs: Coarse BS bilaterally
   Heart: s1s2
   Abd: Soft, Nt/ND
   Ext: Improvement in perfusion since yesterday, nailbeds less dusky; LLE
   still cool, atrophied; + edema of the upper ext
   Neuro: Arouses to voice, MAE
   Labs / Radiology
   319 K/uL
   9.0 g/dL
   83 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   144 mEq/L
   27.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2125-9-12**]  02:07 PM
                             [**2125-9-12**]  10:07 PM
                             [**2125-9-13**]  04:32 AM
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
                             [**2125-9-14**]  11:33 AM
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
   WBC
   10.8
   9.3
   10.5
   Hct
   26.3
   26.9
   27.0
   Plt
   346
   329
   319
   Cr
   0.4
   0.4
   0.5
   TCO2
   35
   34
   33
   33
   35
   36
   31
   Glucose
   69
   64
   83
   Other labs: PT / PTT / INR:14.4/57.6/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   CXR [**9-15**]: ? worsening bilateral consolidations in lower lobes, possible
   aspiration
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure.
   Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds
   - PCo2 increased, pH decreased on PS 8, increased to 14, stabilized ABG
   - will allow some degree of hypercarbia given COPD hx
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Family meeting: plan for trach/PEG
   - Possibly still aspirating, although no residuals when checked
   Sepsis/PNA: now resolving, Does not appear infected
    s/p 14 day treatment with meropenem for klebs PNA.
   Acinetobacter from pigtail likely contaminant.
   No leukocytosis. Hemodynamically stable. afebrile
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to [**Last Name (LF) 1852**], [**First Name3 (LF) **] will need to remain
   in place for now, IP following
   - Dobhoff clogged, replaced with NGT
   PVD/Necrotic foot: plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - neurontin for pain control
may need to cut down or d/c if having
   difficulty assessing mental status.
   - heparin gtt, since may have procedure
   - fingers less dusky, already on heparin, vascular following, seemed to
   improve with SBP >90s after IVF bolus
   CAD: s/p recent NSTEMI. Has prior BMS.
   - continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   - on BB
   - on statin
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Cardiology following regarding recs on pre-op clearance for PVD
   surgery. Per cardiology, persantine stress test prior to vascular
   surgery, reconsult after stress test, and patient is high risk for high
   risk procedure.
   - heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Reglan for aspiration risk to increase
   - discuss PEG with family
wishes for PEG placement (possibly at time of
   vascular surgery or tracheostomy).
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]
   Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits.
   ICU Care
   Nutrition: TF
   Nutren Pulmonary (Full) - [**2125-9-14**] 04:43 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   VAP:  HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:ICU

2125-09-15 10:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Family meeting [**9-14**] to discuss goals o fcare
   decision made to proceed with trach/peg, vascular surgery when able
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-9-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2125-9-14**] 09:00 PM
   Other medications:
   hydrocerin [**Hospital1 **] topical
   pravastatin 80 qday
   lansoprazole 30 qd
   asa 325
   gabapentin
   RISS
   plavix 75 qday
   chlorhexadine
   reglan
   ipatropium
   albuterol
   metoprolol 25 tid
   levo 50 ucg qday
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-15**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 98 (84 - 117) bpm
   BP: 96/45(63) {87/43(61) - 128/70(95)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 7 (7 - 267)mmHg
   Total In:
                                                                  1,459 mL
                                                                  1,187 mL
   PO:
   TF:
                                                                     73 mL
                                                                    277 mL
   IVF:
                                                                  1,121 mL
                                                                    790 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    325 mL
   Urine:
                                                                    685 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    554 mL
                                                                    862 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 438 (397 - 833) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/50/87.[**Numeric Identifier 244**]/29/3
   Ve: 13 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   319 K/uL
   83 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   144 mEq/L
   27.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2125-9-12**]  02:07 PM
                             [**2125-9-12**]  10:07 PM
                             [**2125-9-13**]  04:32 AM
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
                             [**2125-9-14**]  11:33 AM
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
   WBC
   10.8
   9.3
   10.5
   Hct
   26.3
   26.9
   27.0
   Plt
   346
   329
   319
   Cr
   0.4
   0.4
   0.5
   TCO2
   35
   34
   33
   33
   35
   36
   31
   Glucose
   69
   64
   83
   Other labs: PT / PTT / INR:15.1/110.0/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: increased haziness lower lobes b/l with haziness at
   diaphragmatic border
   Assessment and Plan
   Pt is a 75 year old male with many medical problems including pvd and
   dry gangrene, admitted initially [**8-4**] with surgical wound infection,
   with hospital course complicated by PNA, NSTEMI, who was transferred to
   MICU with shock, intubated [**2125-9-10**] for hypercarbic respiratory failure.
   1. Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds.  Current
   respiratory status most compromised by persistent aspiration.
   Ventilating well on PSV
   - PCo2 increased, pH decreased on PS 8, increased to 14, stabilized ABG
   - will allow some degree of hypercarbia given COPD hx
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - will discuss trach placement with surgery today
    - pig tail catheters in place continue to drain
    - nutrition was of great concern to family and will therefore continue
   tube feeds, will procede with surgical consult for peg although this
   will not remove aspiration risk
   2. PVD/Necrotic foot: AKA/Fem-[**Doctor Last Name 114**] bypass if pt medically stable, until
   then supportive measures
   - Continue wound care
   - Appreciate surgery recs
   - neurontin for pain control
may need to cut down or d/c if having
   difficulty assessing mental status.
   - heparin gtt, since may have procedure
   - dusky appearing distal digits improving wth increased BPs
   3. CAD: s/p recent NSTEMI. Has prior BMS.
   - continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   - on BB
   - on statin
   - will procede with surgery once trach/peg in place without mibi, cont
   bb perioperatively
   4. Hypovolemia:
    - gentle bolus as needed for volume, maintain CVP 8-10
   5. Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - heparin gtt
    6. Diastolic CHF: Diastolic, preserved EF. Total body fluid
   overloaded, but hypotension now resolved
   -appreciate cardiology input
   -follow I+O's
   -I/O goal even
   - UOP does trail off, small fluid boluses prn
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - pt to have trach/peg placement, have consulted surgery
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]
   Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-14**] 04:43 PM 40 mL/hour
   Comments: reglan for improved gastric motolity
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments: pt at aspiration risk andneeds to be maintained > 30degrees
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this patient with Dr. [**Last Name (STitle) 5651**] for the key portions of
   this note and agree with the hx and assessment and plan as outlined
   above. 75 yo M with  LLE surgical wound infection, hospital course
   notable for ARF, NSTEMI, klebsiella  Pna, cardiac arrest, respiratory
   failure, hypotension and altered MS. Recent family meeting with plans
   to pursue trach/PEG.
   Ill appearing, minimally responsive male, intubated.
   Lungs: slightly diminished but overall clear
   CV: RRR
   Abd, soft +bs, nontender
   Ext: bilateral UE> LE edema
   CXR suggests increasing opacity at left base
   Imp: Resp failure due to COPD, aspiration, VAP, OSA, marginal mental
   status
         Recent NQWMI
         PVD with digit ischemia on heparin
   Patient remains critically ill with little change from yesterday.
   Pursuing trach/PEG by Surgery. Continue mech vent at current settings,
   and supportive care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-9-15**] 16:52 ------

2125-09-16 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery c/s re: trach/PEG --> Thoracics vs Gen [**Doctor First Name **], TBD tomorrow
   - 12PM ABG: 7.39/51/119/32 on PS 14/5 40%
   - Thoracics contact[**Name (NI) **] re: pigtails, will get back to us (IP)
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 109 (97 - 117) bpm
   BP: 109/55(75) {89/43(60) - 122/65(87)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 13 (6 - 319)mmHg
   Total In:
                                                                  2,267 mL
                                                                    576 mL
   PO:
   TF:
                                                                    930 mL
                                                                    355 mL
   IVF:
                                                                  1,157 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    530 mL
   Urine:
                                                                    645 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 476 (476 - 477) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/55/101/32/8
   Ve: 6.5 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: Intubated, sedated, arouses to voice
   HEENT: PERRL
   Lungs: Coarse BS bilaterally
   Heart: s1s2
   Abd: Soft, Nt/ND
   Ext: Improvement in perfusion since yesterday, nailbeds less dusky; LLE
   still cool, atrophied; + edema of the upper ext
   Neuro: Arouses to voice, MAE
   Labs / Radiology
   324 K/uL
   8.7 g/dL
   134 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   144 mEq/L
   26.2 %
   9.4 K/uL
         [image002.jpg]
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
                             [**2125-9-14**]  11:33 AM
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
                             [**2125-9-15**]  11:59 AM
                             [**2125-9-16**]  03:56 AM
                             [**2125-9-16**]  04:20 AM
   WBC
   9.3
   10.5
   9.4
   Hct
   26.9
   27.0
   26.2
   Plt
   329
   319
   324
   Cr
   0.4
   0.5
   0.5
   TCO2
   33
   33
   35
   36
   31
   32
   37
   Glucose
   64
   83
   134
   Other labs: PT / PTT / INR:15.1/69.1/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**9-10**]: C diff neg
   no new culture data
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure.
   Hypercarbic Respiratory Failure:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure. Suspect that his respiratory failure
   is secondary to pulmonary infection, prior history of COPD, OSA,
   altered mental status, and likely aspiration of tube feeds
   - Now stable on PS 14/5 40%
   - will allow some degree of hypercarbia given COPD hx
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Family meeting: plan for trach/PEG
   - Possibly still aspirating, although no residuals when checked
   Sepsis/PNA: now resolving, Does not appear infected
    s/p 14 day treatment with meropenem for klebs PNA.
   Acinetobacter from pigtail likely contaminant.
   No leukocytosis. Hemodynamically stable. afebrile
   - Maintain CVP =[**7-31**], MAP >65
   - Bilateral pigtail catheters continue to [**Last Name (LF) 1852**], [**First Name3 (LF) **] will need to remain
   in place for now, IP following
   PVD/Necrotic foot: plans for AKA and fem/fem bypass on are hold until
   patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **] willing to
   take patient to OR if cleared medically
   - Continue wound care
   - Appreciate surgery recs
   - neurontin for pain control
   - heparin gtt, since may have procedure
   - fingers less dusky, already on heparin, vascular following, seemed to
   improve with SBP >90s after IVF bolus
   CAD: s/p recent NSTEMI. Has prior BMS.
   - continue aspirin, plavix (though does not strictly need plavix as has
   BMS)
   - continue metoprolol 25 TID,  statin
   - Cardiology rec: persantine stress test prior to vascular surgery,
   reconsult after stress test, and patient is high risk for high risk
   procedure.
   Atrial Fibrillation: Patient with afib with some episodes of
   tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Reglan for aspiration risk to increase
   - Patient will get Trach and peg early next week
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]
   Comm: [**Name (NI) **] discussion with wife and daughter at bedside, they would
   prefer to have family meetings by telephone as that allows them more
   privacy to deal with a tough emotional situation. Plan is to have
   vascular surgery give definitive input as to whether patient will be
   going for surgery and then hold another family meeting. [**Hospital 5524**] medical
   team can discuss patient
s medical clearance and risks/benefits.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-15**] 11:57 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:

2125-09-16 09:51:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   no new overnight events
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   hydrocerin
   pravastatin
   lanzoprazole
   asa 325
   gabapentin
   RISS
   plavix 75 qday
   chlorhexadine
   reglan 5mg IV q6
   atrovent
   Albuterol
   Fentanyl
   medaz 2 mg/hr
   metop 25 po tid
   levo 50 QD
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-16**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 98 (97 - 116) bpm
   BP: 101/52(70) {89/44(60) - 119/61(85)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 6 (6 - 319)mmHg
   Total In:
                                                                  2,267 mL
                                                                    830 mL
   PO:
   TF:
                                                                    930 mL
                                                                    480 mL
   IVF:
                                                                  1,158 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    610 mL
   Urine:
                                                                    645 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (476 - 550) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/55/101/32/8
   Ve: 11.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Eyes / Conjunctiva: PERRL, piinpoint pupils
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft
   Extremities: Right: 2+, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   324 K/uL
   134 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   144 mEq/L
   26.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2125-9-13**]  04:57 AM
                             [**2125-9-13**]  10:31 AM
                             [**2125-9-14**]  03:21 AM
                             [**2125-9-14**]  03:34 AM
                             [**2125-9-14**]  11:33 AM
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
                             [**2125-9-15**]  11:59 AM
                             [**2125-9-16**]  03:56 AM
                             [**2125-9-16**]  04:20 AM
   WBC
   9.3
   10.5
   9.4
   Hct
   26.9
   27.0
   26.2
   Plt
   329
   319
   324
   Cr
   0.4
   0.5
   0.5
   TCO2
   33
   33
   35
   36
   31
   32
   37
   Glucose
   64
   83
   134
   Other labs: PT / PTT / INR:15.1/69.1/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: cxr with persistent bilateral LL patchy opacity likely [**1-20**]
   aspiration/atelectasis, b/l pigtails in place
   Assessment and Plan
   #1.Resp failure:
   Bringing down PS to [**11-23**], will continue to wean pressure
   trach to be placed by thoracics - will touch base with them regarding
   timing, holding asa/plavix
   increased sedation to assist with sedation, which appears to be
   improving his aspiration
   bilateral pigtails in place, IP placed, continue to drain, R drain was
   kinked and no output, has been fixed but needs to be sutured in place
   if it is going to stay
   #2. nutrition/aspiration:
    - peg placement this week
   #3. PVD:
    - cont heparin
    - to OR if stable
   #4. CAD:
    - asa/plavix/bb/statin
   #5. AFib:
    - metop/heparin
   #6. DHF:
    - CVP 6, making urine
   #7. volume:
    - cvp 6, uop 20-30cc/hr
   #8. mental status changes:
    - responds to simple commands when sedation is weaned
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-15**] 11:57 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family meeting to be held this week
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this patient and was present for all key portions of
   this note and agree with the hx and assessment and plan as outlined
   above. 75 yo M with  LLE surgical wound infection, hospital course
   notable for ARF, NSTEMI, klebsiella  PNA, cardiac arrest, respiratory
   failure, hypotension and altered MS. Recent family meeting with plans
   to pursue trach/PEG.  No events o/n.
   On exam:
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 98 (97 - 116) bpm
   BP: 101/52(70) {89/44(60) - 119/61(85)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Intubated, Ill appearing male
   Lungs: CTA
   CV: RRR
   Abd, soft +bs, NTND
   Ext: bilateral UE> LE edema
   A/P Resp failure due to COPD, aspiration, VAP, OSA, marginal mental
   status
         Recent NQWMI
         PVD with digit ischemia on heparin
   Resp failure
 cont to wean PSV as able.  Cont to require mech vent
   Requires trach
 [**Doctor First Name 458**] involved.   Will get PEG placed at same time for
   nutrition.  Cont heparin for ischemic digits.  Remainder of plan as
   documented in Dr. [**Last Name (STitle) 5651**] and HO notes.
   Pt is critically ill.
   Time spent on care 30 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2125-9-16**] 19:01 ------

2125-09-17 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Reduced PS to [**9-23**]. ABG: 7.39/56/128/35. 7.41/48/97
   - Patient going to OR today for tracheostomy and PEG as an add on case.
   - Diffuse rash on abdomen noted.
   Patient opens eyes in response to verbal and tactile stimuli and tracks
   patients in the room.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Levothyroxine 50 mg IV, Reglan 5 mg Q6H, Altrovent and albuterol nebs,
   Lactulose, senna, colace, metoprolol 25 mg TID, morphine 1-2 mg Q2H
   PRN, Chlorhexidine, Zyprexa 5 mg QHS PRN, Heparin IV gtt, Plavix 75 mg,
   Regular Insulin SS, Gabapentin 300 mg Q8H, ASA 325 mg, lansoprazole 30
   mg, Pravastatin 80 mg, hydrocerin, miconazole,
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None.
   Flowsheet Data as of  [**2125-9-17**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 113 (81 - 113) bpm
   BP: 104/53(73) {84/45(60) - 121/61(85)} mmHg
   RR: 15 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 2 (2 - 7)mmHg
   Total In:
                                                                  2,000 mL
                                                                    232 mL
   PO:
   TF:
                                                                  1,201 mL
                                                                     27 mL
   IVF:
                                                                    649 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    603 mL
   Urine:
                                                                    695 mL
                                                                    283 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    895 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 569 (509 - 569) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/53/96.[**Numeric Identifier 244**]/32/6
   Ve: 5.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: Intubated, appears comfortable, in NAD
   HEENT: NC/AT. MMM, ET tube in place. No scleral icterus or conjunctival
   pallor. Opens eyes when name is called.
   Neck: Supple.
   Cardiac: Irregularly irregular
   Lungs: Rales at bases, decreased BS at bases, bilateral breath sounds
   Abd: Soft, NT, ND, +BS
   Extr: Diffusely 4+ edematous upper extremities, small skin tear on
   right upper extremity with bandage in place. Left lower extremity
   without edema, wasting of muscle.
   Neuro: Awakes and tracks people in room when name is called. Moves all
   extremities on command.
   Labs / Radiology
   294 K/uL
   8.9 g/dL
   108 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.1 mEq/L
   19 mg/dL
   112 mEq/L
   145 mEq/L
   26.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2125-9-14**]  03:34 AM
                             [**2125-9-14**]  11:33 AM
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
                             [**2125-9-15**]  11:59 AM
                             [**2125-9-16**]  03:56 AM
                             [**2125-9-16**]  04:20 AM
                             [**2125-9-16**]  04:48 PM
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
   WBC
   10.5
   9.4
   12.5
   Hct
   27.0
   26.2
   26.2
   Plt
   [**Telephone/Fax (3) 5691**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   35
   36
   31
   32
   37
   35
   35
   Glucose
   83
   134
   108
   Other labs: PT / PTT / INR:15.0/89.5/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Culture: No new culture data
   [**9-11**] MRSA culture: No growth
   [**9-11**] and [**9-9**] Sputum culture: Contaminated (upper airway)
   [**9-10**] Stool culture: Negative for c. difficile toxin A & B
   [**9-9**] Catheter culture tip: No growth
   [**9-7**] Pleural fluid: NGTD
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure, now planning for tracheostomy and
   PEG tube.
   Hypercarbic Respiratory Failure/PNA:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure, which was felt to be secondary to
   pulmonary infection (which has now resolved), prior history of COPD,
   OSA, altered mental status, and likely aspiration of tube feeds (even
   with NGT in correct location).
   - Now stable on decreased PS to 10.
   - Will allow some degree of hypercarbia given COPD history, but mental
   status improved with CO2 in 50
s (versus 60
s-70
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Possibly still aspirating secretions. No tube feed residuals when
   checked
   - Thoracics teamto do trach/peg today, appreciate assistance. They will
   communicate with family both before and after procedure. Held ASA and
   plavix today (as well as heparin gtt).
   - Bilateral pigtail catheters continue to [**Last Name (LF) 1852**], [**First Name3 (LF) **] will need to remain
   in place for now, IP following. Discussed with IP team, who plans to
   pull left sided catheter today (given there has been no infection there
   and left lung fully expanded).
   - PS after tracheostomy.
   PVD/Necrotic foot: All plans for AKA and fem/fem bypass on are hold
   until patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **]
   willing to take patient to OR if cleared medically
   - Appreciate surgery recs
   - Neurontin for pain control
   - Heparin gtt, since may have procedure
   - Continuing to monitor for signs of ischemia
fingers not dusky at
   present, already on heparin, vascular following. Appearance of hands
   improves with SBP >90s after IVF boluses.
   CAD: s/p recent NSTEMI. Has prior BMS.
   -Will continue aspirin, plavix (though does not strictly need plavix as
   has BMS), holding this AM prior to OR.
   - Continue metoprolol 25 TID,  statin
   - If patient more stable and planning for vascular surgery, will first,
   per cardiology recommendations, complete persantine stress, and call
   cardiology again after stress test, and patient is high risk for high
   risk procedure.
   Atrial Fibrillation: Patient with atrial fibrillation, occasional
   episodes of tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved.
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn, but
   will monitor first as patient is very third spaced and at times urine
   output picks up on its own.
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Reglan for aspiration risk to increase
   - Patient will get Trach and peg early next week
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]:
   want aggressive management currently. want trach and peg. Prefer
   Meeting over the phone.
   ICU Care
   Nutrition:
   Tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments: Will family every day or every other day
   Code status: Full Code
   Disposition: ICU

2125-09-18 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          IP removed L pigtail
   -          Trach placed by Surgery, PEG deferred given nutritional
   status/skin breakdown, communicated to family
   -          Pt self d/c
d NGT, unsuccessful attempts to replace
   overnight
   -          Metoprolol 2.5mg IV x 2 for HR 120s
   -          Ethics consulted per pt relations rep request
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Metoprolol - [**2125-9-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-18**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 114 (94 - 123) bpm
   BP: 92/46(63) {88/44(60) - 123/66(92)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 21 (2 - 25)mmHg
   Total In:
                                                                  1,838 mL
                                                                    317 mL
   PO:
   TF:
                                                                    423 mL
                                                                    100 mL
   IVF:
                                                                  1,284 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    977 mL
                                                                    305 mL
   Urine:
                                                                    627 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    861 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 447 (309 - 466) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.45/47/108/32/7
   Ve: 11.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: Arouses to voice, follows commands, NAD
   HEENT: PERRL
   Neck: Trach in place, minimal oozing from site, otherwise c/d/i
   Lungs: Coarse BS bilaterally; R pigtail catheter in place
   Heart: s1s2 tachy irreg irreg
   Abd: soft, NT/ND
   Ext: Warm except for LLE; LLE is cool with muscle wasting;
   Neuro: Awakens to voice, follows commands, MAE
   Labs / Radiology
   334 K/uL
   8.9 g/dL
   116 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.8 mEq/L
   19 mg/dL
   109 mEq/L
   144 mEq/L
   26.3 %
   16.8 K/uL
        [image002.jpg]
                             [**2125-9-14**]  04:02 PM
                             [**2125-9-15**]  02:09 AM
                             [**2125-9-15**]  11:59 AM
                             [**2125-9-16**]  03:56 AM
                             [**2125-9-16**]  04:20 AM
                             [**2125-9-16**]  04:48 PM
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
                             [**2125-9-18**]  03:53 AM
                             [**2125-9-18**]  04:01 AM
   WBC
   10.5
   9.4
   12.5
   16.8
   Hct
   27.0
   26.2
   26.2
   26.3
   Plt
   [**Telephone/Fax (3) 5709**]34
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   32
   37
   35
   35
   34
   Glucose
   83
   134
   108
   116
   Other labs: PT / PTT / INR:15.1/77.3/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:85.4 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   MICRO: No new culture data
   [**9-11**] MRSA culture: No growth
   [**9-11**] and [**9-9**] Sputum culture: Contaminated (upper airway)
   [**9-10**] Stool culture: Negative for c. difficile toxin A & B
   [**9-9**] Catheter culture tip: No growth
   [**9-7**] Pleural fluid: NGTD
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure and aspiration, now s/p
   tracheostomy.
   Hypercarbic Respiratory Failure/PNA:  Patient intubated [**9-10**] for
   hypercarbic respiratory falilure, which was felt to be secondary to
   pulmonary infection (which has now resolved), prior history of COPD,
   OSA, altered mental status, and likely aspiration of tube feeds (even
   with NGT in correct location).
   - POD 1 from trach
   - Pressure support [**9-23**] and tolerating well, trach mask trial today
   - Will allow some degree of hypercarbia given COPD history, but mental
   status improved with CO2 in 50
s (versus 60
s-70
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Possibly still aspirating secretions. No tube feed residuals when
   checked. PEG deferred for now.
   - IP removed L pigtail, R still in place. IP following.
   PVD/Necrotic foot: All plans for AKA and fem/fem bypass on are hold
   until patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **]
   willing to take patient to OR if cleared medically
   - Appreciate surgery recs
   - Neurontin for pain control
   - Heparin gtt, since may have procedure
   - Continuing to monitor for signs of ischemia
fingers not dusky at
   present, already on heparin, vascular following. Appearance of hands
   improves with SBP >90s after IVF boluses.
   CAD: s/p recent NSTEMI. Has prior BMS.
   -Will continue aspirin, plavix (though does not strictly need plavix as
   has BMS), restarted after trach.
   - Continue metoprolol 25 TID,  statin
   - If patient more stable and planning for vascular surgery, will first,
   per cardiology recommendations, complete persantine stress, and call
   cardiology again after stress test (patient is high risk for high risk
   procedure).
   Atrial Fibrillation: Patient with atrial fibrillation, occasional
   episodes of tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved.
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn, but
   will monitor first as patient is very third spaced and at times urine
   output picks up on its own.
   Access: central line, a line.
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Reglan for aspiration risk to increase motility held now for loose
   stools
   - Consider PEG as soon as possible, but TF via NGT for now (replace NGT
   today)
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]:
   want aggressive management currently. want trach and peg. Prefer
   Meeting over the phone.
   ICU Care
   Nutrition:
   Tube feeds via NGT
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments: With family every day or every other day
   Code status: Full Code
   Disposition: ICU

2125-09-19 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-9-18**] 01:26 PM
 SPUTUM CULTURE - At [**2125-9-18**] 01:26 PM
 URINE CULTURE - At [**2125-9-18**] 01:26 PM
 BAL FLUID CULTURE - At [**2125-9-18**] 01:27 PM
   pleural fluid
   - Pleural fluid [**9-18**]: 2+ GNR (probable Acinetobacter, known previously,
   ? colonized catheter), unable to add on cell count or pH to sample
   (could do protein 1.2, glucose 42)
   - Restarted TF
   - Plan to d/c a-line today if cuff pressures correlate and no need for
   ABGs
   - Tolerated trach mask trial overnight: 7.42/50/78/34 --> gave pt a
   rest at 6 AM on [**4-23**]
   - Pulled out NGT partially, replaced, TF held
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Fentanyl - [**2125-9-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-19**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 116 (97 - 116) bpm
   BP: 121/64(88) {88/41(58) - 141/72(102)} mmHg
   RR: 17 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (3 - 18)mmHg
   Total In:
                                                                  1,077 mL
                                                                    540 mL
   PO:
   TF:
                                                                    360 mL
                                                                    308 mL
   IVF:
                                                                    597 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    260 mL
   Urine:
                                                                    770 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (367 - 526) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.42/50/77.[**Numeric Identifier 96**]/31/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   8.9 g/dL
   102 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   19 mg/dL
   108 mEq/L
   143 mEq/L
   25.8 %
   14.1 K/uL
        [image002.jpg]
                             [**2125-9-16**]  04:20 AM
                             [**2125-9-16**]  04:48 PM
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
                             [**2125-9-18**]  03:53 AM
                             [**2125-9-18**]  04:01 AM
                             [**2125-9-19**]  12:16 AM
                             [**2125-9-19**]  04:01 AM
                             [**2125-9-19**]  04:42 AM
                             [**2125-9-19**]  05:34 AM
   WBC
   12.5
   16.8
   14.1
   Hct
   26.2
   26.3
   25.8
   Plt
   294
   334
   346
   Cr
   0.5
   0.5
   0.5
   TCO2
   37
   35
   35
   34
   32
   33
   34
   Glucose
   108
   116
   102
   Other labs: PT / PTT / INR:15.2/91.9/1.3, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:79.8 %, Lymph:7.8 %,
   Mono:3.1 %, Eos:9.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Microbiology: [**9-18**]: Pleural: 2+   (1-5 per 1000X FIELD):   GRAM
   NEGATIVE ROD(S).
   [**9-18**]: cdiff negative
   [**9-18**]: sputum poor sample
   Assessment and Plan
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure and aspiration, now s/p
   tracheostomy.
   Hypercarbic Respiratory Failure/PNA: Patient intubated [**9-10**] for
   hypercarbic respiratory falilure, which was felt to be secondary to
   pulmonary infection (which has now resolved), prior history of COPD,
   OSA, altered mental status, and likely aspiration of tube feeds (even
   with NGT in correct location)
   - POD 1 from trach
   - tolerated trach mask trial overnight, and will continue on this for
   now
   - aline removed today, will monitor VBG, [**Doctor Last Name **] if needed.
   - Will allow some degree of hypercarbia given COPD history, but mental
   status improved with CO2 in 50
s (versus 60
s-70
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Possibly still aspirating secretions. PEG deferred for now.
   - IP removed L pigtail, R still in place. IP following.
   ID: acinetomacter from pleural fluid in the past and GNR in pleural
   fluid from [**9-18**]. Will recheck pleural studies on fluid to check for
   infection. Has been treated for several pneumonias.
   PVD/Necrotic foot: All plans for AKA and fem/fem bypass on are hold
   until patient is more stable. Per vascular surgery, Dr. [**Last Name (STitle) **]
   willing to take patient to OR if cleared medically
   - Appreciate surgery recs
   - Neurontin for pain control
   - Heparin gtt, since may have procedure
   - Continuing to monitor for signs of ischemia
fingers not dusky at
   present, already on heparin, vascular following. Appearance of hands
   improves with SBP >90s after IVF boluses.
   CAD: s/p recent NSTEMI. Has prior BMS.
   -Will continue aspirin, plavix (though does not strictly need plavix as
   has BMS), restarted after trach.
   - Continue metoprolol 25 TID,  statin
   - If patient more stable and planning for vascular surgery, previously
   cardiology recommended stress test. Will touch base with them again
   today to check if it will change management.
   Atrial Fibrillation: Patient with atrial fibrillation, occasional
   episodes of tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved.
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn, but
   will monitor first as patient is very third spaced and at times urine
   output picks up on its own.
   Access: should get get PICC line today. Dc aline today and when gets
   Picc, dc central line
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Reglan for aspiration risk to increase motility held now for loose
   stools
   - Consider PEG as soon as possible, but TF via NGT for now (replace NGT
   today)
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]:
   want aggressive management currently. want trach and peg. Prefer
   Meeting over the phone ONLY.
   Dispo: patient is nearing end of need for ICU. Will follow up with
   cardiology about recommendations and follow. If ready for surgery will
   call out to surgery service, if not will screen for rehab.
   -          reconsult cardiology
   talk to case management about rehab
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-19**] 01:42 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-9-6**] 11:34 AM
   Arterial Line - [**2125-9-6**] 11:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:

2125-09-20 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-9-19**] 12:25 PM
 PICC LINE - START [**2125-9-19**] 01:06 PM
 MULTI LUMEN - STOP [**2125-9-19**] 05:23 PM
   -          Cards rec: periop beta blocker & fluid status optimization
   -          PICC placed, CVL and a-line discontinued
   -          Blood cx [**9-18**]: 1 bottle GPC pairs & clusters
 started
   Daptomycin (allergy to Vanco)
   -          Pleural fluid [**9-19**]: 2+ GNR
 same as previous
   -          Pleural fluid [**9-19**]: pH>8, WBC 30 with 13 polys, RBC 5525,
   protein 1.1, glucose 69, LDH 156
   -          [**9-18**] Urine cx: Pseudomonas 10,000-100,000
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-20**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 106 (92 - 120) bpm
   BP: 101/42(57) {85/23(45) - 122/66(77)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 11 (5 - 14)mmHg
   Total In:
                                                                  1,317 mL
                                                                    809 mL
   PO:
   TF:
                                                                    460 mL
                                                                    372 mL
   IVF:
                                                                    477 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                    250 mL
   Urine:
                                                                    737 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen: Awake, alert, answering questions appropriately
   HEENT: PERRL
   Neck: Trach in place, no bleeding
   Lungs: Coarse BS bilaterally
   Heart: s1s2 irreg irreg
   Abd: soft, NT/ND
   Ext: stable, with cooler LLE compared with other extremities; minimal
   erythema surrounding dry ulcer on L knee, stable since yesterday
   Neuro: Wakens, follows commands
   Labs / Radiology
   337 K/uL
   8.4 g/dL
   105 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   19 mg/dL
   109 mEq/L
   142 mEq/L
   24.9 %
   19.9 K/uL
        [image002.jpg]
                             [**2125-9-16**]  04:48 PM
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
                             [**2125-9-18**]  03:53 AM
                             [**2125-9-18**]  04:01 AM
                             [**2125-9-19**]  12:16 AM
                             [**2125-9-19**]  04:01 AM
                             [**2125-9-19**]  04:42 AM
                             [**2125-9-19**]  05:34 AM
                             [**2125-9-20**]  04:18 AM
   WBC
   12.5
   16.8
   14.1
   19.9
   Hct
   26.2
   26.3
   25.8
   24.9
   Plt
   294
   334
   346
   337
   Cr
   0.5
   0.5
   0.5
   0.7
   TCO2
   35
   35
   34
   32
   33
   34
   Glucose
   108
   116
   102
   105
   Other labs: PT / PTT / INR:15.9/72.9/1.4, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:79.8 %, Lymph:7.8 %,
   Mono:3.1 %, Eos:9.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   CXR: None today
   MICRO:
   -          [**9-18**] Urine cx: Pseudomonas
   -          [**9-18**] Blood cx: GPC pairs/clusters
   -          [**9-18**] Pleural fluid: GNR
   -          [**9-19**] pleural fluid
: 2+ GNR, pH>8, WBC 30 with 13 polys,
   RBC 5525, protein 1.1, glucose 69, LDH 156
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure and aspiration, now s/p
   tracheostomy, awaiting possible revascularization procedure for the
   left lower extremity.
   Hypercarbic Respiratory Failure/PNA/Pleural effusions:  Patient
   intubated [**9-10**] for hypercarbic respiratory falilure, which was felt to
   be secondary to pulmonary infection (which has now resolved), prior
   history of COPD, OSA, altered mental status, and likely aspiration of
   tube feeds (even with NGT in correct location).
   - POD 3 from trach
   - Tolerating trach mask
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Possibly still aspirating secretions. No tube feed residuals when
   checked. PEG deferred for now.
   - IP removed L pigtail, R still in place. IP following.
   - R pleural fluid with GPC, pH >8; previously sent fluid showed GNR
   (acinetobacter).  Unclear if colonization vs active infection, but
   fluid analysis profile is somewhat reassuring.
   - Passy-Muir valve evaluation
   - Suction as needed for secretions
   Bacteremia:  Blood cx from [**9-18**] now showing GPC in one bottle; WBC has
   been trending upward to 19 today, although pt afebrile.
   - Started Dapto (allergy to Vanc, hx MRSA)
   - Await speciation, sensitivities
   PVD/Necrotic foot: All plans for AKA and fem/fem bypass had been on
   hold until patient more stable. Per vascular surgery, Dr. [**Last Name (STitle) **]
   willing to take patient to OR if cleared medically. Now that pt
   clinical status appears to be improving, will ask Vascular to
   re-evaluate candidacy for surgery
   - Neurontin for pain control
   - Heparin gtt, since may have procedure
   - Continuing to monitor for signs of ischemia
fingers not dusky at
   present, already on heparin, vascular following. Appearance of hands
   improves with SBP >90s after IVF boluses.
   CAD: s/p recent NSTEMI. Has prior BMS.
   -Will continue aspirin, plavix (though does not strictly need plavix as
   has BMS), restarted after trach.
   - Continue metoprolol 25 TID,  statin
   - Cards rec peri-operative beta blockade and optimization of fluid
   status prior to OR, no need for MIBI (patient is high risk for high
   risk procedure).
   Atrial Fibrillation: Patient with atrial fibrillation, occasional
   episodes of tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved.
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn, but
   will monitor first as patient is very third spaced and at times urine
   output picks up on its own.
   Hypothyroidism. Had been followed Endocrine, appreciate recs.
   - IV levothyroxine while on continuous feeds
   - Once on bolus feeds, can switch to 75 mcg PO daily
   - Check TFTs next week
   - Endocrine signing off, call with questions
   Pseudomonas. Pt with indwelling foley and pseudomonas in culture UA
   with 11-20 WBC, [**11-8**] RBCs, neg nitrite .
   - No abx tx for now
   - Change out foley
   - Resend UA and urine cx
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Consider PEG as soon as possible, but TF via NGT for now
   Access: PICC ([**2125-9-19**])
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]:
   want aggressive management currently. want trach and peg. Prefer
   Meeting over the phone.
   ICU Care
   Nutrition:  Tube feeds via NGT
   Glycemic Control:  Insulin sliding scale
   Lines:  PICC (inserted [**9-19**])
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  Chlorhexidine, HOB
   Comments:
   Communication:  Comments: With family every day or every other day
   Code status: Full Code
   Disposition: ICU

2125-09-20 10:46:00 Physician Attending Progress Note
Chief Complaint: aspiration PNA
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-9-19**] 12:25 PM
 PICC LINE - START [**2125-9-19**] 01:06 PM
 MULTI LUMEN - STOP [**2125-9-19**] 05:23 PM
   Started on daptomycin for GPCs on blood culture.
   Remains on TM.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   ASA
   Lansoprazole
   Plavix
   Clorhexidine
   Synthroid
   Lopressor
   Oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain
   Endocrine: History of thyroid disease
   Flowsheet Data as of  [**2125-9-20**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 116 (92 - 120) bpm
   BP: 116/51(68) {85/23(45) - 122/66(77)} mmHg
   RR: 17 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 11 (5 - 12)mmHg
   Total In:
                                                                  1,317 mL
                                                                  1,083 mL
   PO:
   TF:
                                                                    460 mL
                                                                    518 mL
   IVF:
                                                                    477 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                    330 mL
   Urine:
                                                                    737 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    753 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, LLE wrapped, Left knee erythema is stable
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   337 K/uL
   105 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   19 mg/dL
   109 mEq/L
   142 mEq/L
   24.9 %
   19.9 K/uL
        [image002.jpg]
                             [**2125-9-16**]  04:48 PM
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
                             [**2125-9-18**]  03:53 AM
                             [**2125-9-18**]  04:01 AM
                             [**2125-9-19**]  12:16 AM
                             [**2125-9-19**]  04:01 AM
                             [**2125-9-19**]  04:42 AM
                             [**2125-9-19**]  05:34 AM
                             [**2125-9-20**]  04:18 AM
   WBC
   12.5
   16.8
   14.1
   19.9
   Hct
   26.2
   26.3
   25.8
   24.9
   Plt
   294
   334
   346
   337
   Cr
   0.5
   0.5
   0.5
   0.7
   TCO2
   35
   35
   34
   32
   33
   34
   Glucose
   108
   116
   102
   105
   Other labs: PT / PTT / INR:15.9/72.9/1.4, CK / CKMB /
   Troponin-T:21/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:79.8 %, Lymph:7.8 %,
   Mono:3.1 %, Eos:9.2 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: Right pleural fluid: pH>8.0, glucose 69,
   LDH=156
   Microbiology: Blood 9/30:  [**12-20**] GPC pairs/clusters
   Urine [**9-18**]:  10-100K pseudomonas
   Pleural fluid [**9-19**]: 2+ GNR.
   Assessment and Plan
   1)  Respiratory:  Continues to do well on TM--will continue with
   aggressive pulmonary toilet.  PMV.
   2) Pleural effusion:  Right pigtail remains in place.  Pleural [**Last Name (un) 5751**]
   analysis not consistent with empyema or complicated exudative
   effusion.
   3) Leukocytosis:  He has 1/4 bottles from [**9-18**] positive for GPCs.  At
   this point, it is not clear if this is a contaminant or pathogen.
   Given his worsening leukocytosis, will cover for GPC bacteremia until
   speciation returns.  REcheck blood cultures and check diff on WBC given
   past eosinophilia.  Recheck UA and urine culture.
   4) CAD:  Plan for perioperative beta-blockade
   5) PAD:  Will d/w vascular surgery on their plans for surgery.  His
   respiratory status is stable and there is no plan for further cardiac
   risk stratification.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-9-20**] 12:00 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Plan for family meeting
   today.
   Code status: Full code
   Disposition :ICU
   Total time spent:

2125-09-21 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Uncomfortable, c/o itching on R side, settled down with
   zyprexa, denies pain/SOB
   -          Sedated and hypotensive yesterday after 10mg Oxycodone, dose
   decreased to 5mg, improved over time and with fluid bolus (500cc NS)
   -          Pulled out NGT overnight
   -          Foley changed, UA nd UCx resent
   -          Vascular re-evaluating for surgery
   -          Speech to fit for PM valve
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Metoprolol - [**2125-9-21**] 02:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-21**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 110 (89 - 121) bpm
   BP: 105/61(72) {76/39(49) - 143/90(94)} mmHg
   RR: 16 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,886 mL
                                                                     82 mL
   PO:
             TF:
                                                                  1,150 mL
   IVF:
                                                                    776 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                    883 mL
                                                                    360 mL
   Urine:
                                                                    833 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,003 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: Awake, alert, answering questions appropriately
   HEENT: PERRL
   Neck: Trach in place, no bleeding
   Lungs: Coarse BS bilaterally
   Heart: s1s2 irreg irreg
   Abd: soft, NT/ND
   Ext: stable, with cooler LLE compared with other extremities; minimal
   erythema surrounding dry ulcer on L knee, stable since yesterday
   Neuro: Wakens, follows commands
   Labs / Radiology
   332 K/uL
   8.5 g/dL
   88 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.7 mEq/L
   20 mg/dL
   108 mEq/L
   142 mEq/L
   25.5 %
   17.2 K/uL
        [image002.jpg]
                             [**2125-9-17**]  04:09 AM
                             [**2125-9-17**]  04:19 AM
                             [**2125-9-18**]  03:53 AM
                             [**2125-9-18**]  04:01 AM
                             [**2125-9-19**]  12:16 AM
                             [**2125-9-19**]  04:01 AM
                             [**2125-9-19**]  04:42 AM
                             [**2125-9-19**]  05:34 AM
                             [**2125-9-20**]  04:18 AM
                             [**2125-9-21**]  03:25 AM
   WBC
   12.5
   16.8
   14.1
   19.9
   17.2
   Hct
   26.2
   26.3
   25.8
   24.9
   25.5
   Plt
   294
   334
   346
   337
   332
   Cr
   0.5
   0.5
   0.5
   0.7
   0.7
   TCO2
   35
   34
   32
   33
   34
   Glucose
   108
   116
   102
   105
   88
   Other labs: PT / PTT / INR:15.9/76.7/1.4, CK / CKMB /
   Troponin-T:19/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:73.7 %, Lymph:9.9 %,
   Mono:3.5 %, Eos:12.8 %, Lactic Acid:0.6 mmol/L, LDH:218 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   MICRO:
   -          [**9-18**] Urine cx: Pseudomonas
   -          [**9-18**] Blood cx: GPC pairs/clusters (speciation pending)
   -          [**9-18**] Pleural fluid: GNR (speciation pending)
   -          [**9-19**] pleural fluid
: 2+ GNR, pH>8, WBC 30 with 13 polys,
   RBC 5525, protein 1.1, glucose 69, LDH 156
   -          [**9-20**] C diff: pending
   -          [**9-19**] RIJ tip cx: pending
   -          10/2 Blood cx: pending
   -          [**9-20**] Urine cx: pending
   Radiology:
   - CXR: similar to [**9-19**], bilateral pleural effusions, R pigtail in
   place, trach in place
   Assessment and Plan
   Pt is a 75 year old male with many medical problems, admitted initially
   [**8-4**] with surgical wound infection, with hospital course complicated by
   PNA, NSTEMI, who was transferred to MICU with shock, intubated [**2125-9-10**]
   for hypercarbic respiratory failure and aspiration, now s/p
   tracheostomy, awaiting possible revascularization procedure for the
   left lower extremity.
   Hypercarbic Respiratory Failure/PNA/Pleural effusions:  Patient
   intubated [**9-10**] for hypercarbic respiratory faillure, which was felt to
   be secondary to pulmonary infection (which has now resolved), prior
   history of COPD, OSA, altered mental status, and likely aspiration of
   tube feeds (even with NGT in correct location).
   - POD 4 from trach
   - Tolerating trach mask
   - s/p 14 day course meropenem for klebseilla PNA ([**Date range (1) 5586**])
   - Possibly still aspirating secretions. No tube feed residuals when
   checked. PEG deferred for now.
   - IP removed L pigtail, R still in place. IP following.
   - R pleural fluid with GPC, pH >8; previously sent fluid showed GNR
   (acinetobacter).  Unclear if colonization vs active infection, but
   fluid analysis profile is somewhat reassuring.
   - Passy-Muir valve evaluation
   - Suction as needed for secretions
   Bacteremia:  Blood cx from [**9-18**] now showing GPC in one bottle; WBC has
   been trending upward to 19 today, although pt afebrile.
   - Started Dapto (allergy to Vanc, hx MRSA)
   - Await speciation, sensitivities
   - New cx sent
   PVD/Necrotic foot: All plans for AKA and fem/fem bypass had been on
   hold until patient more stable. Per vascular surgery, Dr. [**Last Name (STitle) **]
   willing to take patient to OR if cleared medically. Now that pt
   clinical status appears to be improving, will ask Vascular to
   re-evaluate candidacy for surgery
   - Neurontin for pain control
   - Heparin gtt
 may transition to Coumadin
   - Continuing to monitor for signs of ischemia
fingers not dusky at
   present, already on heparin, vascular following. Appearance of hands
   improves with SBP >90s after IVF boluses.
   - Vascular re-evaluating for surgery: holding off for now
   CAD: s/p recent NSTEMI. Has prior BMS.
   -Will continue aspirin, plavix (though does not strictly need plavix as
   has BMS), restarted after trach.
   - Continue metoprolol 25 TID,  statin
   - Cards rec peri-operative beta blockade and optimization of fluid
   status prior to OR, no need for MIBI (patient is high risk for high
   risk procedure).
   Atrial Fibrillation: Patient with atrial fibrillation, occasional
   episodes of tachycardia.
   - Continue metoprolol to 25mg PO TID for rate control (home dose is
   50mg PO TID)
will titrate up as tolerated
   - Heparin gtt
   Diastolic CHF: Diastolic, preserved EF. Total body fluid overloaded,
   but hypotension now resolved.
   - follow I+O's
   - I/O goal even
   - UOP does trail off or poor perfusion, small fluid boluses prn, but
   will monitor first as patient is very third spaced and at times urine
   output picks up on its own.
   Hypothyroidism. Had been followed Endocrine, appreciate recs.
   - IV levothyroxine while on continuous feeds
   - Once on bolus feeds, can switch to 75 mcg PO daily
   - Check TFTs next week
   - Endocrine signing off, call with questions
   Pseudomonas. Pt with indwelling foley and pseudomonas in culture UA
   [**9-18**] with 11-20 WBC, [**11-8**] RBCs, neg nitrite .
   - No abx tx for now
   - Change out foley
   - Resent UA and urine cx: UA with 6-10 WBC, [**5-29**] RBCs, neg nitrite,
   culture pending
   Nutrition: very poor nutritional status.
   - NGT, tube feeds
   - Consider PEG as soon as possible, but TF via NGT for now
   Access: PICC ([**2125-9-19**])
   Code: full (confirmed on admit to ICU)
   Communication: Wife [**Name (NI) **] (HCP) [**Telephone/Fax (1) 5578**]
 family meeting [**9-14**]:
   want aggressive management currently. want trach and peg. Prefer
   Meeting over the phone.
   ICU Care
   Nutrition:  Tube feeds via NGT
   Glycemic Control:  Insulin sliding scale
   Lines:  PICC (inserted [**9-19**])
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  Chlorhexidine, HOB
   Comments:
   Communication:  Comments: With family every day or every other day
   Code status: Full Code
   Disposition: ICU

2125-10-01 14:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Fg fg
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-10-1**] 04:08 AM
   Ampicillin/Sulbactam (Unasyn) - [**2125-10-1**] 12:38 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-1**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-1**] 02:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 86 (81 - 110) bpm
   BP: 90/68(71) {90/40(54) - 115/95(99)} mmHg
   RR: 14 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,800 mL
                                                                  2,255 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    739 mL
   IVF:
                                                                  1,202 mL
                                                                    866 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                  1,141 mL
   Urine:
                                                                  2,415 mL
                                                                  1,141 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    385 mL
                                                                  1,114 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (346 - 650) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   SpO2: 100%
   ABG: ///35/
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   8.2 g/dL
   146 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.2 mEq/L
   16 mg/dL
   95 mEq/L
   133 mEq/L
   25.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2125-9-25**]  04:34 PM
                             [**2125-9-26**]  03:02 AM
                             [**2125-9-27**]  04:15 AM
                            [**2125-9-28**]  04:03 AM
                            [**2125-9-28**]  02:01 PM
                            [**2125-9-28**]  05:45 PM
                            [**2125-9-29**]  04:13 AM
                            [**2125-9-30**]  06:00 AM
                            [**2125-10-1**]  12:22 AM
                            [**2125-10-1**]  03:42 AM
   WBC
   11.0
   10.1
   9.5
   8.9
   11.1
   12.1
   13.8
   11.6
   Hct
   23.6
   22.3
   22.0
   19.4
   27
   25.4
   26.5
   27.4
   26.5
   25.0
   Plt
   291
   323
   311
   [**Telephone/Fax (3) 5962**]
   331
   293
   Cr
   0.6
   0.5
   0.5
   0.6
   0.4
   0.5
   Glucose
   55
   99
   98
   116
   94
   146
   Other labs: PT / PTT / INR:14.6/31.1/1.3, CK / CKMB /
   Troponin-T:19/4/0.12, ALT / AST:33/30, Alk Phos / T Bili:54/0.4,
   Amylase / Lipase:24/10, Differential-Neuts:60.0 %, Band:0.0 %,
   Lymph:14.0 %, Mono:3.0 %, Eos:23.0 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.8 mmol/L, LDH:145 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-1**] 09:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-10-06 07:52:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events: RISBI 45 on [**4-23**], started on ivermectan for +
   strongloides antibody.  Thick secretions.
 STOOL CULTURE - At [**2125-10-5**] 04:00 PM
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2125-10-5**] 08:00 AM
   Daptomycin - [**2125-10-5**] 07:59 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pravistatin
   Asa
   RISS
   Plavix
   Chlorhexadine
   Alb/atrovent
   Synthoid
   Lopressor
   Lasix
   Sc hep
   Neurontin
   mucomyst
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 101.2
   Tcurrent: 101.2
   HR: 83 (83 - 105) bpm
   BP: 95/90(92) {85/44(63) - 132/90(92)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,123 mL
                                                                    602 mL
   PO:
             TF:
                                                                  1,233 mL
                                                                    393 mL
   IVF:
                                                                    491 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    920 mL
   Urine:
                                                                  3,840 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,817 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (412 - 678) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 49
   SpO2: 96%
   ABG: ///38/
   Ve: 8.1 L/min
   Physical Examination
   Gen:Cachetic [**First Name9 (NamePattern2) 6065**] [**Last Name (un) 1696**]
   HEENT:PERRL, OP dry
   Heart:[**Last Name (un) **] [**Last Name (un) **] s1s2 no m/r/g
   Lungs: Coarse BS anterior
   Abd:Firm, non-tender, hyperactive BS
   Ext:upper extremity edema, left LE knee ulcer with surrounding erythema
   Labs / Radiology: Bil effusion trach in place.
   9.5 g/dL
   294 K/uL
   132 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.6 mEq/L
   16 mg/dL
   92 mEq/L
   132 mEq/L
   27.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2125-10-3**]  08:27 PM
                            [**2125-10-3**]  08:31 PM
                            [**2125-10-3**]  11:29 PM
                            [**2125-10-4**]  03:33 AM
                            [**2125-10-4**]  04:13 AM
                            [**2125-10-4**]  11:43 AM
                            [**2125-10-4**]  06:32 PM
                            [**2125-10-5**]  03:43 AM
                            [**2125-10-5**]  04:31 AM
                            [**2125-10-6**]  04:19 AM
   WBC
   10.2
   12.0
   10.4
   Hct
   19.9
   25.8
   27.7
   27.5
   Plt
   272
   300
   294
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   41
   37
   40
   39
   43
   Glucose
   96
   87
   95
   132
   Other labs: PT / PTT / INR:14.5/28.7/1.3, CK / CKMB /
   Troponin-T:19/4/0.12, ALT / AST:16/18, Alk Phos / T Bili:68/0.3,
   Amylase / Lipase:36/16, Differential-Neuts:55.0 %, Band:0.0 %,
   Lymph:16.4 %, Mono:7.2 %, Eos:21.2 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:149 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Micro Gram
rods sputum old.
   Assessment and Plan
   I saw and examined the patient, and was physically present with team
   for key portions of the services provided.  I agree with the residents
   note, including assessment and plan.  In addition I would add/emphasize
   the following:
   75M w/ multiple medical problems, admitted [**8-4**] with surgical wound
   infection, with hospital course complicated by PNA, NSTEMI, who was
   transferred to MICU with shock, intubated [**2125-9-10**] for hypercarbic
   respiratory failure and aspiration.   Subsequently tracheostomy placed
   and now with PNA and hypercarbic respiratory failure.
   Hypercapnic Respiratory Failure
   -[**First Name9 (NamePattern2) 6065**] [**Last Name (un) 1696**] today
   -cont BD
   Acinetobacter VAP - complete course of unasyn
   -back on PSV for apnea episodes.  Check abg.
   Cellulitis; Lt knee
   -Cont dapto
   -Follow margins for improvement
   Altered mental status:
   -Improving, presumed sec to pain meds
   - Wean off as tol.
   Eosinophilia: persistent
 strongyloides Ab positive.  Check sputum for O+P and cytology.
   -          ID curbside recommended treatment for 2 days.
   -          Review meds
   -      Will review CT scans for evidence of malignacy
   PVD
   -Cont antiplatelet agents.
   - Needs revascularization once medically stable.
   UE edema:
   - greater than LE but no facial swelling
   - no evidence of clots in bilateral Subclavian or  left upper
   extremity..
   CHF:
   - Continue lasix gtt  for diuresis
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-5**] 11:20 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Arterial Line - [**2125-10-3**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2125-10-07 08:18:00 Physician Attending Progress Note
History reviewed with housestaff and Dr [**Last Name (STitle) 4173**].
   24 Hour Events: sputum gram gram+ and 4+ gram negative.  Secretions
   improved.
 PAN CULTURE - At [**2125-10-6**] 10:24 AM
 FEVER - 101.2
F - [**2125-10-6**] 08:00 AM
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2125-10-5**] 08:00 AM
   Daptomycin - [**2125-10-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-7**] 12:28 AM
   Other medications:
   Pravistatin
   Lansoprizol
   RISS
   Plavix
   Chlorhex
   Alb/atrovent
   Synthroid
   Lopressor
   Lasix drip off
   Neurontin
   guafenasin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-7**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.7
   HR: 83 (83 - 112) bpm
   BP: 108/48(71) {74/44(61) - 126/106(100)} mmHg
   RR: 15 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,697 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,101 mL
                                                                    414 mL
   IVF:
                                                                    265 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                    960 mL
   Urine:
                                                                  2,995 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,298 mL
                                                                   -417 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (458 - 552) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: 7.47/49/77.[**Numeric Identifier 96**]/35/10
   Ve: 10.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Gen:Cachetic trach [**Last Name (un) 1696**] more appropriate today
   HEENT:PERRL, OP dry
   Heart:[**Last Name (un) **] [**Last Name (un) **] s1s2 no m/r/g
   Lungs: Clear anterior
   Abd:Firm, non-tender, hyperactive BS
   Ext:upper extremity edema, left LE knee ulcer with surrounding erythema
   Labs / Radiology
   9.8 g/dL
   316 K/uL
   106 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.1 mEq/L
   14 mg/dL
   94 mEq/L
   132 mEq/L
   28.1 %
   9.0 K/uL
        [image002.jpg]
                            [**2125-10-3**]  11:29 PM
                            [**2125-10-4**]  03:33 AM
                            [**2125-10-4**]  04:13 AM
                            [**2125-10-4**]  11:43 AM
                            [**2125-10-4**]  06:32 PM
                            [**2125-10-5**]  03:43 AM
                            [**2125-10-5**]  04:31 AM
                            [**2125-10-6**]  04:19 AM
                            [**2125-10-7**]  04:59 AM
                            [**2125-10-7**]  05:25 AM
   WBC
   10.2
   12.0
   10.4
   9.0
   Hct
   19.9
   25.8
   27.7
   27.5
   28.1
   Plt
   272
   300
   294
   316
   Cr
   0.5
   0.5
   0.6
   0.4
   TCO2
   37
   40
   39
   43
   37
   Glucose
   87
   95
   132
   106
   Other labs: PT / PTT / INR:14.0/28.8/1.2, CK / CKMB /
   Troponin-T:19/4/0.12, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:62.2 %, Band:0.0 %,
   Lymph:20.6 %, Mono:6.8 %, Eos:10.2 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:168 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   I saw and examined the patient with Dr [**Last Name (STitle) 2149**] and Dr [**Last Name (STitle) 4173**] and was
   physically present with team for key portions of the services
   provided.  I agree with the resident
s note, including assessment and
   plan.  In addition I would add/emphasize the following:
   75M w/ multiple medical problems, admitted [**8-4**] with surgical wound
   infection, with hospital course complicated by PNA, NSTEMI, who was
   transferred to MICU with shock, intubated [**2125-9-10**] for hypercarbic
   respiratory failure and aspiration.   Subsequently tracheostomy placed
   and now with PNA and hypercarbic respiratory failure.
   Hypercapnic Respiratory Failure
   -Cont trach [**Last Name (LF) 2060**], [**First Name3 (LF) **] tolerate trial of balloon down and Passy-Muir
   valve and speech consult
   Acinetobacter VAP - complete course of unasyn
   -back on PSV for apnea episodes.
   Cellulitis; Lt knee
   -Cont dapto for 10 day course
   -Follow margins for improvement
   Altered mental status:
   -Improving, presumed sec to pain meds
   - Wean off as tol.
   Eosinophilia: persistent
 strongyloides Ab positive.  Check sputum for O+P and cytology.
   -          ID curbside recommended treatment for 2 days.
   -          Review meds
   -          Will review CT scans for evidence of malignancy, cortisol
   levels checked
   -          F/u levels status post tx with ivermectan
   PVD
   -Cont antiplatelet agents.
   - Needs revascularization once medically stable.
   UE edema:
   - greater than LE but no facial swelling
   - no evidence of clots in bilateral Subclavian or  left upper
   extremity.
   CHF/CV:
   -          ASA/Plavix and statin.  Continue goal negative. Will stop if
   limited by hypotension.
   Dispo - will have rehab screening
   ICU Care
   Nutrition: Tube feeds
   Nutren Pulmonary (Full) - [**2125-10-7**] 12:43 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Arterial Line - [**2125-10-3**] 11:00 PM  D
c aline today
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent: 35 min

2125-10-09 10:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Recurrent pneumonia, hypercapnic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-10-8**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2125-10-8**] 08:00 AM
   Worsening ABGs
 TRANSTHORACIC ECHO - At [**2125-10-8**] 01:30 PM
   - Troponin leak
   - echo
   - S&S eval
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: [**2-20**] Mild
   Pain location: ischemic toes
   Flowsheet Data as of  [**2125-10-9**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 105 (87 - 107) bpm
   BP: 111/54(66) {101/43(58) - 132/73(82)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,590 mL
                                                                    687 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    498 mL
   IVF:
                                                                    170 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    570 mL
   Urine:
                                                                  1,375 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trache
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   377 K/uL
   99 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.3 mEq/L
   15 mg/dL
   97 mEq/L
   133 mEq/L
   27.6 %
   10.3 K/uL
        [image002.jpg]
                            [**2125-10-4**]  06:32 PM
                            [**2125-10-5**]  03:43 AM
                            [**2125-10-5**]  04:31 AM
                            [**2125-10-6**]  04:19 AM
                            [**2125-10-7**]  04:59 AM
                            [**2125-10-7**]  05:25 AM
                            [**2125-10-8**]  05:01 AM
                            [**2125-10-8**]  09:08 AM
                            [**2125-10-8**]  05:41 PM
                            [**2125-10-9**]  04:36 AM
   WBC
   12.0
   10.4
   9.0
   10.2
   10.3
   Hct
   25.8
   27.7
   27.5
   28.1
   29.7
   27.6
   Plt
   300
   294
   316
   377
   377
   Cr
   0.5
   0.6
   0.4
   0.4
   0.4
   0.4
   TropT
   0.14
   0.16
   TCO2
   43
   37
   Glucose
   95
   132
   106
   107
   105
   99
   Other labs: PT / PTT / INR:14.0/28.6/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:62.2 %, Band:0.0 %,
   Lymph:20.6 %, Mono:6.8 %, Eos:10.2 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:168 IU/L, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   I saw and examined the patient with Dr. [**Last Name (STitle) 6050**] and was physically
   present for key portions of the services provided.  I agree with his,
   including assessment and plan.  In addition I would add/emphasize the
   following:
   75M w/ multiple medical problems, admitted [**8-4**] with surgical wound
   infection, with hospital course complicated by PNA, NSTEMI, who was
   transferred to MICU with shock, intubated [**2125-9-10**] for hypercarbic
   respiratory failure and aspiration.   Subsequently tracheostomy, now
   with PNA and hypercarbic respiratory failure.
   Hypercapnic Respiratory Failure
   -Cont trach collar
   - Speech consult
   - PMV
   -Completed course of unasyn Acinetobacter VAP
   -Stenotrophomonas from sputum
 new.  ? colonizer since not sig
   evidence of clinical infection.
   New RBBB on EKG:
   - cardiac enzymes negative
   - repeat EKG
   Cellulitis; Lt knee
   -Cont dapto for 10 day course
   -Follow margins for improvement
   Altered mental status:
   -Very clear this morning-- alert, following commands.
   Eosinophilia: persistent:
   - strongyloides Ab positive.  Check sputum for O+P and cytology.
   - Tx ivermectan
   - Review meds
   - f/u CT scans for evidence of malignancy, cortisol levels checked
   PVD/Necrotic foot
   -Cont antiplatelet agents.
   - heparin d/c sec to wound bleeding
   - Needs revascularization once medically stable.
   UE edema:
   - greater than LE but no facial swelling
   - no evidence of clots in bilateral Subclavian or  left upper
   extremity.
   CHF/CV:
   - ASA/Plavix and statin.
   - lasix gtt off
   - fluid balance goal even
   CAD
   -recent NSTEMI.  Prior BMS.
   - cont asa/plavix/statin
   Afib
   -          lopressor
   -          off anticoag sec wound oozing
   Hypothyroidism
   Dispo - will have rehab screening
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-9**] 02:04 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2125-10-17 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting yesterday with goals of placing feeding tube this week
   and planning rehab at end of week/next week.
   Complains of some foot pain; notes pain medication has good effect. No
   other complaints.
   Heme/Onc Consult obtained, sending additional laboratory studies for
   w/u of eosinophilia.
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 56**] Medical
   [**Name2 (NI) 6229**]
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-15**] 08:00 PM
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-16**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-16**] 04:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain location: left foot
   Flowsheet Data as of  [**2125-10-17**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 100 (86 - 109) bpm
   BP: 112/57(69) {94/36(52) - 135/65(82)} mmHg
   RR: 21 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,001 mL
                                                                    188 mL
   PO:
             TF:
                                                                  1,340 mL
   IVF:
                                                                    481 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,252 mL
                                                                    620 mL
   Urine:
                                                                  1,252 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   738 K/uL
   8.6 g/dL
   83 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   25.5 %
   12.6 K/uL
        [image002.jpg]
                            [**2125-10-8**]  05:41 PM
                            [**2125-10-9**]  04:36 AM
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
   WBC
   10.3
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   Hct
   27.6
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   Plt
   377
   422
   421
   572
   [**Telephone/Fax (2) 6203**]89
   738
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   TropT
   0.16
   Glucose
   99
   98
   99
   109
   109
   114
   104
   104
   83
   Other labs: PT / PTT / INR:14.4/27.5/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:59.9 %, Band:0.0 %,
   Lymph:16.1 %, Mono:4.9 %, Eos:18.8 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:168 IU/L, Ca++:9.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
 CELLULITIS
   - Continuing cipro/dapto for 2 week course; will stop at 2 weeks and
   reassess/
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - standing low dose lasix daily
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
 ANEMIA, OTHER
   - Transfuse 1u pRBC today for oncotic/volume and buffer per-PEG
   insertion
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -          video swallow scheduled for tomorrow
   -          Plan for PEG tube insertion on Friday in IR with anesthesia
 LEUKOCYTOSIS/EOSINOPHILIA
   -          Appreciate heme/onc consultation.
   -          Ordering studies, including peripheral flow,
 P. ATRIAL FIBRILLATION (AFIB)
   - continue lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-10-17 08:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-15**] 08:00 PM
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-16**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-16**] 04:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-17**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 107 (86 - 109) bpm
   BP: 117/67(79) {94/36(52) - 135/67(82)} mmHg
   RR: 23 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,001 mL
                                                                    237 mL
   PO:
             TF:
                                                                  1,340 mL
   IVF:
                                                                    481 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,252 mL
                                                                    620 mL
   Urine:
                                                                  1,252 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   738 K/uL
   83 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   25.5 %
   12.6 K/uL
        [image002.jpg]
                            [**2125-10-8**]  05:41 PM
                            [**2125-10-9**]  04:36 AM
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
   WBC
   10.3
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   Hct
   27.6
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   Plt
   377
   422
   421
   572
   [**Telephone/Fax (2) 6203**]89
   738
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   TropT
   0.16
   Glucose
   99
   98
   99
   109
   109
   114
   104
   104
   83
   Other labs: PT / PTT / INR:14.4/27.5/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:59.9 %, Band:0.0 %,
   Lymph:16.1 %, Mono:4.9 %, Eos:18.8 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:168 IU/L, Ca++:9.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   1) Hypercarbic respiratory failure:
   Resolved, stable on TM.
   Continue COPD regimen and pulmonary toilet.
   2) Left knee cellulitis:
   Continue dapto and cipro for total 2 weeks.
   3) PAD:
   Pain control with fentanyl patch and prn oxycodone.
   ASA, plavix
   4) Eosinophilia:
   Awaiting hematology consult.
   Continue ivermectin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2125-10-18 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.NPO past midnight for video swallow
   2. Transfused 1u pRBC yesterday for Hct  25
   3. Flow cytometry pending
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-15**] 08:00 PM
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-18**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 110 (92 - 114) bpm
   BP: 110/58(72) {100/49(62) - 132/85(91)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,578 mL
                                                                    210 mL
   PO:
             TF:
                                                                    512 mL
   IVF:
                                                                    481 mL
                                                                    140 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,645 mL
                                                                    350 mL
   Urine:
                                                                  1,645 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -67 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   804 K/uL
   10.6 g/dL
   86 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   19 mg/dL
   99 mEq/L
   133 mEq/L
   31.9 %
   13.5 K/uL
        [image002.jpg]
                            [**2125-10-9**]  04:36 AM
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
   WBC
   10.3
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   Hct
   27.6
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   Plt
   377
   422
   421
   572
   [**Telephone/Fax (2) 6203**]89
   738
   804
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   99
   98
   99
   109
   109
   114
   104
   104
   83
   86
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:60.1 %, Band:0.0 %,
   Lymph:16.5 %, Mono:6.3 %, Eos:16.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:168 IU/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - Furtrer management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
 CELLULITIS
   - Patient completes a course of Dapto/Cipro on [**2125-10-18**]
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - standing low dose lasix daily
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
 ANEMIA, OTHER
   - Transfused 1u pRBC on [**2125-10-18**]
   - Will continue to follow
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -          video swallow scheduled for [**2125-10-18**]
   -          Plan for PEG tube insertion on [**2125-10-19**] in IR with
   anesthesia
 LEUKOCYTOSIS/EOSINOPHILIA
   -          Appreciate heme/onc consultation.
   -          Ordering studies, including peripheral flow,
 P. ATRIAL FIBRILLATION (AFIB)
   - continue lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-10-18 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 1UPRBC yesterday with appropriate response
   - Video swallow today
   - PEG [**10-19**]
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-15**] 08:00 PM
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-18**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 110 (92 - 114) bpm
   BP: 110/58(72) {100/49(62) - 132/85(91)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,578 mL
                                                                    210 mL
   PO:
             TF:
                                                                    512 mL
   IVF:
                                                                    481 mL
                                                                    140 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,645 mL
                                                                    350 mL
   Urine:
                                                                  1,645 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -67 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   NAD, oriented to self. RRR no MRG
   Lungs with decreased BS at the bases
   NABS, s, nt
   Left knee with min erythema
   Labs / Radiology
   10.6 g/dL
   804 K/uL
   86 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   19 mg/dL
   99 mEq/L
   133 mEq/L
   31.9 %
   13.5 K/uL
        [image002.jpg]
                            [**2125-10-9**]  04:36 AM
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
   WBC
   10.3
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   Hct
   27.6
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   Plt
   377
   422
   421
   572
   [**Telephone/Fax (2) 6203**]89
   738
   804
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   99
   98
   99
   109
   109
   114
   104
   104
   83
   86
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:60.1 %, Band:0.0 %,
   Lymph:16.5 %, Mono:6.3 %, Eos:16.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.9 g/dL, LDH:168 IU/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   75 y/o M w/severe PVD s/p R fem-[**Doctor Last Name 114**] [**5-27**], adm [**8-4**] to the surgical
   service for MRSA wound infection.  His course was initially complicated
   by a respiratory arrest (likely pneumonia), NSTEMI, ARF, necrotic left
   foot with very complicated MICU course most recent issues have been a
   left knee cellulitis which is largely resolved and awaiting PEG tube
   1) Hypercarbic respiratory failure:
   Resolved, stable on TM.
   Continue COPD regimen and pulmonary toilet.
   2) Left knee cellulitis:
   Continue dapto [**10-4**] (last day today) and cipro (last day today) to
   complete course.
   3) PAD:
   Pain control with fentanyl patch, neurotin prn oxycodone with good
   effect.
   ASA, plavix
   4) Eosinophilia:
   Labs sent for potential malignancy (flow cytometry and tryptase pending
   for malignancy and HES)
   S/p ivermectin tx for possible strongyloides (weakly pos Ab)
   5) SLP: video swallow today. PEG [**10-19**]
   6) Thrombocytosis: will repeat CXR in am [**10-19**]. concerns regarding
   smoldering infection persist. [**Month (only) 60**] need full CT after PEG tube if
   platelets continue to climb
   Other issues per resident note
   ICU Care
   Nutrition:
   Glycemic Control:  SSI (d/c
d today)
   Lines: PICC
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition :ICU for now, may be ready for rehab this weekend.
   Total time spent:  25 minutes

2125-10-19 07:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI: respiratory failure, sepsis
   24 Hour Events:
   >Failed video swallow eval
   > PEG today
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-19**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 109 (94 - 109) bpm
   BP: 129/65(80) {97/40(44) - 130/94(117)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    583 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                    483 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    340 mL
   Urine:
                                                                  1,125 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -542 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (No(t) PMI), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases bilateral, No(t) Wheezes : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x0, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   839 K/uL
   57 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   18 mg/dL
   103 mEq/L
   138 mEq/L
   30.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
   WBC
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   Hct
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   Plt
   422
   421
   572
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 6268**]
   839
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   Glucose
   98
   99
   109
   109
   114
   104
   104
   83
   86
   57
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:60.1 %, Band:0.0 %,
   Lymph:16.5 %, Mono:6.3 %, Eos:16.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   75 y/o M w/severe PVD s/p R fem-[**Doctor Last Name 114**] [**5-27**], adm [**8-4**] to the surgical
   service for MRSA wound infection.  His course was initially complicated
   by a respiratory arrest (likely pneumonia), NSTEMI, ARF, necrotic left
   foot with very complicated MICU course most recent issues have been a
   left knee cellulitis which is largely resolved and awaiting PEG tube
   [**10-19**]
    1) Hypercarbic respiratory failure:
   Resolved, stable on TM.
   Continue COPD regimen and pulmonary toilet.
    2) Left knee cellulitis: s/p treatmeant with dapto and cipro for 2
   week course
   3) PAD:
   Pain control with fentanyl patch, neurotin prn oxycodone with good
   effect.
   ASA, plavix
   4) Eosinophilia:
   Labs sent for potential malignancy (flow cytometry and tryptase pending
   for malignancy and HES). Heme thinks most likely reactive.
   S/p ivermectin tx for possible strongyloides (weakly pos Ab)
   5) SLP: failed video swallow [**10-18**]. PEG [**10-19**]
   6) Thrombocytosis: will repeat CXR in am [**10-19**]. concerns regarding
   smoldering infection persist.  If new infiltrate or worsening
   atelectasis, may need chest CT to best define pleural reaction
   Other issues per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition : ICU, If he is able to tolerate tube feeds over weekend,
   anticipate D/C to LTAC [**10-22**]
   Total time spent:  25 minutes

2125-10-19 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Video Speech and Swallow: failed
   2.       NPO for PEG
   3.       Heme recs: Eos likely reactive and not neoplastic given
   recurrence of urinary Eos
   Allergies:
   Vancomycin
   Exfoliative Dermatitis
   Linezolid
   Thrombocytopenia
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-10-16**] 08:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-19**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 109 (94 - 109) bpm
   BP: 129/65(80) {97/40(44) - 130/94(117)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    583 mL
                                                                    153 mL
   PO:
             TF:
   IVF:
                                                                    483 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    340 mL
   Urine:
                                                                  1,125 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -542 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   839 K/uL
   10.4 g/dL
   57 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   18 mg/dL
   103 mEq/L
   138 mEq/L
   30.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2125-10-10**]  03:57 AM
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
   WBC
   10.3
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   Hct
   27.4
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   Plt
   422
   421
   572
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 6268**]
   839
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   Glucose
   98
   99
   109
   109
   114
   104
   104
   83
   86
   57
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:60.1 %, Band:0.0 %,
   Lymph:16.5 %, Mono:6.3 %, Eos:16.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -          failed video swallow on [**2125-10-18**]
   -          Plan for PEG tube insertion on [**2125-10-19**] in IR with
   anesthesia
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - Furtrer management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
 CELLULITIS
   - Patient completed a course of Dapto/Cipro on [**2125-10-18**]
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - standing low dose lasix daily
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
 ANEMIA, OTHER
   - Transfused 1u pRBC on [**2125-10-18**]
   - Will continue to follow
 LEUKOCYTOSIS/EOSINOPHILIA
   -          Appreciate heme/onc consultation., likely reactive eos and
   likely not malignancy
   -          Ordering studies, including peripheral flow,
 P. ATRIAL FIBRILLATION (AFIB)
   - continue lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   - Will get CXR on patient given increase WBC and thrombocytosis.
   - Will touch base with heme regarding this
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2125-10-19**] 11:34 ------

2125-10-20 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.tube feeds restarted.
   2.PEG tube deferred until monday, plavix and aspirin dc'd on [**10-16**]
   3.self dc'd his trach tube, oxygenated well, replaced with help of
   respiratory
   4. copious thick, yellow secretions overnight, requiring frequent
   suctioning
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 96 (95 - 114) bpm
   BP: 114/55(69) {89/46(57) - 128/94(97)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
                  Total In:
                                                                    797 mL
                  PO:
                  TF:
   IVF:
                                                                    657 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    230 mL
   Urine:
                                                                    785 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     12 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   771 K/uL
   10.2 g/dL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   105 mEq/L
   140 mEq/L
   31.2 %
   11.0 K/uL
        [image002.jpg]
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
   WBC
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   Hct
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   Plt
   421
   572
   602
   622
   667
   689
   738
   804
   839
   771
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   Glucose
   99
   109
   109
   114
   104
   104
   83
   86
   57
   119
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:55.0 %, Band:0.0 %,
   Lymph:18.2 %, Mono:5.1 %, Eos:21.2 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.7
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -  failed video swallow on [**2125-10-18**]
   -  NPO, aspiration precautions
   -  now with increased secretions off [**Last Name (LF) **], [**First Name3 (LF) 178**] send sputum for culture
   today
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
 CELLULITIS
   - Patient completed a course of Dapto/Cipro on [**2125-10-18**]
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic on exam
   - Lasix PRN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
 ANEMIA, OTHER
   - Transfused 1u pRBC on [**2125-10-18**]
   - Will continue to follow
 LEUKOCYTOSIS/EOSINOPHILIA
   -  Known h/o strongyloides s/p treatment with Ivermectin
   -  Appreciate heme/onc consultation., likely reactive eos and likely
   not malignancy
 P. ATRIAL FIBRILLATION (AFIB)
   - continue Lopressor
 Hypothyroidism:  Continue Levothyroxine.
 Thrush:  Clotrimazole troches QID.
 Nutrition:  Continue Nutren pulm tube feeds.  Plan for PEG Monday.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-19**] 03:17 PM
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM,  needs TPA flush today
   Prophylaxis:
   DVT:  SC heparin TID
   Stress ulcer:   Lansoprazole
   VAP:  Chlorhexidine mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status:   Full code.
   Disposition:   ICU, then plan for rehab placement following PEG tube
   placement.

2125-10-20 10:18:00 Physician Attending Progress Note
TITLE: ICU Progress Note
   Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note below, including assessment and plan.
   HPI:
   75 y.o. M w/ ETOH abuse, severe PVD s/p BPG, COPD on home O2,
   originally admitted for wound infection, c/b respiratory failure,
   sepsis, now s/p tracheostomy.
   24 Hour Events:
   Self-d/c'd trache overnight, replaced.
   FS 57 @ 4am, not on standing insulin
   History obtained from Medical records, HO
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   [**10-18**]
   Infusions:
   None
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Weight loss, chronic
   Pain: [**2-20**] Mild
   Pain location: legs
   Flowsheet Data as of  [**2125-10-20**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 99 (95 - 114) bpm
   BP: 120/65(79) {89/46(57) - 128/94(97)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
                  Total In:
                                                                    797 mL
                                                                    180 mL
   PO:
                  TF:
   IVF:
                                                                    657 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    310 mL
   Urine:
                                                                    785 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     12 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Thin, cachectic, chronically ill
   appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   771 K/uL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   105 mEq/L
   140 mEq/L
   31.2 %
   11.0 K/uL
         [image002.jpg]
                            [**2125-10-11**]  03:36 AM
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
   WBC
   9.6
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   Hct
   26.2
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   Plt
   421
   572
   602
   622
   667
   689
   738
   804
   839
   771
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   Glucose
   99
   109
   109
   114
   104
   104
   83
   86
   57
   119
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:55.0 %, Band:0.0 %,
   Lymph:18.2 %, Mono:5.1 %, Eos:21.2 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.7
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR - [**10-19**]-trache replaced in good position, B/L small to
   moderate pleural effusions, no changes from yesterday AM
   Micro: none new
   Assessment and Plan
   75 y/o M w/severe PVD s/p R fem-[**Doctor Last Name 114**] [**5-27**], adm [**8-4**] to the surgical
   service for MRSA wound infection.  His course was initially complicated
   by a respiratory arrest (likely pneumonia), NSTEMI, ARF, necrotic left
   foot with very complicated MICU course most recent issues have been a
   left knee cellulitis which is largely resolved and awaiting PEG tube
   [**10-22**]
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - completed course of dapto/cipro for cellulitis
   - no current OR interventions planned at this time
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - prn lasix, none today
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - adequate control on current regimen
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - s/p replacement of trache
   - increased frequency of suctioning noted today - send sputum culture,
   hold off on abx and follow clinically for now. Low threshold to start
   if secretions worsen over next 6 hrs
 ATRIAL FIBRILLATION (AFIB)
   - lopressor for rate control
   - holding ASA
   # FEN - TF resumed
   - await PEG, tenatively scheduled for [**10-22**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-19**] 03:17 PM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 15 minutes

2125-10-21 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sputum culture sent.  Gram stain with 3+ GNR's
   - C/o some mild pain from left foot, helped with oxycodone
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-20**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2125-10-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 111 (87 - 111) bpm
   BP: 109/50(64) {92/42(59) - 133/70(79)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
                  Total In:
                                                                    360 mL
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    635 mL
                                                                    355 mL
   Urine:
                                                                    635 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent,
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   749 K/uL
   10.4 g/dL
   114 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.8 mEq/L
   22 mg/dL
   104 mEq/L
   142 mEq/L
   31.9 %
   12.2 K/uL
        [image002.jpg]
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
   WBC
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   Hct
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   Plt
   572
   602
   622
   667
   [**Telephone/Fax (3) 6300**]
   749
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   109
   109
   114
   104
   104
   83
   86
   57
   119
   114
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Tryptase PENDING
   Peripheral Blood Flow Cytometry PENDING
   Microbiology: [**2125-10-20**]  SPUTUM  Preliminary
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -  failed video swallow on [**2125-10-18**]
   -  NPO, aspiration precautions
   -  now with increased secretions off abx, sputum cx PENDING, off
   antibiotics
   - PEG planned for tomorrow,  NPO p MN (hold tube feeds)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
 CELLULITIS
   - Patient completed a course of Dapto/Cipro on [**2125-10-18**]
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic on exam
   - Lasix PRN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
 ANEMIA, OTHER
   - Transfused 1u pRBC on [**2125-10-18**]
   - Will continue to follow
 LEUKOCYTOSIS/EOSINOPHILIA
   -  Known h/o strongyloides s/p treatment with Ivermectin
   -  Appreciate heme/onc consultation., likely reactive eos and likely
   not malignancy
   - f/u peripheral flow cytometry
 P. ATRIAL FIBRILLATION (AFIB)
   - continue Lopressor
 Hypothyroidism:  Continue Levothyroxine.
 Thrush:  Clotrimazole troches QID.
 Nutrition:  Continue Nutren pulm tube feeds.  Plan for PEG Monday.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-19**] 03:17 PM
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-10-21 10:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure, FTT
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.
   24 Hour Events:
   Increased secretions - sputum culture sent
   Remained Afebrile
   History obtained from Medical records, HO
   Patient unable to provide history: Encephalopathy
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-21**] 08:07 AM
   Lansoprazole (Prevacid) - [**2125-10-21**] 08:08 AM
   Other medications:
   Neurontin, Flovent, Levoxyl, lopressor, atrovent, troches, zydis,
   oxycodone
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2125-10-21**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 116 (87 - 116) bpm
   BP: 121/55(70) {92/42(59) - 133/70(79)} mmHg
   RR: 25 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
                  Total In:
                                                                    360 mL
                                                                    180 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    635 mL
                                                                    400 mL
   Urine:
                                                                    635 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, thrush
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: left)
   Abdominal: Soft, Bowel sounds present
   Extremities: stable ulcers and gangrene
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, Tone: Not
   assessed, stable contractures.  AXO times 1.
   Labs / Radiology
   10.4 g/dL
   749 K/uL
   114 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.8 mEq/L
   22 mg/dL
   104 mEq/L
   142 mEq/L
   31.9 %
   12.2 K/uL
        [image002.jpg]
                            [**2125-10-12**]  04:31 AM
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
   WBC
   13.7
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   Hct
   28.7
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   Plt
   572
   602
   622
   667
   [**Telephone/Fax (3) 6300**]
   749
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   109
   109
   114
   104
   104
   83
   86
   57
   119
   114
   Other labs: PT / PTT / INR:15.6/29.2/1.4, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Microbiology: Sputum Cx ([**10-20**]) - Gram stain GNR, >25 polys, <10 epi\
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy - still with copious
   secretions, no increase in oxygen requirement, WBC roughly stable
   - continue pulmonary toilet
   - follow fever curve, WBC
   - continue to defer abx for now
 FEN - scheduled for G-tube tomorrow
   - NPO p MN for OR
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - PRN lasix (none today), appears dry
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn
 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-19**] 03:17 PM
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-22 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NPO past midnight for PEG placement by IR today
   - low urine output yesterday, so given 250 cc bolus
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-21**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-22**] 12:00 AM
   Other medications:
   Clotrimazole troche
   Oxycodone elixir prn
   Hydrocortisone cream prn
   Fentanyl patch 25 mcg q72 hours
   Neurontin 200 mg q8 hours
   Fluticasone propionate 110 [**Hospital1 **]
   Levothyroxine 100 mcg daily
   Sarna prn
   HSQ
   Metoprolol 12.5 [**Hospital1 **]
   Nasal spray
   Atrovent PRN
   Albuterol q4 hour PRN
   Lactulose prn
   Senna prn
   Colace PRN
   Chlorhexidine [**Hospital1 **]
   Olanzapine 5 mp qhs prn
   Lansoprazole 30 mg daily
   Pravastatin 80 mg daily
   Miconazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-22**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.5
C (95.9
   HR: 97 (89 - 116) bpm
   BP: 101/61(71) {94/45(57) - 121/73(82)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  2,051 mL
                                                                     30 mL
   PO:
                  TF:
                                                                  1,441 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    210 mL
   Urine:
                                                                    770 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,281 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   648 K/uL
   10.1 g/dL
   92 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.5 mEq/L
   22 mg/dL
   105 mEq/L
   140 mEq/L
   30.1 %
   11.0 K/uL
        [image002.jpg]
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
   WBC
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   Hct
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   Plt
   [**Telephone/Fax (2) 6321**]
   839
   771
   749
   648
   Cr
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   Glucose
   109
   114
   104
   104
   83
   86
   57
   119
   114
   92
   Other labs: PT / PTT / INR:13.7/27.3/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   [**2125-10-20**].  Sputum Culture
 3+ GNRs, moderate growth
   .
   Imaging
 none.
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   secondary to VAP now trached on TCM, now awaiting PEG placement.
   1.       Nutrition.  Patient failed S&S.  Patient is awaiting PEG
   placement by IR today.
   - npo
   - IR guided PEG placement today
   2.       Respiratory.  Now s/p trach, with ongoing suctioning.  GNRs in
   sputum likely represent colonization given that secretions are
   unchanged, patient Afebrile, with normal wbc.
   - follow respiratory status and consider covering if it worsens
   3.  PVD.  Awiating revascularization after discharge.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   4.   Cellulitis.
   - Patient completed a course of Dapto/Cipro on [**2125-10-18**]
   5.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic to dry on exam
   - d51/2NS while NPO
   - Lasix PRN
   6.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   ANEMIA, OTHER
   - Transfused 1u pRBC on [**2125-10-18**]
   - Will continue to follow
   8.   LEUKOCYTOSIS/EOSINOPHILIA
   -  Known h/o strongyloides s/p treatment with Ivermectin
   -  Appreciate heme/onc consultation., likely reactive eos and likely
   not malignancy
   - f/u peripheral flow cytometry
   - f/u tryptase
   9.   P. ATRIAL FIBRILLATION (AFIB)
   - continue Lopressor
   10.  Hypothyroidism:  Continue Levothyroxine.
   11.  Thrush:  Clotrimazole troches QID.
   12.  Nutrition:  NPO until PEG placement, can resume tube feeds after
   PEG.  Plan for PEG today.
   ICU Care
   Nutrition:  NPO while awaiting PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition:  ICU care for now

2125-10-22 07:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   PEG today
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-21**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-22**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.5
C (95.9
   HR: 97 (89 - 116) bpm
   BP: 101/61(71) {94/45(57) - 121/73(82)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  2,051 mL
                                                                     30 mL
   PO:
                  TF:
                                                                  1,441 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    210 mL
   Urine:
                                                                    770 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,281 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Diminished: bases R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   648 K/uL
   92 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.5 mEq/L
   22 mg/dL
   105 mEq/L
   140 mEq/L
   30.1 %
   11.0 K/uL
        [image002.jpg]
                            [**2125-10-13**]  02:22 AM
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
   WBC
   11.3
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   Hct
   27.2
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   Plt
   [**Telephone/Fax (2) 6321**]
   839
   771
   749
   648
   Cr
   0.5
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   Glucose
   109
   114
   104
   104
   83
   86
   57
   119
   114
   92
   Other labs: PT / PTT / INR:13.7/27.3/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Sputum [**10-20**]: 3+ GNR
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.

 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy
   - still with copious secretions, no increase in oxygen requirement,
   - continue pulmonary toilet
   - follow fever curve, WBC (which conts to improve). Now with GNR in
   sputum with hx of stenotrophomonas and klebsiella. Given clinical
   improvement will continue to defer abx for now
 FEN - scheduled for G-tube [**10-22**]
   - NPO
   - D5 1/2NS mainten for now while awaiting G tube.
 HEART FAILURE (CHF),  DIASTOLIC, ACUTE ON CHRONIC
   - PRN lasix (none today), given euvolemia.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn
 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
   > Eosinophilia: follow continuing workup (awaiting tryptase and flow).
   Notably the thrombocytosis has slowly improved (along with decrease in
   WBC, may be a reflection of the resolving infection)
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-23 07:51:00 Physician Resident Progress Note
Chief Complaint: PVD, repiratory failure, s/p trach, eosinphilia
   24 Hour Events:
   - PEG put off due to IR scheduling (NPO again this AM).
   - Sputum culture with K. pneumoniae ([**Last Name (un) **] to amikacin, zosyn); GNR #2
   with identification still pending.
   History obtained from Patient
   Allergies:
   Vancomycin
   Exfoliative Dermatitis
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Clotrimazole
   Oxycodone prn
   Hydrocortisone cream PRN
   Fentanyl patch
   Neurontin 200 q 8 hours
   Fluticasone propionate 110 mcg [**Hospital1 **]
   Robitussin
   Levothyroxine 100 mcg daily
   Sarna lotion prn
   HSQ
   Metoprolol tartrate 12.5 [**Hospital1 **]
   Atrovent 1 puff q 6 hours
   Albuterol q 4hours
   Lactulose prn
   Senna
   Colace
   Chlorhxidine
   Zyprexa prn
   Lansoprazole daily
   Pravastatin 80 mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 99 (92 - 109) bpm
   BP: 111/59(70) {93/37(58) - 130/94(100)} mmHg
   RR: 16 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,631 mL
                                                                    825 mL
   PO:
             TF:
                                                                    300 mL
                                                                    180 mL
   IVF:
                                                                  1,121 mL
                                                                    585 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    134 mL
   Urine:
                                                                    780 mL
                                                                    134 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Gen: chronically ill appearing elderly male
   HEENT: temporal wasting, EOMI
   CV: RRR, no m/r/g
   Pulm: poor inspiratory effort
   Abd: soft, NT, ND, bowel sounds present
   Ext: LLE in bandage - gangrene
   Labs / Radiology
   660 K/uL
   9.9 g/dL
   110 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   19 mg/dL
   104 mEq/L
   139 mEq/L
   30.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
   WBC
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   Hct
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   Plt
   622
   667
   689
   738
   [**Telephone/Fax (2) 6338**]49
   648
   660
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   Glucose
   114
   104
   104
   83
   86
   57
   119
   114
   92
   110
   Other labs: PT / PTT / INR:14.2/27.9/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Micro:
   [**10-20**]- Sputum
 Klebsiella pneumonia sensistive to zosyn and amikacin
   Imaging:
   none
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   secondary to VAP now trached on TCM, now awaiting PEG placement.
   1.       Nutrition.  Patient failed S&S.  Patient is awaiting PEG
   placement by IR today.  Unable to get PEG yesterday due to scheduling
   conflict.
   - npo
   - IR guided PEG placement today
   2.       Respiratory.  Now s/p trach, with ongoing suctioning.
   Klebsiella in sputum likely represent colonization given that
   secretions are unchanged, patient Afebrile, with normal wbc.
   - follow respiratory status and consider covering with zosyn if it
   worsens
   3.  PVD.  Awiating revascularization after discharge.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   5.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic to dry on exam
   - d51/2NS while NPO
   - Lasix PRN
   6.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   8.   P. ATRIAL FIBRILLATION (AFIB).  Currently well rate controlled.
   - continue Lopressor
   9.  Hypothyroidism:  Continue Levothyroxine.
   10.  Thrush:  Clotrimazole troches QID.
   11.  Nutrition:  NPO until PEG placement, can resume tube feeds after
   PEG.  Plan for PEG today.
   ICU Care
   Nutrition:
   Comments: NPO until PEG placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-10-23 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Cellulitis, Sepsis, Respiratory Failure
   24 Hour Events: awaiting PEF tube placement
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 99 (92 - 109) bpm
   BP: 111/59(70) {93/37(58) - 130/94(100)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,631 mL
                                                                    859 mL
   PO:
             TF:
                                                                    300 mL
                                                                    180 mL
   IVF:
                                                                  1,121 mL
                                                                    619 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    134 mL
   Urine:
                                                                    780 mL
                                                                    134 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   (Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   660 K/uL
   110 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   19 mg/dL
   104 mEq/L
   139 mEq/L
   30.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2125-10-14**]  03:12 AM
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
   WBC
   11.5
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   Hct
   25.9
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   Plt
   622
   667
   689
   738
   [**Telephone/Fax (2) 6338**]49
   648
   660
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   Glucose
   114
   104
   104
   83
   86
   57
   119
   114
   92
   110
   Other labs: PT / PTT / INR:14.2/27.9/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.5 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.4 %, Eos:24.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.

 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy
   - still with copious secretions, no increase in oxygen requirement,
   - continue pulmonary toilet
   - follow fever curve, WBC (which conts to improve. Klebsiella in sputum
   ([**10-20**]) which we are deferring treatment for (likely to be a colonizer)

 FEN - scheduled for G-tube [**10-22**]
   - NPO
   - D5 1/2NS mainten for now while awaiting G tube.
 HEART FAILURE (CHF),  DIASTOLIC, ACUTE ON CHRONIC
   - PRN lasix (none today), given euvolemia.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn
 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
   > Eosinophilia: follow continuing workup (tryptase neg and flow).
   Notably the thrombocytosis has slowly improved (along with decrease in
   WBC, may be a reflection of the resolving infection)
   Other issues per resident note.
   ICU Care
   Nutrition:
   Comments: D5 while awaiting PEG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  will update family after PEG placement
   Code status: FULL
   Disposition :MICU until PEG
   Total time spent: 35

2125-10-24 07:12:00 Physician Resident Progress Note
Chief Complaint: PVD, respiratory failure s/p trach, s/p PEG placement
   for malnutrition
   24 Hour Events:
   - got PEG placed
   - due to sedation at IR, was on vent overnight; weaned to pressure
   support
   - given 250 cc bolus x 2  for low urine output
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-24**] 12:17 AM
   Other medications:
   Clotrimazole
   Oxycodone prn
   Hydrocortisone prn
   Fentanyl patch
   Neurontin
   Fluticasone [**Hospital1 **]
   Robitussin
   Levothyroxine
   Saran
   HSQ
   Metoprolol
   Atrovent
   Albuterol
   Lactulose, senna, colace prn
   chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 95 (81 - 95) bpm
   BP: 121/61(76) {96/52(65) - 127/75(89)} mmHg
   RR: 18 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,245 mL
                                                                  1,154 mL
   PO:
             TF:
                                                                    180 mL
   IVF:
                                                                  1,855 mL
                                                                  1,094 mL
   Blood products:
   Total out:
                                                                    894 mL
                                                                    145 mL
   Urine:
                                                                    894 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,351 mL
                                                                  1,009 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 455 (323 - 455) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI: 21
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, + trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), LLE gangrenous toe
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   438 K/uL
   11.0 g/dL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   33.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
   WBC
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   Hct
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   Plt
   667
   689
   738
   [**Telephone/Fax (3) **]
   749
   648
   660
   438
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   Glucose
   104
   104
   83
   86
   57
   119
   114
   92
   110
   96
   Other labs: PT / PTT / INR:14.2/27.9/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.0 %, Band:0.0 %,
   Lymph:23.2 %, Mono:5.8 %, Eos:19.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Sputum [**10-20**].  ESBL klebsiella sensitive only to zosyn and amikacin and
   unspeciated second GNR.
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   secondary to VAP now trached, s/p PEG placement yesterday.
   1.       Nutrition.  Patient failed S&S.  Got PEG placement by IR
   today.
   - d51/2NS
   - can initiate tube feeds in PM
   2.       Respiratory.  Now s/p trach, with ongoing suctioning.
   Klebsiella in sputum likely represent colonization given that
   secretions are unchanged, patient Afebrile, with normal wbc.  Also has
   a second GNR in sputum, awaiting speciation. Was on vent overnight due
   to sedation for procedure, now on pressure support.
   - follow respiratory status and consider covering with zosyn if it
   worsens
   - transition to TCM when more awake
   3. Low urine output.  Currently euvolemic.  Will avoid fluid or lasix
   at present.
   4.  PVD.  Awaiting revascularization after discharge.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   5.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic to dry on exam
   - d51/2NS while NPO
   - fluid bolus PRN for low urine output
   6.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   8.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - continue Lopressor
   9.  Hypothyroidism:  Continue Levothyroxine.
   10.  Thrush:  Clotrimazole troches QID.
   11.  Nutrition:  NPO until for now due to recent PEG placement .  Can
   resume tube feeds in PM.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU, likely d/c to rehab in AM

2125-10-24 08:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: respiratory failure, sepsis
   24 Hour Events:
   > Got G-J tube placed, needed ventilatory assist overnight from
   sedation
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-24**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 95 (81 - 95) bpm
   BP: 121/61(76) {96/52(65) - 127/75(89)} mmHg
   RR: 18 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,245 mL
                                                                  1,304 mL
   PO:
             TF:
                                                                    180 mL
   IVF:
                                                                  1,855 mL
                                                                  1,244 mL
   Blood products:
   Total out:
                                                                    894 mL
                                                                    145 mL
   Urine:
                                                                    894 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,351 mL
                                                                  1,159 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 520 (323 - 520) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 13 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath
   Sounds: Crackles : bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube C/D/I
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   438 K/uL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   33.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2125-10-15**]  04:12 AM
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
   WBC
   11.5
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   Hct
   25.7
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   Plt
   667
   689
   738
   [**Telephone/Fax (3) **]
   749
   648
   660
   438
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   Glucose
   104
   104
   83
   86
   57
   119
   114
   92
   110
   96
   Other labs: PT / PTT / INR:14.2/27.9/1.2, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.0 %, Band:0.0 %,
   Lymph:23.2 %, Mono:5.8 %, Eos:19.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.

 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy: weaning vent requirements
   post sedation from IR guided PEG placement., goal back to trach mask
   (his previous setting)
   - still with copious secretions, no increase in oxygen requirement,
   - continue pulmonary toilet
   - follow fever curve, WBC (which conts to improve. Klebsiella in sputum
   ([**10-20**]) which we are deferring treatment for (likely to be a colonizer)
 FEN - PEG in place
   -retstart previous tube feed regimen when IR ok
s use.
   - D5 1/2NS mainten until tube feeds start

 HEART FAILURE (CHF),  DIASTOLIC, ACUTE ON CHRONIC
   - PRN lasix (none today), given euvolemia.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn
 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor

 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
   > Eosinophilia: follow continuing workup (tryptase neg and flow).
   Notably the thrombocytosis has slowly improved (along with decrease in
   WBC, may be a reflection of the resolving infection)
    Other issues per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds via PEG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  Family will be updated regarding transfer
   and medical issues
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility within the
   next day.
   Total time spent: 40 minutes

2125-10-25 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: respiratory failure, sepsis
   24 Hour Events:
 FEVER - 101.6
F - [**2125-10-24**] 08:00 PM
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-25**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.2
   HR: 112 (81 - 115) bpm
   BP: 117/59(72) {93/33(49) - 128/90(90)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,300 mL
                                                                  1,414 mL
   PO:
             TF:
                                                                    795 mL
                                                                    451 mL
   IVF:
                                                                  3,200 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                    260 mL
   Urine:
                                                                    580 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,720 mL
                                                                  1,154 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: ///30/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, G-J C/D/I
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   544 K/uL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   135 mEq/L
   29.9 %
   15.3 K/uL
        [image002.jpg]
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
   WBC
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   15.3
   Hct
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   29.9
   Plt
   [**Telephone/Fax (3) **]39
   771
   749
   648
   660
   438
   544
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   Glucose
   104
   83
   86
   57
   119
   114
   92
   110
   96
   114
   Other labs: PT / PTT / INR:14.9/31.6/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.0 %, Band:0.0 %,
   Lymph:23.2 %, Mono:5.8 %, Eos:19.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Blood and urine clx [**10-24**]: NGTD
   CXR [**10-25**]: New RUL infiltrate and worsening LLL infiltrate and effusion
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy: weaning vent requirements
   post sedation from IR guided PEG placement., Back on trach mask now.
   - still with copious secretions, no increase in oxygen requirement,
   - continue pulmonary toilet, will perform bronchoscopy if secretions
   are copious
   > Leukocytosis and Fevers: Now with fevers, increasing WBC, worsening
   CXR with RUL infiltrate, will need to treat the Klebsiella spp. [**10-25**] =
   Day 1 Meropenem, this is a ESBL Klebsiella that is Pip-[**First Name9 (NamePattern2) **] [**Last Name (un) **]. He
   also has a hx of stenotrophomonas which did not grow our on last sputum
   clx. Also with a dirty UA, awating urine clx, the foley was changed.
   The PICC line on the left was not infected in appearance
   - Start meropenem
   - Follow up urine clx
   - check c. dif (no increase stool out put)
   - may need to consider a thoracentesis pr pigtail catheter placement (
   h/o empyema) if he continues to spike (repeat CXR tomorrow)
 HEART FAILURE (CHF),  DIASTOLIC, ACUTE ON CHRONIC
   - Will aim for goal of even. Lasix prn

 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn
 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor

 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
       Eosinophilia: follow continuing workup (tryptase neg and flow).
   Notably the thrombocytosis has slowly improved (along with decrease in
   WBC, may be a reflection of the resolving infection)
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-25**] 03:24 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  Famiy to be updated regarding overnight
   events and plans for holding transfer at this time
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-25 07:43:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 FEVER - 101.6
F - [**2125-10-24**] 08:00 PM
   Accepted at [**Hospital 630**] Rehab - communicated with family
   Restarted asa, plavix as per previous medication regimen - holding on
   coumadin (for afib)
   Temp spike  - pan cultured, no abx started - CXR ?R middle field
   infiltrate, UA+ - foley changed
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-25**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.2
   HR: 112 (81 - 115) bpm
   BP: 117/59(72) {93/33(49) - 128/90(90)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,300 mL
                                                                  1,412 mL
   PO:
             TF:
                                                                    795 mL
                                                                    449 mL
   IVF:
                                                                  3,200 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                    260 mL
   Urine:
                                                                    580 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,720 mL
                                                                  1,152 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: ///30/
   Ve: 7.2 L/min
   Physical Examination
   General: Chronically ill appearing male, on trach mask, NAD.  Opens
   eyes to voice and interactive.
   HEENT: MMM, NC/AT
   Chest: Diminished, no appreciable crackles.
   Heart: Occasionally irregular, no m/r/g appreciated.
   Abdomen: thin, soft, NT/ND
   Extrem: contractured (chronic) , no edema
   Labs / Radiology
   544 K/uL
   9.8 g/dL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   135 mEq/L
   29.9 %
   15.3 K/uL
        [image002.jpg]
                            [**2125-10-16**]  02:31 AM
                            [**2125-10-17**]  03:50 AM
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
   WBC
   12.0
   12.6
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   15.3
   Hct
   25.1
   25.5
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   29.9
   Plt
   [**Telephone/Fax (3) **]39
   771
   749
   648
   660
   438
   544
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   Glucose
   104
   83
   86
   57
   119
   114
   92
   110
   96
   114
   Other labs: PT / PTT / INR:14.9/31.6/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/19, Alk Phos / T Bili:68/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:51.0 %, Band:0.0 %,
   Lymph:23.2 %, Mono:5.8 %, Eos:19.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: U/A: 82 WBCs, 19 RBCs
   Microbiology: sputum [**10-20**]: ESBL Klebs + addl GNR
   sputum [**10-24**]: contaminated
   urine: [**10-24**], [**10-25**]: pending
   blood: NGTD
   CXR: new RUL and ?LLL infiltrates, L effusion larger.
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   secondary to VAP now trached, s/p PEG placement yesterday.
   1.       Fever/leukocytosis.  Now with new temp spike to 101.6 and new
   leukocytosis.  Positive UA and infiltrates on CXR.
   -          start meropenem given known ESBL Klebs in sputum; consider
   Bactrim for stenotrophomonas but more likely colonizer.
   -          f/u urine culture, [**Last Name (un) 430**] should cover orgs.  Foley changed.
   -          send C.diff and resend sputum.
   -          Consider tap of effusion - ?parapneumonic.
   2.       Nutrition.  Patient failed S&S.  Got PEG placement by IR two
   days ago.
                         - on tube feeds at goal
   3.       Respiratory.  Now s/p trach, with ongoing suctioning.
   Klebsiella in sputum likely represented colonization given that
   secretions are unchanged, patient was Afebrile, with normal wbc.  Also
   has a second GNR in sputum, awaiting speciation (had stenotrophomonas
   in past).  Back on
                         - cover cultures now that febrile as above.
   4. Low urine output.  Currently appears euvolemic.  Stop IVFs (now that
   at goal on TFs); lasix if not even today.
   5.  PVD.  Awaiting revascularization after discharge.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   6.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - appears euvolemic on exam
   - stop IVFs
   - consider lasix as above.
   7.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   8.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - continue Lopressor
   - not anticoagulating currently.
   9.  Hypothyroidism:  Continue Levothyroxine.
   10.  Thrush:  Clotrimazole troches QID.
   11.  PVD/CAD.  ASA and plavix restarted yesterday.
   12.  Pleural effusion.  Larger on left.  [**Month (only) 60**] be due to fluid overload,
   but consider tap tomorrow as above.  Recheck CXR in AM.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-25**] 03:24 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Was planning on transfer to rehab today ; now will stay
   given new fever.

2125-10-26 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2125-10-25**] 02:02 PM
 EKG - At [**2125-10-25**] 03:24 PM
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-10-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-26**] 12:06 AM
   Furosemide (Lasix) - [**2125-10-26**] 12:06 AM
   Morphine Sulfate - [**2125-10-26**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 93 (87 - 107) bpm
   BP: 107/48(62) {87/40(52) - 129/91(109)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 69 Inch
             Total In:
                                                                  3,492 mL
                                                                    851 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    451 mL
   IVF:
                                                                  1,720 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                  1,260 mL
   Urine:
                                                                  1,125 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,367 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (393 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : 1/3 up on left,
   Bronchial: right upper)
   Abdominal: Soft, Non-tender, Bowel sounds present, J tube C/D/I
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.7 g/dL
   281 K/uL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.0 mEq/L
   17 mg/dL
   97 mEq/L
   133 mEq/L
   44.4 %
   7.6 K/uL
        [image002.jpg]
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
   WBC
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   15.3
   7.6
   Hct
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   29.9
   44.4
   Plt
   [**Telephone/Fax (3) 6338**]49
   648
   660
   [**Telephone/Fax (3) 6399**]
   Cr
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   Glucose
   86
   57
   119
   114
   92
   110
   96
   114
   105
   98
   Other labs: PT / PTT / INR:14.5/32.4/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/16, Alk Phos / T Bili:66/0.1,
   Amylase / Lipase:36/16, Differential-Neuts:73.9 %, Band:0.0 %,
   Lymph:11.8 %, Mono:5.1 %, Eos:9.0 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:123 IU/L, Ca++:8.5
   mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   CXR: RUL edema/infiltrate. Left sided effusion (unchanged), limited
   visualization of the right side.
   GNR: urine ([**10-24**])
   BAL [**10-25**]: 2+ PMN no org
   Assessment and Plan
   75 yo M COPD on home O2, ETOH abuse,  CAD, PVD s/p BPG originally
   admitted for wound infection, subsequent long hospital course with
   respiratory failure, recurrent sepsis, now status post tracheostomy on
   TM.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH) - s/p tracheostomy: weaning vent requirements
   post sedation from IR guided PEG placement., Back on trach mask now.
   - still with copious secretions, no increase in oxygen requirement,
   - continue pulmonary toilet, will perform bronchoscopy if secretions
   are copious
    > Leukocytosis and Fevers: Now with fevers, increasing WBC, worsening
   CXR with RUL infiltrate, will need to treat the Klebsiella spp. [**10-25**] =
   Day 1 Meropenem, this is a ESBL Klebsiella that is Pip-[**First Name9 (NamePattern2) **] [**Last Name (un) **]. He
   also has a hx of stenotrophomonas which did not grow our on last sputum
   clx. Also with GNR in the urine. The PICC line on the left was not
   infected in appearance
   - Meropenem ([**10-25**]) day 1 for 14 day course for GNR urine, Klebsiella
   and Bactrim for acinetobacter
   - will cont to follow effusion (based on improving CXR, WBC and
   diuresis)

 HEART FAILURE (CHF),  DIASTOLIC, ACUTE ON CHRONIC
   - Will aim for goal of even. Lasix prn
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - on fentanyl patch and oxycodone prn

 ATRIAL FIBRILLATION (AFIB)
   - rate controlled on lopressor

 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   - continue wound care, f/u vascular surgery as outpt
    Other issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-25**] 08:02 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-26 08:02:00 Physician Resident Progress Note
Chief Complaint:
   PVD, respiratory failure, Vent- associated PNA
   24 Hour Events:
   - started meropenem for ESBL in sputum
   - started bactrim for acinetobacter in sputum
   - placed on [**4-23**] due to desats to mid 80s.
   - Bronch and BAL done.
   - Urine culture positive for GNRs
   - Intermittent RBBB (has had on prior ECGs).
   - lasix 40 IV for being net positive; put on 800 cc, gave another 40 IV
   at midnight.
   Allergies:
   Vancomycin
 Exfoliative Derm
   Linezolid
 Thrombocytopenia
   Last dose of Antibiotics:
   Meropenem - [**2125-10-26**] 02:00 AM
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-26**] 12:06 AM
   Furosemide (Lasix) - [**2125-10-26**] 12:06 AM
   Morphine Sulfate - [**2125-10-26**] 01:30 AM
   Other medications:
   Bactrim DS 2 tab TID
   Meropenem 500 IV q 6 hours
   Tylenol prn
   Plavix 75 mg daily
   Clotrimazole troche qid
   Oxycodone prn
   Hydrocortisone cream prn
   Fentanyl patch
   Neurontin
   Fluticasone [**Hospital1 **]
   Guaifenesin
   Levothyroxine 100 mcg daily
   Saran lotion
   HSQ
   Metoprolol 12.5 [**Hospital1 **]
   Atrovent
   Albuterol
   Lactulose prn
   Senna
   Colace
   Chlorhexidine rinse
   Zyprexa
   Lansoprazole
   Pravastatin
   Miconazole powder
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 93 (87 - 107) bpm
   BP: 107/48(62) {87/40(52) - 129/91(109)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 69 Inch
             Total In:
                                                                  3,492 mL
                                                                    872 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    469 mL
   IVF:
                                                                  1,720 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                  1,260 mL
   Urine:
                                                                  1,125 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,367 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (393 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   14.7 g/dL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.0 mEq/L
   17 mg/dL
   97 mEq/L
   133 mEq/L
   44.4 %
   7.6 K/uL
        [image002.jpg]
                            [**2125-10-18**]  04:39 AM
                            [**2125-10-19**]  04:38 AM
                             [**2125-10-20**]  03:49 AM
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
   WBC
   13.5
   13.8
   11.0
   12.2
   11.0
   9.9
   7.3
   15.3
   7.6
   Hct
   31.9
   30.8
   31.2
   31.9
   30.1
   30.3
   33.3
   29.9
   44.4
   Plt
   [**Telephone/Fax (3) 6338**]49
   648
   660
   [**Telephone/Fax (3) 6399**]
   Cr
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   Glucose
   86
   57
   119
   114
   92
   110
   96
   114
   105
   98
   Other labs: PT / PTT / INR:14.5/32.4/1.3, CK / CKMB /
   Troponin-T:18/3/0.16, ALT / AST:13/16, Alk Phos / T Bili:66/0.1,
   Amylase / Lipase:36/16, Differential-Neuts:73.9 %, Band:0.0 %,
   Lymph:11.8 %, Mono:5.1 %, Eos:9.0 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:123 IU/L, Ca++:8.5
   mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Urine culture
 100,000 GNRs
   BAL 2+ PMNs, no microorganisms
   Sputum [**2125-10-20**].  ESBL Klebsiella, acinetobacter
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   s/p Trach and PEG, now with vent associated ESBL Klebsiella and
   Acineotbacter pneumonia, on Meropenem and Bactrim, day 2 of 14.
   1.       Pneumonia.  Patient febrile yesterday with leukocytosis and
   new RUL infiltrate on CXR.  Sputum showed ESBL Klebsiella and
   acinetobacter.  Now on day 2 of 14 of Meropenem and Bactrim.   Briefly
   required vent support, but will wean to trach collar mask today.
   -          continue [**Last Name (un) 430**]/bactrim for 14 days unless acinetobacter is
   sensistive to meropenem
   -          consider thoracentesis if febrile or rising wbc given
   history of empyema
   -          f/u acinetobacter sensitivites
   -          wean to TCM today
   2.       Pleural effusion.  Patient has history of empyema
   bilaterally.  Now with pleural effusion, though patient has been
   positive for several days in a row.  Will attempt aggressive diuresis
   and look for improvement of effusion. If no improvement, consider
   thoracentesis to evaluate for emyema.
   -          diuresis with goal of negative 1-2 L
   -          daily CXR
   3.        Nutrition.  Patient failed S&S.  Got PEG placement by IR.
                         - on tube feeds at goal
   5.  PVD.  Awaiting revascularization after discharge.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - continue ASA and plavix
   6.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC.  Now volume up
   several days in a row with new pleural effusion.
   - stop IVFs
   - lasix with goal of net negative 1-2 L
   7.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   8.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - continue Lopressor
   - not anticoagulating currently.
   9.  Hypothyroidism:  Continue Levothyroxine.
   10.  Thrush:  Clotrimazole troches QID.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-25**] 08:02 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-10-27 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Acinetobacter in sputum found to be resistant to meropenem
   Weaned to TCM
   Given lasix 40, 40, 80 IV --> became hypotensive to 60s sytolic,
   started on levophed drip, given fluid boluses
   Started on dapto for gram positive coverage given necrotic toes an skin
   breakdowns with concern for sepsis.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-26**] 10:17 PM
   Meropenem - [**2125-10-27**] 01:40 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2125-10-26**] 05:45 PM
   Furosemide (Lasix) - [**2125-10-26**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-27**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 100 (79 - 119) bpm
   BP: 117/58(72) {67/30(41) - 122/71(77)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  5,707 mL
                                                                    797 mL
   PO:
             TF:
                                                                  1,264 mL
                                                                    437 mL
   IVF:
                                                                  3,738 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    400 mL
   Urine:
                                                                  3,170 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,537 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 481 (481 - 481) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Tone: Not assessed
   LLE dry gangrene of 4 digits
   L Knee with eschar, well healed
   Labs / Radiology
   558 K/uL
   9.6 g/dL
   131 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   18 mg/dL
   97 mEq/L
   131 mEq/L
   29.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2125-10-21**]  04:03 AM
                             [**2125-10-22**]  04:50 AM
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
                             [**2125-10-26**]  08:28 AM
                             [**2125-10-26**]  05:25 PM
                             [**2125-10-27**]  03:37 AM
   WBC
   12.2
   11.0
   9.9
   7.3
   15.3
   7.6
   11.0
   11.0
   Hct
   31.9
   30.1
   30.3
   33.3
   29.9
   44.4
   28.9
   29.4
   Plt
   749
   648
   660
   [**Telephone/Fax (3) 6399**]
   492
   558
   Cr
   0.6
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   0.7
   0.7
   Glucose
   114
   92
   110
   96
   114
   105
   98
   109
   106
   131
   Other labs: PT / PTT / INR:14.4/32.2/1.3, CK / CKMB /
   Troponin-T:15/3/0.16, ALT / AST:[**10-5**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:9.2 %, Mono:3.8 %, Eos:7.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Micro:
   Urine culture
 ESBL klebsiella
   Sputum culture
 ESBL klebsiella, acinetobacter
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   s/p Trach and PEG, now with vent associated ESBL Klebsiella and
   Acineotbacter pneumonia, on Meropenem ([**10-25**]) and Bactrim ([**10-25**]), day 3
   of 14.
   1.       Hypotension.  Patient developed hypotension in setting of
   fevers and rigors, concering for sepsis.  However, patient was also
   being diuresed so may have been intravascularly dry.  Ongoing pressor
   requirement in spite of being 2.5L positive is suggestive of sepsis.
   Patient started on daptomycin overnight for gram positive coverage
   (?line, skin).
   -          continue [**Last Name (un) 430**], bactrim, dapto
   -          levophed to keep MAPs>60
   -          fluid boluses PRN
   -          f/u culture data, fever curve, wbc
   -          thoracentesis today given h/o empyema and ongoing fevers and
   sepsis
   -          hold antihypertensives
   2.       Pneumonia.  Patient febrile with leukocytosis and new RUL
   infiltrate on CXR.  Sputum showed ESBL Klebsiella and acinetobacter.
   Now on day 3 of 14 of Meropenem and Bactrim.  Stable O2 requirements on
   TCM.
   -          continue [**Last Name (un) 430**]/bactrim for 14 days
   -          consider thoracentesis if febrile or rising wbc given
   history of empyema
   -          f/u acinetobacter sensitivites
   -          wean to TCM today
   3.       Pleural effusion.  Patient has history of empyema
   bilaterally.  Now with pleural effusion, though patient has been
   positive for several days in a row.  Attempt at diuresis yesterday
   limited by hypotension.
   -          Thoracentesis today to r/o empyema given persistent fevers
   4.        Nutrition.  Patient failed S&S.  Got PEG placement by IR.
                         - on tube feeds at goal
   5.  PVD.  Awaiting revascularization after discharge.  Stable LLE dry
   gangrene.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - continue ASA and plavix
   6.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC.  Now volume up
   several days in a row with new pleural effusion.  Unable to diurese due
   to hypotension requiring pressors.
   - fluid as needed to maintain blood pressure
   7.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   7.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   8.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - hold Lopressor
   - not anticoagulating currently.
   9.  Hypothyroidism:  Continue Levothyroxine.
   10.  Thrush:  Clotrimazole troches QID.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-26**] 12:32 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   20 Gauge - [**2125-10-26**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-10-28 07:46:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-10-27**] 03:17 PM
 BLOOD CULTURED - At [**2125-10-27**] 05:25 PM
 FEVER - 102.5
F - [**2125-10-27**] 05:00 PM
   CT chest showed bil pleural effusions, official read pending
   Thoracentesis postponed to either [**10-28**] or [**10-29**]
   On levophed for most of day and evening - boluses x2 in attempt to
   wean; now off.
   Off vent currently.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-26**] 10:17 PM
   Meropenem - [**2125-10-27**] 02:18 PM
   Bactrim (SMX/TMP) - [**2125-10-27**] 04:19 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-27**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-27**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.6
C (97.9
   HR: 81 (81 - 106) bpm
   BP: 99/50(62) {80/38(48) - 117/76(108)} mmHg
   RR: 16 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,697 mL
                                                                  1,636 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    464 mL
   IVF:
                                                                  1,696 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    420 mL
   Urine:
                                                                  1,810 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,887 mL
                                                                  1,216 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (367 - 536) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.8 L/min
   Physical Examination
   General: alert and interactive.  No distress.  Trached on mask.
   Chest clear with bilat diminished breath sounds.  Heart regular, S1 S2.
   Abdomen: soft, thin, NT/ND.
   Extrem: bilat LE and UE [**12-20**]+ pitting edema.  L PICC site benign.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   545 K/uL
   8.9 g/dL
   110 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.6 mEq/L
   21 mg/dL
   98 mEq/L
   129 mEq/L
   27.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2125-10-23**]  04:43 AM
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
                             [**2125-10-26**]  08:28 AM
                             [**2125-10-26**]  05:25 PM
                             [**2125-10-27**]  03:37 AM
                             [**2125-10-27**]  04:24 PM
                             [**2125-10-28**]  04:00 AM
   WBC
   9.9
   7.3
   15.3
   7.6
   11.0
   11.0
   12.5
   Hct
   30.3
   33.3
   29.9
   44.4
   28.9
   29.4
   27.6
   Plt
   [**Telephone/Fax (3) 6433**]
   545
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   Glucose
   110
   96
   114
   105
   98
   109
   106
   131
   165
   110
   Other labs: PT / PTT / INR:14.7/33.6/1.3, CK / CKMB /
   Troponin-T:15/3/0.16, ALT / AST:[**10-5**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:9.2 %, Mono:3.8 %, Eos:7.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   s/p Trach and PEG, now with vent associated ESBL Klebsiella and
   Acineotbacter pneumonia, on Meropenem ([**10-25**]) and Bactrim ([**10-25**]), day 4
   of 14.
   1.       Hypotension.  Patient developed hypotension in setting of
   fevers and rigors, concerning for sepsis.  However, patient was also
   being diuresed so may have been intravascularly dry.  Had ongoing
   pressor requirement, now off levophed.  On daptomycin, meropenem, and
   bactrim (acinetobacter).
   -          continue [**Last Name (un) 430**], bactrim, dapto
   -          levophed to keep MAPs>60
   -          fluid boluses PRN
   -          f/u culture data, fever curve, wbc
   -          thoracentesis vs. pigtail placement; today vs tomorrow given
   h/o empyema and ongoing fevers and sepsis.  Effusion increasing (also
   has been positive).
   -          hold antihypertensives, no lasix yet.
   2.       Pneumonia/fever.  Patient febrile with leukocytosis and new
   RUL infiltrate on CXR.  Sputum showed ESBL Klebsiella and
   acinetobacter.  Now on day 4 of 14 of Meropenem and Bactrim.  Off and
   on vent as of late.
   -          continue [**Last Name (un) 430**]/bactrim for 14 day; dapto also added.
   -          Thoracentesis as above.
   3.       Pleural effusion.  Patient has history of empyema
   bilaterally.  Now with pleural effusion, though patient continues to be
   in positive fluid balance.  .
   -          Thoracentesis or pigtail as above.
   -          Hold on lasix/diuresis for now.
   4.        Nutrition.  Patient failed S&S.  Got PEG placement by IR.
                         - on tube feeds at goal
   5.  PVD.  Awaiting revascularization after discharge.  Stable LLE dry
   gangrene.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - continue ASA and plavix
   6. Hyponatremia.  Currently hypervolemic; ?due to hypervolemia vs.
   SIADH.
                  - check urine lytes
                  - PM lytes
                  - can decrease free water flushes if continues.
   7.  UTI.  Multiple ESBL Klebsiella species.  Sensitive to meropenem
   (last Klebs MIC panel pending).
   8.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC.  Now volume up
   several days in a row with new pleural effusion.  Unable to diurese due
   to hypotension requiring pressors.
   - fluid as needed to maintain blood pressure
   9.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   10.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   11.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - hold Lopressor
   - not anticoagulating currently.
   12.  Hypothyroidism:  Continue Levothyroxine.
   13.  Thrush:  Clotrimazole troches QID.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-27**] 11:14 PM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-10-29 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off levophed; trial off vent, but intermiitent desats.
   - 3.2 liters positive; no diuresis attempted.
   - Persistetnly hyponatremic.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-28**] 10:00 PM
   Bactrim (SMX/TMP) - [**2125-10-28**] 11:46 PM
   Meropenem - [**2125-10-29**] 02:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-28**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-29**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 99 (90 - 112) bpm
   BP: 112/74(80) {66/43(56) - 158/124(133)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,812 mL
                                                                    764 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    475 mL
   IVF:
                                                                  3,196 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    580 mL
   Urine:
                                                                  1,105 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,207 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (338 - 520) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 10.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   440 K/uL
   8.4 g/dL
   115 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.9 mEq/L
   20 mg/dL
   96 mEq/L
   126 mEq/L
   26.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
                             [**2125-10-26**]  08:28 AM
                             [**2125-10-26**]  05:25 PM
                             [**2125-10-27**]  03:37 AM
                             [**2125-10-27**]  04:24 PM
                             [**2125-10-28**]  04:00 AM
                            [**2125-10-29**]  02:30 AM
   WBC
   7.3
   15.3
   7.6
   11.0
   11.0
   12.5
   10.3
   Hct
   33.3
   29.9
   44.4
   28.9
   29.4
   27.6
   26.1
   Plt
   [**Telephone/Fax (3) **]92
   558
   545
   440
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   96
   114
   105
   98
   109
   106
   131
   165
   110
   115
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-5**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:9.2 %, Mono:3.8 %, Eos:7.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   [**2125-10-25**].  BAL
 Klebsiella, 2 strains, and Acinetobacter
   Imaging:
   [**2125-10-28**].
   CXR - IMPRESSION: No significant change.
   [**2125-10-28**].  Chest CT.
   IMPRESSIONS:
   1. Small right and small-to-moderate left pleural effusions, with
   loculated
   components along the left. There is again associated atelectasis in the
   posterior right upper lobe and both lower lobes. Again cystic regions
   are
   noted within the consolidated right lower lobe which could represent a
   component of emphysema, although again superimposed right lower lobe
   infection
   with necrotic component is likely. Overall, these findings are similar
   to
   that seen on [**2125-9-24**].
   2. Lymphadenopathy, both mediastinal and right hilar, are incompletely
   assessed without IV contrast.
   3. Medullary nephrocalcinosis, as before.
   4. Underlying emphysema.
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   s/p Trach and PEG, now with vent associated ESBL Klebsiella and
   Acineotbacter pneumonia, on Meropenem ([**10-25**]) and Bactrim ([**10-25**]), day 4
   of 14.
   1.       Hypotension.  Patient developed hypotension in setting of
   fevers and rigors, concerning for sepsis.  However, patient was also
   being diuresed so may have been intravascularly dry.  Had ongoing
   pressor requirement, now off levophed.  On daptomycin, meropenem, and
   bactrim (acinetobacter).
   -          continue [**Last Name (un) 430**], bactrim, dapto
   -          levophed to keep MAPs>60
   -          fluid boluses PRN
   -          f/u culture data, fever curve, wbc
   -          thoracentesis vs. pigtail placement; today vs tomorrow given
   h/o empyema and ongoing fevers and sepsis.  Effusion increasing (also
   has been positive).
   -          hold antihypertensives, no lasix yet.
   2.       Pneumonia/fever.  Patient febrile with leukocytosis and new
   RUL infiltrate on CXR.  Sputum showed ESBL Klebsiella and
   acinetobacter.  Now on day 4 of 14 of Meropenem and Bactrim.  Off and
   on vent as of late.
   -          continue [**Last Name (un) 430**]/bactrim for 14 day; dapto also added.
   -          Thoracentesis as above.
   3.       Pleural effusion.  Patient has history of empyema
   bilaterally.  Now with pleural effusion, though patient continues to be
   in positive fluid balance.  .
   -          Thoracentesis or pigtail as above.
   -          Hold on lasix/diuresis for now.
   4.        Nutrition.  Patient failed S&S.  Got PEG placement by IR.
                         - on tube feeds at goal
   5.  PVD.  Awaiting revascularization after discharge.  Stable LLE dry
   gangrene.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - continue ASA and plavix
   6. Hyponatremia.  Currently hypervolemic; ?due to hypervolemia vs.
   SIADH.
                  - check urine lytes
                  - PM lytes
                  - can decrease free water flushes if continues.
   7.  UTI.  Multiple ESBL Klebsiella species.  Sensitive to meropenem
   (last Klebs MIC panel pending).
   8.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC.  Now volume up
   several days in a row with new pleural effusion.  Unable to diurese due
   to hypotension requiring pressors.
   - fluid as needed to maintain blood pressure
   9.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   10.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   11.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - hold Lopressor
   - not anticoagulating currently.
   12.  Hypothyroidism:  Continue Levothyroxine.
   13.  Thrush:  Clotrimazole troches QID.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-28**] 03:48 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   Addendum: Consider Digoxin for rate control if unable to re-start
   lopressor
   L- Chest U/S and PTC placement

2125-10-29 15:59:00 Physician Resident Progress Note
Chief Complaint: sepsis, pneumonia,
   24 Hour Events:
   - Off levophed; trial off vent, but intermiitent desats.
   - 3.2 liters positive; no diuresis attempted.
   - Persistetnly hyponatremic.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-10-28**] 10:00 PM
   Bactrim (SMX/TMP) - [**2125-10-29**] 10:11 AM
   Meropenem - [**2125-10-29**] 02:48 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-29**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-29**] 03:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 91 (88 - 112) bpm
   BP: 115/54(69) {99/28(53) - 158/124(133)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,814 mL
                                                                  2,296 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    952 mL
   IVF:
                                                                  3,197 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    940 mL
   Urine:
                                                                  1,105 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,209 mL
                                                                  1,356 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (338 - 539) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 67
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: temporal wasting
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present, + PEG
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, LLE toe dry gangrene
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   440 K/uL
   8.4 g/dL
   115 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.9 mEq/L
   20 mg/dL
   96 mEq/L
   126 mEq/L
   26.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2125-10-24**]  04:47 AM
                             [**2125-10-25**]  02:37 AM
                             [**2125-10-25**]  03:23 PM
                             [**2125-10-26**]  04:33 AM
                             [**2125-10-26**]  08:28 AM
                             [**2125-10-26**]  05:25 PM
                             [**2125-10-27**]  03:37 AM
                             [**2125-10-27**]  04:24 PM
                             [**2125-10-28**]  04:00 AM
                            [**2125-10-29**]  02:30 AM
   WBC
   7.3
   15.3
   7.6
   11.0
   11.0
   12.5
   10.3
   Hct
   33.3
   29.9
   44.4
   28.9
   29.4
   27.6
   26.1
   Plt
   [**Telephone/Fax (3) **]92
   558
   545
   440
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   96
   114
   105
   98
   109
   106
   131
   165
   110
   115
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-5**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:9.2 %, Mono:3.8 %, Eos:7.6 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5700**] is a 75 yo male with CAD, CHF, PVD, s/p respiratory failure
   s/p Trach and PEG, now with vent associated ESBL Klebsiella and
   Acineotbacter pneumonia, on Meropenem ([**10-25**]) and Bactrim ([**10-25**]), day 5
   of 14, and day 3 of empiric daptomycin.
   1.       Septic shock. Patient has hypotension, fever, leukocytosis
   with ESBL pneumonia and acineobactor pneumonia.  Clinical picture
   consistent with pneumo-sepsis.  Now titrated off pressors and
   hemodynamically stable.  On [**Last Name (un) 430**] for ESBL klebsiella and Bactrim for
   acinetobacter PNA, and empiric dapto (?line, skin).
   - continue [**Last Name (un) 430**], bactrim, dapto
   -          levophed to keep MAPs>60
   -          fluid boluses PRN
   -          f/u culture data, fever curve, wbc
   -          hold antihypertensives, no lasix yet.
   2.       Respiratory failure.  Patient has pneumonia (ESBL klebsiella
   and acinetobacter), bilaterally pleural effusions, and b/l pneumonia.
   Was on pressure support overnight.  Unable to diurese at present due to
   low blood pressure, but will treat pneumonia with antibiotics and place
   pigtail catheter today.
                   -  [**Last Name (un) 430**], bactrim, for pna
                   - wean off vent if possible
                  - pigtail catheter placement
   3.       Pleural effusion.  Patient has history of empyema
   bilaterally.  Now with pleural effusion, though patient continues to be
   in positive fluid balance.   Fever, wbc trending down, but requiring
   vent support off an on.  Will place pigtail today to improve
   respiratory status.
   -          Pigtail catheter palcement
   -          Hold on lasix/diuresis for now.
            4.  Hyponatremia.  Likely secondary to SIADH.  Will free water
   restrict and check serial lytes.  Will avoid diuresis with lasix at
   present due to hypotension, but consider lasix diuresis in AM.
                  - minimize free water flushes
   - serial lytes
   4.        Nutrition.  Patient failed S&S.  Got PEG placement by IR.
                         - on tube feeds at goal
   5.  PVD.  Awaiting revascularization after discharge.  Stable LLE dry
   gangrene.
   - Further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - continue ASA and plavix
   7.  UTI.  Multiple ESBL Klebsiella species.  Sensitive to meropenem
   (last Klebs MIC panel pending).  Foley was changed after this urine
   culture specimen was obtained.
   8.   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC.  Now volume up
   several days in a row with new pleural effusion.  Unable to diurese due
   to hypotension requiring pressors.
   - fluid as needed to maintain blood pressure
   9.  PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue low dose oxycodone
   - Fentanyl patch
   10.   EOSINOPHILIA.  S/p treatment of strongyloides with ivermectin,
   though only weakly positive antibody to strongyloides.  Suspect drug
   reaction, though offending [**Doctor Last Name **] remains unclear.  Tryptase wnl.
   - follow CBC with diff
   - f/u peripheral flow cytometry
   11.   P. ATRIAL FIBRILLATION (AFIB).  Currently in NSR in 80s.
   - hold Lopressor
   - not anticoagulating currently.
   12.  Hypothyroidism:  Continue Levothyroxine.
   13.  Thrush:  Clotrimazole troches QID.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-29**] 08:24 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-10-31 07:37:00 Physician Resident Progress Note
Chief Complaint: multifocal pna, pSBO
   24 Hour Events:
   KUB of abdomen - no free air
   CT scan abdomen with PO contrast - partial SBO ([**Doctor First Name 458**] recs: no TFs,
   bowel regimen, hold narcotics)
   Continued on meropenem, dapto, bactrim
   FeNa 1.1%, FeUrea 44%
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-10-30**] 08:00 PM
   Daptomycin - [**2125-10-30**] 10:00 PM
   Metronidazole - [**2125-10-31**] 12:00 AM
   Bactrim (SMX/TMP) - [**2125-10-31**] 05:58 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-30**] 08:58 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-30**] 08:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-31**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 96 (96 - 118) bpm
   BP: 96/49(60) {32/12(15) - 160/80(117)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 28 (28 - 28)mmHg
   Total In:
                                                                  3,650 mL
                                                                  1,175 mL
   PO:
   TF:
                                                                    630 mL
   IVF:
                                                                  2,290 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    430 mL
   Urine:
                                                                  1,110 mL
                                                                    330 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,540 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 332 (332 - 483) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35, Agitated
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.43/48/70/29/6
   Ve: 11.1 L/min
   PaO2 / FiO2: 140
   Physical Examination
   NAD, responsive to command, abd continued tympanetic and tense, no
   murmurs appreciated, rhonchi bilaterally
   Labs / Radiology
   416 K/uL
   8.3 g/dL
   86 mg/dL
   0.5 mg/dL
   29 mEq/L
   5.1 mEq/L
   16 mg/dL
   96 mEq/L
   130 mEq/L
   25.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2125-10-28**]  04:00 AM
                            [**2125-10-29**]  02:30 AM
                            [**2125-10-29**]  04:56 PM
                            [**2125-10-30**]  02:10 AM
                            [**2125-10-30**]  11:12 AM
                            [**2125-10-30**]  09:27 PM
                            [**2125-10-30**]  09:50 PM
                            [**2125-10-31**]  01:40 AM
                            [**2125-10-31**]  04:00 AM
                            [**2125-10-31**]  05:03 AM
   WBC
   12.5
   10.3
   10.9
   9.0
   10.6
   11.1
   Hct
   27.6
   26.1
   26.8
   25.5
   25.2
   25.3
   Plt
   545
   440
   446
   [**Telephone/Fax (3) 6470**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.5
   TCO2
   33
   33
   Glucose
   110
   115
   101
   100
   109
   83
   86
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**12-9**], Alk Phos / T Bili:67/0.1,
   Amylase / Lipase:36/16, Differential-Neuts:76.7 %, Band:0.0 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.7 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL, LDH:177 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   No new cx data
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/PEG with vent assoc
   ESBL Klebsiella and Acineotbacter pna.
   #  distended abdomen
 [**10-30**] continued into [**10-31**], CT scan showing
   partial small bowel obstruction vs. ileus, [**Doctor First Name 458**] following.
   - trend lactate, wbc
   - cont NPO with IVF, bowel regimen, hold on TFs
   - [**Doctor First Name 458**] following
   - recheck KUB
 if no free air, DC flagyl
   # infection/shock
 intermittent hypotension, fever (had been afebrile
   [**10-28**]
 [**10-29**]), leukocytosis (baseline elevation) with ESBL pneumonia
   and acineobactor pneumonia
 pneumo-sepsis; off pressors for 2 days.
   On [**Last Name (un) 430**] for ESBL klebsiella and Bactrim for acinetobacter PNA, and
   empiric dapto (?line, skin).
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate
   - f/u culture data, fever curve, wbc
   - hold lasix
   - add fluc for 3d course for yeast in urine/sputum
   #  respiratory failure
 pna (ESBL klebsiella and acinetobacter), bil
   pleural effusions s/p L thoracentesis (transudative).  Mulitifactorial
   with mild chf and with abdominal distension from pSBO.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  vent prn, wean today to trach mask
   # hyponatremia/hyperkalemia
 [**1-20**]? SIADH, ?bactrim effect.  Check
   serial lytes.  Avoiding diuresis with lasix.  [**10-30**] to [**10-31**] with
   stable hyponatremia.
   - minimize free water flushes, free water restrict
   - serial lytes
   - recheck urine lytes with K, r/o RTA
   # nutrition - failed S&S, PEG placement by IR.  Possible displacement
   of PEG tube.  [**Doctor First Name **] and IR contact[**Name (NI) **].
   - hold TFs, pending surgery input
   # PVD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   # UTI
 mult ESBL Klebsiella species, S to meropenem (last Klebs MIC
   panel pending).  Foley changed [**10-27**]
   #  HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given abd issues
   for [**10-30**]/
   - IVF until [**10-31**]
   # EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2125-11-01 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fluconazole started for persistent yeast in urine.
   - Flagyl discontinued.
   - Bolused 500 cc for persistent BPs in 80s with some lethargy (but both
   most likely related to getting narcs).
   - PM labs included Na 114 and glucose >600, both found to be erroneous
   (repeat 130 and 89 respectively).
   - continues to have bloody pulmonary secretions
   - continues to have abdominal distention but now with decreased stool
   output and increased NGT output.  Lactate normal this morning.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2125-10-31**] 08:00 AM
   Fluconazole - [**2125-10-31**] 12:00 PM
   Daptomycin - [**2125-10-31**] 09:48 PM
   Meropenem - [**2125-11-1**] 02:27 AM
   Bactrim (SMX/TMP) - [**2125-11-1**] 05:50 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-10-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-11-1**] 12:53 AM
   Other medications:
   Colace 100 [**Hospital1 **]
   Fluconazole 200 q 24 hr
   Lactulose 15 ml TID
   Bactrim 225 IV q6 hour
   Nystatin 5 ml PO QID
   Daptomycin
   Meropenem 500 IV q 24 hours
   Tylenol prn
   Percocet PRN
   Hydrocortisone cream prn
   Fentanyl patch
   Neurontin 200 q 8 hours
   Fluticasone 110 mcg 2 puff [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-1**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 101 (87 - 101) bpm
   BP: 122/53(69) {88/43(55) - 132/67(80)} mmHg
   RR: 27 (15 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,370 mL
                                                                    759 mL
   PO:
             TF:
   IVF:
                                                                  3,190 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                  1,105 mL
   Urine:
                                                                    915 mL
                                                                    205 mL
   NG:
                                                                    100 mL
                                                                    850 mL
   Stool:
   Drains:
   Balance:
                                                                  2,055 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 25 cmH2O
   SpO2: 92%
   ABG: ///31/
   Ve: 14.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds absent, + distended,
   tympanytic
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   468 K/uL
   8.7 g/dL
   85 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   14 mg/dL
   97 mEq/L
   130 mEq/L
   26.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2125-10-30**]  02:10 AM
                            [**2125-10-30**]  11:12 AM
                            [**2125-10-30**]  09:27 PM
                            [**2125-10-30**]  09:50 PM
                            [**2125-10-31**]  01:40 AM
                            [**2125-10-31**]  04:00 AM
                            [**2125-10-31**]  05:03 AM
                            [**2125-10-31**]  03:03 PM
                            [**2125-10-31**]  04:57 PM
                            [**2125-11-1**]  03:30 AM
   WBC
   10.9
   9.0
   10.6
   11.1
   8.8
   9.1
   Hct
   26.8
   25.5
   25.2
   25.3
   25.5
   26.8
   Plt
   446
   441
   434
   [**Telephone/Fax (3) 6479**]
   Cr
   0.7
   0.7
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   33
   33
   Glucose
   100
   109
   83
   86
   640
   89
   85
   Other labs: PT / PTT / INR:14.8/34.3/1.3, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**12-9**], Alk Phos / T Bili:67/0.1,
   Amylase / Lipase:36/16, Differential-Neuts:78.5 %, Band:0.0 %,
   Lymph:12.5 %, Mono:4.8 %, Eos:3.9 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL, LDH:177 IU/L, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   CT abdomen/pelvis:
   1. Dilated stomach, small bowel and mild distention of proximal colon
   to the
   level of the hepatic flexure with air fluid levels and no clear small
   bowel
   transition point. Findings most likely represent ileus; early or
   partial
   small- bowel obstruction or colonic obstruction felt less likely.
   Rescanning
   after an appropriate interval to allow further passage of contrast may
   be
   helpful.
   2. Round fluid density in bilateral inguinal regions, right greater
   than
   left, most likely represents fluid in inguinal hernias as seen on
   previous
   CT. It is difficult to entirely exclude herniated small bowel on the
   right
   given limitations of the study.
   3. Bibasilar consolidations and pleural effusions, right greater than
   left,
   slightly improved compared to the CT of [**2125-8-20**]. Pneumonia
   cannot be
   excluded.
   4. Hyperdense medullary pyramids may reflect medullary nephrocalcinosis
   and
   correlation is recommended.
   5. Extensive vascular calcifications.
   6. L1 compression fracture, age-indeterminate but unchanged compared to
   the
   CT of [**2125-8-20**].
   CXR. [**2125-11-1**].
   Worsening pulmonary edema with enlarging left-sided pleural effusion.
   Multifocal opacities in the lungs may represent edema, although a
   multifocal
   infection cannot be excluded.
   Assessment and Plan
   In summary, Mr. [**Known lastname 5700**] is a 75 year old male with CAD, CHF, PVD, s/p
   resp failure with trach/PEG with vent assoc ESBL Klebsiella and
   Acineotbacter pna now with partial SBO.
   # Distended abdomen.  Patient developed distended, tympanitic abdomen
   on [**10-30**].  More recently having decreased stool output and increased
   NGT output, which is concerning for progression to complete obstruction
   versus ileus.  Will check another CT abd/pelvis today.  Lactate normal
   today.
   - trend lactate, wbc
   - cont NPO with IVF , hold on TFs
   - d/c bowel regimen for now while we await CT abd/pelvis results
   - [**Doctor First Name 458**] following
   - CT abd/pelvis today to evaluate for bowel obstruction
   - d/c opioids
   Hypotension.  Patient had episode of hypotension yesterday which
   responded to fluids in the setting of narcotic use.  Though has
   pneumonia, clinical exam is not suggestive of worsening sepsis.   She
   has been off pressors for several days.  She is off [**Last Name (un) 430**] for ESBL
   klebsiella and Bactrim for acinetobacter PNA, and empiric dapto (?line,
   skin).
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate
   - f/u culture data, fever curve, wbc
   - IVF boluses for hypotension
   - hold lasix
   - d/c opioids
   Respiratory failure.  Patient has Pneumonia (ESBL klebsiella and
   acinetobacter), worsening bilateral pleural effusions that have
   reaccumlated following thoracentis, and significant of abdominal
   distention.  Bronch this morning consistent with CHF/pulmonary edema,
   though unable to diurese due to concern for SBO.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  Place on pressure support today
   -  Bronch today
   Hyponatremia/hyperkalemia.  Patient likely has SIADH given low sodium.
   However, unable to free water restrict due to concern for SBO.
   Currently stable hyponatremia.
   -          serial lytes
   -          when able to feed him, will stop IVF and free water restrict
   Nutrition.  Failed S&S, PEG placement by IR.  PEG appears to be in good
   position.  However, given concern for obstruction, will remain NPO.
   - hold TFs
   PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   - hold opioids due to ileus vs sbo and hypotension
   UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC panel
   pending).  Foley changed [**10-27**].  Also, yeast in urine.
   -          fluconazole for yeast
   -
   HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.  Found
   to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now
   EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-11-02 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT abdomen/pelvis showed:
   Progression of oral contrast to the rectum, with no evidence of
   obstruction. Persistent bilateral pleural effusions and bibasilar
   consolidation.
   - Got bronch which showed pulmonary edema
   - Placed on PS 20/10 due to pulmonary edema and desatting
   - hypotensive to 80s systolic, so was given 500 cc bolus, 1 unit of
   PBCs, and started on levophed
   - narcotics stopped due to concern about SBO
   - has rash (?drug) over entire body
   - having bowel movements again, abdomen slightly less distended
   - hyponatremia stable 130 --> 131 --> 131
   - WBC now up to 12.6
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2125-10-31**] 08:00 AM
   Fluconazole - [**2125-11-1**] 12:00 PM
   Daptomycin - [**2125-11-1**] 10:00 PM
   Meropenem - [**2125-11-2**] 02:02 AM
   Bactrim (SMX/TMP) - [**2125-11-2**] 06:03 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-11-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-11-1**] 04:00 PM
   Furosemide (Lasix) - [**2125-11-2**] 04:00 AM
   Other medications:
   Lactulose TID
   Colace
   Levophed
   NAC
   Fluconazole 200 mg daily (last day)
   Bactrim
   Nystatin
   Daptomycin 350 IV q 24 hours
   Meropenem 500 IV q6 hours
   Tylenol prn
   Hydrocortisone cream
   Neurontin
   Fluticasone
   Guaifenisin
   Levothyroxine
   Sarna lotion
   HSQ
   Atrovent
   Albuterol
   Senna
   Chlorhexidine
   Zyprexa
   Lansoprazole
   Pravastatin 80 daily
   Miconazole powder
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 85 (82 - 103) bpm
   BP: 107/53(67) {54/38(42) - 123/68(79)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CO/CI (Fick): (206.8 L/min) / (115.2 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  2,953 mL
                                                                    819 mL
   PO:
   TF:
   IVF:
                                                                  2,393 mL
                                                                    804 mL
   Blood products:
                                                                    360 mL
                                                                     15 mL
   Total out:
                                                                  1,525 mL
                                                                    405 mL
   Urine:
                                                                    625 mL
                                                                    405 mL
   NG:
                                                                    850 mL
   Stool:
   Drains:
   Balance:
                                                                  1,428 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (275 - 435) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), decreased breath sounds at
   bases b/l
   Abdominal: Soft, Bowel sounds present, Distended, diffusely tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, + diffuse erythematous rash (?pruritic)
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   497 K/uL
   9.8 g/dL
   80 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   14 mg/dL
   100 mEq/L
   131 mEq/L
   30.6 %
   12.6 K/uL
        [image002.jpg]
                            [**2125-10-30**]  09:27 PM
                            [**2125-10-30**]  09:50 PM
                            [**2125-10-31**]  01:40 AM
                            [**2125-10-31**]  04:00 AM
                            [**2125-10-31**]  05:03 AM
                            [**2125-10-31**]  03:03 PM
                            [**2125-10-31**]  04:57 PM
                            [**2125-11-1**]  03:30 AM
                            [**2125-11-1**]  06:18 PM
                            [**2125-11-2**]  03:22 AM
   WBC
   10.6
   11.1
   8.8
   9.1
   9.3
   12.6
   Hct
   25.2
   25.3
   25.5
   26.8
   25.1
   30.6
   Plt
   [**Telephone/Fax (3) 6489**]68
   415
   497
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   33
   33
   Glucose
   83
   86
   640
   89
   85
   92
   80
   Other labs: PT / PTT / INR:14.9/36.2/1.3, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**11-6**], Alk Phos / T Bili:71/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:84.8 %, Band:0.0 %,
   Lymph:5.1 %, Mono:2.5 %, Eos:7.1 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:163 IU/L, Ca++:8.9
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   CXR.  [**2125-11-2**].
   Stable large bilateral pleural effusions. Increased opacity in the
   right upper
   lobe could be due to worsened asymmetric pulmonary edema___worsened
   pneumonia.
   CT abd/pelvis.  [**2125-11-2**].
   PFI: Progression of oral contrast to the rectum, with no evidence of
   obstruction. Persistent bilateral pleural effusions and bibasilar
   consolidation.
   Assessment and Plan
   In summary, Mr. [**Known lastname 5700**] is a 75 year old male with CAD, CHF, PVD, s/p
   resp failure with trach/PEG with vent assoc ESBL Klebsiella and
   Acineotbacter pna now with ileus.
   Ileus: Patient developed distended, tympanitic abdomen on [**10-30**] which
   is clinically improving with NGT suction, NPO. Bowel regimen, holding
   opioids.
   - trend lactate, wbc
   - cont NPO with IVF , hold on TFs
   - bowel regimen
   - [**Doctor First Name 458**] following
   - no opioids
   Hypotension.  Patient developed hypotension yesterday requiring
   re-initiation of pressors.  WBC is mildly rising but not febrile.
   Remains on broad spectrum antibiotics but exam is not consistent with
   worsening sepsis.  Given eleveated BNP, will evaluate echo and consider
   diuresis with lasix drip.
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate, levophed as needed
   - f/u culture data, fever curve, wbc
   - minimize IVF boluses for hypotension
   - hold lasix for now, but consider lasix drip in PM following echo
   results
   - d/c opioids
   - echo to assess cardiac function today
   Respiratory failure.  Patient has Pneumonia (ESBL klebsiella and
   acinetobacter), worsening bilateral pleural effusions that have
   reaccumlated following thoracentis, and significant of abdominal
   distention.  Bronch yesterday  consistent with CHF/pulmonary edema,
   though unable to diurese due to concern for SBO.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  Assist Control today
   -  consider lasix diuresis with drip in PM pending result of echo
   Hyponatremia. Patient likely has SIADH given low sodium.  However,
   unable to free water restrict due to concern for SBO.  Currently stable
   hyponatremia.
   -          serial lytes
   -          when able to feed him, will stop IVF and free water restrict
   Nutrition.  Failed S&S, PEG placement by IR.  PEG appears to be in good
   position.  However, given concern for obstruction, will remain NPO.
   - hold TFs
   PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   - hold opioids due to ileus vs sbo and hypotension
   UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC panel
   pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed 2 days
   of fluconazole, which was stopped given concern for drug rash.
   Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].
   HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.  Found
   to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now, but consider lasix drip in PM pending echo
   results
   EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Comments: NPO for concern for SBO/ileus
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-11-03 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Kept NPO in am to monitor for ileus, pSBO
   Echo performed to assess for systolic dysfunction worsening - EF 55%,
   mildly dilated RV, preserved global biV systolic fx, moderate pulmonary
   htn.
   Cortisol level checked - 20
   Family meeting with [**Doctor First Name 71**], daughter --> made DNR
   T 101, pan-cultured, increasing pressor requirements
   Discussed with daughter and son; want to try another pressor, if
   needed, and reassess
   Started IV hydrocortisone q6
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2125-10-31**] 08:00 AM
   Fluconazole - [**2125-11-1**] 12:00 PM
   Daptomycin - [**2125-11-2**] 09:46 PM
   Meropenem - [**2125-11-3**] 02:00 AM
   Bactrim (SMX/TMP) - [**2125-11-3**] 06:19 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2125-11-2**] 02:33 PM
   Midazolam (Versed) - [**2125-11-2**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-3**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (99
   HR: 94 (61 - 102) bpm
   BP: 142/64(83) {82/39(54) - 142/85(90)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,360 mL
                                                                    708 mL
   PO:
             TF:
   IVF:
                                                                  2,315 mL
                                                                    708 mL
   Blood products:
                                                                     15 mL
   Total out:
                                                                  1,379 mL
                                                                    584 mL
   Urine:
                                                                  1,379 mL
                                                                    584 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    981 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 12.9 L/min
   Physical Examination
   Unable to do neuro exam, pupils pinpoint but responsive, secretions
   from mouth, trace murmur at LSB, abd tense, +tender, no rebound, +bowel
   sounds, minimal output in rectal bag, RLE edema, minimal on L, L PICC
   without erythema.  Coffee ground in NGT tubing.
   Labs / Radiology
   473 K/uL
   9.4 g/dL
   123 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   15 mg/dL
   99 mEq/L
   131 mEq/L
   27.6 %
   8.8 K/uL
        [image002.jpg]
                            [**2125-10-31**]  04:00 AM
                            [**2125-10-31**]  05:03 AM
                            [**2125-10-31**]  03:03 PM
                            [**2125-10-31**]  04:57 PM
                            [**2125-11-1**]  03:30 AM
                            [**2125-11-1**]  06:18 PM
                            [**2125-11-2**]  03:22 AM
                            [**2125-11-2**]  03:23 PM
                            [**2125-11-2**]  04:28 PM
                            [**2125-11-3**]  03:16 AM
   WBC
   11.1
   8.8
   9.1
   9.3
   12.6
   8.4
   8.8
   Hct
   25.3
   25.5
   26.8
   25.1
   30.6
   25.7
   27.6
   Plt
   [**Telephone/Fax (3) 6497**]
   473
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.8
   TCO2
   33
   Glucose
   86
   640
   89
   85
   92
   80
   64
   123
   Other labs: PT / PTT / INR:15.6/36.8/1.4, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**11-6**], Alk Phos / T Bili:71/0.2,
   Amylase / Lipase:36/16, Differential-Neuts:84.8 %, Band:0.0 %,
   Lymph:5.1 %, Mono:2.5 %, Eos:7.1 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:163 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   No new cx data
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/PEG with vent assoc
   ESBL Klebsiella and Acineotbacter pna now with ileus.
   Ileus: distended, tympanitic abd [**10-30**], placed on NGT suction, made
   NPO, advanced bowel regimen, have been holding opioids as much as
   possible.  Lactate and anion gap have been nl.  Stool output has been
   minimal.
   - cont NPO, hold TFs, pending surgery recs, but need to restart on
   shorter side than later
   - bowel regimen
   - minimize opioids
   UGIB/coffee ground in NGT: has not been receiving PPI due to NPO, NGT
   in stomach, so likely GI source.  HCT stable.
   - iv ppi [**Hospital1 **]
   - t/c 2 units
   - trend hct
   Hypotension.  Patient developed hypotension yesterday requiring
   re-initiation of pressors.  WBC is mildly rising but not febrile.
   Remains on broad spectrum antibiotics but exam is not consistent with
   worsening sepsis.  Given eleveated BNP, will evaluate echo and consider
   diuresis with lasix drip.
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate, levophed as needed
   - f/u culture data, fever curve, wbc
   - minimize IVF boluses for hypotension
   - hold lasix for now, but consider lasix drip in PM following echo
   results
   - d/c opioids
   - echo to assess cardiac function today
   Respiratory failure.  Patient has Pneumonia (ESBL klebsiella and
   acinetobacter), worsening bilateral pleural effusions that have
   reaccumlated following thoracentis, and significant of abdominal
   distention.  Bronch yesterday  consistent with CHF/pulmonary edema,
   though unable to diurese due to concern for SBO.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  Assist Control today
   -  consider lasix diuresis with drip in PM pending result of echo
   Hyponatremia. Patient likely has SIADH given low sodium.  However,
   unable to free water restrict due to concern for SBO.  Currently stable
   hyponatremia.
   -          serial lytes
   -          when able to feed him, will stop IVF and free water restrict
   Nutrition.  Failed S&S, PEG placement by IR.  PEG appears to be in good
   position.  However, given concern for obstruction, will remain NPO.
   - hold TFs
   PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   - hold opioids due to ileus vs sbo and hypotension
   UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC panel
   pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed 2 days
   of fluconazole, which was stopped given concern for drug rash.
   Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].
   HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.  Found
   to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now, but consider lasix drip in PM pending echo
   results
   EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-04 07:42:00 Physician Resident Progress Note
Chief Complaint: pneumonia, chf
   24 Hour Events:
   - Coffee grounds in NGT tubing during rounds; Hct stable 27.6 --> 26.9
   --> 27.7.  Changed to IV BID PPI.
   - Pressor requirement: weaned off by midnight.
   - Vent: changed to PSV 15/10, 0.50, with seemingly more comfort.
   - Sputum again contaminated; urine with mixed culture (ordered to
   resend)
   - Bronched, thick secretions with some blood, BAL sent and pending.
   - C.diff sent
   - NGT clamped x few hours with minimal residual.  Restarted TFs at MN,
   slowly at 10/hr without advancing.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Fluconazole - [**2125-11-1**] 12:00 PM
   Daptomycin - [**2125-11-3**] 10:10 PM
   Meropenem - [**2125-11-4**] 02:14 AM
   Bactrim (SMX/TMP) - [**2125-11-4**] 06:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-3**] 10:07 AM
   Midazolam (Versed) - [**2125-11-3**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-4**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 85 (73 - 88) bpm
   BP: 96/54(64) {91/41(54) - 144/70(86)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,105 mL
                                                                    704 mL
   PO:
             TF:
             74 mL
   IVF:
                                                                  2,075 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,464 mL
                                                                    198 mL
   Urine:
                                                                  1,264 mL
                                                                    198 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (369 - 540) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Diminished: at bases, Rhonchorous:
   diffusely)
   Abdominal: Soft, Bowel sounds present, Distended, + diffusely tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, left gangrenous toes (dry)
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, responds to questions
   Labs / Radiology
   351 K/uL
   8.5 g/dL
   117 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   20 mg/dL
   97 mEq/L
   131 mEq/L
   25.1 %
   6.2 K/uL
        [image002.jpg]
                            [**2125-10-31**]  04:57 PM
                            [**2125-11-1**]  03:30 AM
                            [**2125-11-1**]  06:18 PM
                            [**2125-11-2**]  03:22 AM
                            [**2125-11-2**]  03:23 PM
                            [**2125-11-2**]  04:28 PM
                            [**2125-11-3**]  03:16 AM
                            [**2125-11-3**]  12:27 PM
                            [**2125-11-3**]  05:32 PM
                            [**2125-11-4**]  04:52 AM
   WBC
   9.1
   9.3
   12.6
   8.4
   8.8
   6.2
   Hct
   26.8
   25.1
   30.6
   25.7
   27.6
   26.9
   27.7
   25.1
   Plt
   468
   415
   497
   454
   473
   351
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.8
   0.9
   Glucose
   89
   85
   92
   80
   64
   123
   117
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**11-4**], Alk Phos / T Bili:65/0.0,
   Amylase / Lipase:36/9, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:163 IU/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/PEG with vent assoc
   ESBL Klebsiella and Acineotbacter pna now with ileus.
   Ileus.  Patient with distended, tympanitic abdomen since [**10-30**].  Tube
   feeds re-initiated yesterday, but now with worsening distention and
   tenderness.   Surgery following, though films suggestive of ileus
   rather than SBO.
   - cont NPO, hold TFs
   - bowel regimen
   - no opioids
   UGIB/coffee ground in NGT.  Small amount of coffee ground emesis in the
   setting of NGT suctioning for several days.  Hct slightly down today.
   - iv ppi [**Hospital1 **]
   - t/c 2 units
   - [**Hospital1 **] hcts, transfuse if <25
   - hold aspirin, plavix
   Hypotension
 increasing pressor requirement [**Date range (1) 6498**] with increased
   temperatures, concern for septic shock.  ECHO [**11-2**] showed no RWMA, nl
   EF; cortisol 20, but may be adrenally insufficient.  Remains on broad
   spectrum abx and stress dose steroids.  Now off pressors.  Bronch
   yesterday concerning for worsening PNA.
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate, levophed as needed
   - f/u culture data, fever curve, wbc
   - minimize IVF boluses for hypotension
   - hold lasix for now, but consider lasix drip if hemodynamics improve
   Respiratory failure - pna (ESBL klebsiella and acinetobacter),
   worsening bil pleural effusions that have reaccumlated following
   thoracentis, and significant of abdominal distention.  Bronch
   yesterday  consistent with worsening PNA.  Did not tolerate PS well
   today, so back on AC.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  A/C
   - f/u bronch results
   Hyponatremia - likely SIADH given low sodium.  However, unable to free
   water restrict due to concern for SBO.  Currently stable hyponatremia.
   - serial lytes
   - when able to feed him, will stop IVF and free water restrict
   Nutrition - failed S&S, PEG placement by IR.  PEG appears to be in good
   position.  However, given concern for obstruction, will remain NPO.
   - hold TFs due to ileus
   PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   - hold opioids due to ileus vs sbo and hypotension
   UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC panel
   pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed 2 days
   of fluconazole, which was stopped given concern for drug rash.
   Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].  Now significantly
   improved.
   HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.  Found
   to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now, but consider lasix drip in PM pending echo
   results
   EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-11-4**] 12:15 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2125-11-05 07:56:00 Physician Resident Progress Note
Chief Complaint: multifocal pna, hypotension, pSBO
   24 Hour Events:
   - Worsening abdominal distention in AM--> KUB showed ileus versus SBO.
   Opioids d/c'd, made NPO, given PO naloxone --> abomdinal exam improved
   - Synthroid switched to IV given that patient is NPO
   - BAL culture showed GNRs and GP diplococci
   - [**First Name8 (NamePattern2) **] [**Known lastname 5700**] states she would not like to be called for worsening in
   Mr. [**Known lastname 6493**] status because it makes her worry; she wants only to be
   notified if he has passed but not in anticipation of it
   - Hypotensive to 80s systolic --> got 500 cc fluid bolus and 1 unit of
   PRBC, but not pressors --> BP improved
   - Hct did not respond appropriately to PRBC transfusion 25.1 --> 24.5
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-11-4**] 10:10 PM
   Meropenem - [**2125-11-5**] 02:18 AM
   Bactrim (SMX/TMP) - [**2125-11-5**] 06:18 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2125-11-4**] 12:13 PM
   Pantoprazole (Protonix) - [**2125-11-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-5**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-5**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 76 (72 - 95) bpm
   BP: 103/54(66) {84/42(56) - 114/60(74)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,810 mL
                                                                    709 mL
   PO:
             TF:
                                                                     75 mL
   IVF:
                                                                  2,210 mL
                                                                    679 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    708 mL
                                                                    160 mL
   Urine:
                                                                    508 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,102 mL
                                                                    549 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 500) mL
   Vt (Spontaneous): 615 (615 - 615) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/43/42/26/2
   Ve: 12.6 L/min
   PaO2 / FiO2: 84
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   386 K/uL
   9.0 g/dL
   93 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   23 mg/dL
   97 mEq/L
   127 mEq/L
   25.8 %
   5.2 K/uL
        [image002.jpg]
                            [**2125-11-2**]  03:22 AM
                            [**2125-11-2**]  03:23 PM
                            [**2125-11-2**]  04:28 PM
                            [**2125-11-3**]  03:16 AM
                            [**2125-11-3**]  12:27 PM
                            [**2125-11-3**]  05:32 PM
                            [**2125-11-4**]  04:52 AM
                            [**2125-11-4**]  02:14 PM
                            [**2125-11-5**]  03:13 AM
                            [**2125-11-5**]  03:27 AM
   WBC
   12.6
   8.4
   8.8
   6.2
   5.2
   Hct
   30.6
   25.7
   27.6
   26.9
   27.7
   25.1
   24.5
   25.8
   Plt
   497
   454
   473
   351
   386
   Cr
   0.7
   0.7
   0.8
   0.9
   1.0
   1.0
   TCO2
   29
   Glucose
   80
   64
   123
   117
   98
   93
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**11-4**], Alk Phos / T Bili:65/0.0,
   Amylase / Lipase:36/9, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:163 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/PEG with vent assoc
   ESBL Klebsiella and Acineotbacter pna now with ileus.
   Ileus.  Patient with distended, tympanitic abdomen since [**10-30**].  Tube
   feeds re-initiated yesterday, but now with worsening distention and
   tenderness.   Surgery following, though films suggestive of ileus
   rather than SBO.
   - cont NPO, hold TFs
   - bowel regimen
   - no opioids
   UGIB/coffee ground in NGT.  Small amount of coffee ground emesis in the
   setting of NGT suctioning for several days.  Hct slightly down today.
   - iv ppi [**Hospital1 **]
   - t/c 2 units
   - [**Hospital1 **] hcts, transfuse if <25
   - hold aspirin, plavix
   Hypotension
 increasing pressor requirement [**Date range (1) 6498**] with increased
   temperatures, concern for septic shock.  ECHO [**11-2**] showed no RWMA, nl
   EF; cortisol 20, but may be adrenally insufficient.  Remains on broad
   spectrum abx and stress dose steroids.  Now off pressors.  Bronch
   yesterday concerning for worsening PNA.
   - [**Last Name (un) 430**], bactrim, dapto
 to complete 14d course (started [**10-25**], to end
   [**11-7**])
   - MAPs>60, trend lactate, levophed as needed
   - f/u culture data, fever curve, wbc
   - minimize IVF boluses for hypotension
   - hold lasix for now, but consider lasix drip if hemodynamics improve
   Respiratory failure - pna (ESBL klebsiella and acinetobacter),
   worsening bil pleural effusions that have reaccumlated following
   thoracentis, and significant of abdominal distention.  Bronch
   yesterday  consistent with worsening PNA.  Did not tolerate PS well
   today, so back on AC.
   -  [**Last Name (un) 430**], bactrim, for pna
   -  A/C
   - f/u bronch results
   Hyponatremia - likely SIADH given low sodium.  However, unable to free
   water restrict due to concern for SBO.  Currently stable hyponatremia.
   - serial lytes
   - when able to feed him, will stop IVF and free water restrict
   Nutrition - failed S&S, PEG placement by IR.  PEG appears to be in good
   position.  However, given concern for obstruction, will remain NPO.
   - hold TFs due to ileus
   PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - hold asa/plavix given above
   - hold opioids due to ileus vs sbo and hypotension
   UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC panel
   pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed 2 days
   of fluconazole, which was stopped given concern for drug rash.
   Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].  Now significantly
   improved.
   HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.  Found
   to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now, but consider lasix drip in PM pending echo
   results
   EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug reaction.
   Tryptase wnl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-12 07:47:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Bed not available at rehab, possibility of bed tomorrow
   Metoprolol 37.5mg tid
   Remained on PS 5, PEEP 5 throughout day and night
   Tolerating TFs at goal
   Restarted aspirin, started pentoxyfyline
   10am [**11-12**] Temp to 101
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-11-12**] 04:04 AM
   Cefipime - [**2125-11-12**] 04:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-11-11**] 08:00 AM
   Enoxaparin (Lovenox) - [**2125-11-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-12**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 83 (80 - 109) bpm
   BP: 102/49(62) {94/44(61) - 135/74(82)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  3,083 mL
                                                                    745 mL
   PO:
             TF:
                                                                  1,493 mL
                                                                    468 mL
   IVF:
                                                                    840 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    505 mL
   Urine:
                                                                  1,870 mL
                                                                    505 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    613 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (361 - 361) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: [**Last Name (LF) 2356**], [**First Name3 (LF) **] tube
   Lymphatic: no lad
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), RLE
   edema
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   decreased effort)
   Extremities: Right: 2+, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.1 g/dL
   94 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   141 mEq/L
   28.1 %
   7.2 K/uL
        [image002.jpg]
                            [**2125-11-6**]  03:34 PM
                            [**2125-11-7**]  02:25 AM
                            [**2125-11-7**]  05:33 PM
                            [**2125-11-8**]  01:15 AM
                            [**2125-11-8**]  02:35 AM
                            [**2125-11-9**]  03:29 AM
                            [**2125-11-9**]  06:23 PM
                            [**2125-11-10**]  03:49 AM
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
   WBC
   8.8
   7.4
   10.1
   9.2
   6.6
   7.2
   Hct
   28.4
   28.8
   28.2
   31.0
   30.4
   30.7
   32.1
   30.1
   28.1
   Plt
   [**Telephone/Fax (3) 6640**]97
   274
   282
   Cr
   0.8
   0.9
   0.8
   0.7
   0.5
   0.5
   0.3
   0.3
   TCO2
   30
   Glucose
   88
   96
   115
   101
   107
   89
   94
   Other labs: PT / PTT / INR:13.9/37.1/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**8-2**], Alk Phos / T Bili:73/0.3, Amylase
   / Lipase:36/9, Differential-Neuts:80.4 %, Band:0.0 %, Lymph:15.1 %,
   Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.0 g/dL, LDH:149 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/[**Month/Year (2) 1008**] with vent assoc
   ESBL Klebsiella and Acineotbacter pna now with ileus.
   1. GI/Ileus- dist, tympanitic abd since [**10-30**], improvement since,
   tolerating TFs now, tolerated 60cc/hr since [**11-9**]
   - TFs at goal
   - bowel regimen
   - ultram only at low dose with turns, caution with opioids, cont reglan
   2.  UGIB/coffee grounds
 noted on [**11-3**], now resolved, hct stable.
   - po ppi
   - qd hcts, transfuse if <23, caution given anticoagulation for dvt
   - restarting asa [**11-11**], holding on plavix
   3. RLE edema
 LE dvt, started heparin [**11-8**], lovenox [**11-9**]
   - lovenox and coumadin 2mg, goal inr [**1-21**]
   4.  Hypotension
 intermittent pressors [**Date range (1) 6498**], concern for septic
   shock vs adrenal insufficiency, ECHO [**11-2**] showed no RWMA, nl EF.
   Remains on broad spectrum abx and stress dose steroids (started [**11-2**]),
   now off pressors for nearly 1 week.
   - f/u culture data, fever curve, wbc
   - holding on diuretics, allowing to auto-diurese, but monitor
   effusion.
   - increased beta blocker [**11-11**] to 37.5mg tid, increasing to 50mg tid
   [**11-12**]
   - prednisone 5mg [**11-12**] and [**11-13**], then dc
   5.  Respiratory failure/ID - pna (ESBL klebsiella and acinetobacter),
   worsening bil pleural effusions that have reaccumlated following
   thoracentis, and significant of abdominal distention.   Acinetobacter
   now has resistance to bactrim, so switched to cefepime.  Now, [**11-12**],
   spiked temp to 101, no physical exam findings of new cellulitis, CXR
   with worsening infiltrate, no increase in stool.
   - pan cx: cdiff, blood, ua, urine cx, repeat cxr, sputum cx
   - abx to continue to [**11-13**] (10ds from [**11-3**], when cxs grew, as per ID),
   but will review plan with ID given temp rise
   - keep trach mask
   6.  Hyponatremia
 initially thought SIADH given low sodium, now .
   - serial lytes
   - q8hr free water bolus
   7.  Nutrition - failed S&S, [**Month/Year (2) 1008**] in place.
   - TFs 60 cc/hour, goal.
   8.  PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - asa, pentoxyfyline, hold plavix
   - hold opioids due to ileus
   9.  UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC
   panel pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed
   2 days of fluconazole, which was stopped given concern for drug rash.
   10.  Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].  Now resolved.
   11. HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.
   Found to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now
   12. EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug
   reaction.  Tryptase wnl.
   ICU Care
   Nutrition: [**Doctor Last Name 1008**]/TF
   Nutren Pulmonary (Full) - [**2125-11-12**] 04:37 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-9-19**] 01:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2125-11-13 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cultured for temp 100.5.
   - CXR repeated, ?lung abscess or empyema.
   - CT chest performed; PFI: enlargement of loculated left pleural
   effusion. Slight improvement in likely necrotixing pneumonia in right
   lung.  Obstruction of airway proximal to the tracheostomy tube due to
   secretions.
   - Plan for thoracentesis today, holding lovenox and coumadin.
   - New sputum with GPCs in clusters; did not yet start antibiotics (has
   had this in past on BAL without pathogen grown out).
   - Difficulty picking up sats but reliably desatting to 80s, improved
   with suctioning, but then dropping down again.  Back on vent for few
   hours.
   - PICC line split open (apparently happens often when ?thrombus at
   end)... PICC removed and ordered for replacement (likely on R side).
   Tip culture sent.
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2125-11-13**] 04:00 AM
   Cefipime - [**2125-11-13**] 04:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.9
   HR: 98 (74 - 109) bpm
   BP: 120/51(68) {96/45(60) - 127/66(76)} mmHg
   RR: 24 (0 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,285 mL
                                                                  1,688 mL
   PO:
             TF:
                                                                  1,460 mL
                                                                    322 mL
   IVF:
                                                                  1,476 mL
                                                                  1,306 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    830 mL
   Urine:
                                                                  1,600 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,685 mL
                                                                    858 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 215 (215 - 490) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 13 cmH2O
   SpO2: 94%
   ABG: ///35/
   Ve: 9.4 L/min
   Physical Examination
   Nad, unable to determine orientation, dry membranes, trach in place,
   +audible secretions, decreased effort and breath sounds, mild crackles
   at base, decreased breath sounds at L base, abd soft, non-tender,
   bandages in RLE for wounds, RLE edema
   Labs / Radiology
   288 K/uL
   9.5 g/dL
   101 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.3 mEq/L
   15 mg/dL
   108 mEq/L
   143 mEq/L
   29.2 %
   6.2 K/uL
        [image002.jpg]
                            [**2125-11-7**]  02:25 AM
                            [**2125-11-7**]  05:33 PM
                            [**2125-11-8**]  01:15 AM
                            [**2125-11-8**]  02:35 AM
                            [**2125-11-9**]  03:29 AM
                            [**2125-11-9**]  06:23 PM
                            [**2125-11-10**]  03:49 AM
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
                            [**2125-11-13**]  04:16 AM
   WBC
   8.8
   7.4
   10.1
   9.2
   6.6
   7.2
   6.2
   Hct
   28.8
   28.2
   31.0
   30.4
   30.7
   32.1
   30.1
   28.1
   29.2
   Plt
   [**Telephone/Fax (3) 6640**]97
   274
   282
   288
   Cr
   0.9
   0.8
   0.7
   0.5
   0.5
   0.3
   0.3
   0.3
   TCO2
   30
   Glucose
   88
   96
   115
   101
   107
   89
   94
   101
   Other labs: PT / PTT / INR:14.0/37.3/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   Sputum GPC, GNR
   Cdiff (-)
   Assessment and Plan
   75yoM CAD, CHF, PVD, s/p resp failure with trach/PEG with vent assoc
   ESBL Klebsiella and Acineotbacter pna now with ileus.
   1. GI/Ileus- dist, tympanitic abd since [**10-30**], improvement since,
   tolerating TFs now, tolerated 60cc/hr since [**11-9**]
   - TFs at goal
   - bowel regimen, reglan
   - ultram low dose with turns, caution with opioids
   2.  UGIB/coffee grounds
 noted on [**11-3**], now resolved, hct stable.
   - po ppi
   - qd hcts, transfuse if <23, caution given anticoagulation for dvt
   - restarted asa [**11-11**], holding on plavix
   3. RLE edema
 LE dvt, started heparin [**11-8**], lovenox [**11-9**]
   - lovenox and coumadin 2mg, goal inr [**1-21**] (on hold for possible [**Female First Name (un) **]
   [**11-13**], will need restart post-procedure)
   4. Cardiovascular
 intermittent pressors [**Date range (1) 6498**], concern for
   septic shock vs adrenal insufficiency, ECHO [**11-2**] showed no RWMA, nl
   EF. Remains on broad spectrum abx and stress dose steroids (started
   [**11-2**]), now off pressors for nearly 1 week.   Have been uptitrating
   rate control to at-home BB dosing, with moderate effect.
   - f/u culture data, fever curve, wbc
   - holdi on diuretics, allowing to auto-diurese, but will need overall
   diurese once BB uptitrated
   - increased beta blocker [**11-11**] to 37.5mg tid, increased to 50mg tid
   [**11-12**]
   - prednisone 5mg [**11-13**], discontinued (now finished steroid taper,
   started [**11-3**] stress dose for sepsis)
   5.  Respiratory failure/ID - pna (ESBL klebsiella and acinetobacter),
   worsening bil pleural effusions that have reaccumlated following
   thoracentis, and significant of abdominal distention.   Acinetobacter
   now has resistance to bactrim, so switched to cefepime.  Now, [**11-12**],
   spiked temp to 101, no physical exam findings of new cellulitis, CXR
   with worsening infiltrate, no increase in stool.  CT scan [**11-12**] showed
   increasing pleural effusion, L>R, with? Loculations and empyema.
   - pan cx: cdiff, blood, ua, urine cx, repeat cxr, sputum cx
   - abx to continue to [**11-13**] (10ds from [**11-3**], when cxs grew, as per ID),
   but will review plan with ID given temp rise.  Spoke with fellow [**11-13**],
   discussed plan for possible [**Female First Name (un) **] with pigtail, to page when gram stain
   and cell counts return to discuss abx plan.
   - keep trach mask, vent prn
   - plan for [**Female First Name (un) **] and pigtail [**11-13**]
   6.  Hyponatremia
 initially thought SIADH given low sodium, now .
   - serial lytes
   - q8hr free water bolus
   7.  Nutrition - failed S&S, PEG in place.
   - TFs 60 cc/hour, goal.
   8.  PD - awaiting revascularization after DC.  Stable LLE dry gangrene.
   - further management per Dr. [**Last Name (STitle) **] as patient recovers from this
   hospitalization.
   - asa, pentoxyfyline, hold plavix
   - hold opioids due to ileus
   9.  UTI.  UTI ESBL Klebsiella species, S to meropenem (last Klebs MIC
   panel pending).  Foley changed [**10-27**].  Also, yeast in urine.  Completed
   2 days of fluconazole, which was stopped given concern for drug rash.
   10.  Rash.  Concern for drug rash. Will stop fluconazole as this was
   recently started and may be the offending [**Doctor Last Name **].  Now resolved.
   11. HEART FAILURE (CHF), DIASTOLIC
 hold on diuresis given ileus.
   Found to have elevated BNP.  Also with pulmonary edema on bronch.
   - hold on diuresis for now
   12. EOSINOPHILIA
 s/p tx strongyloides with ivermectin, ?drug
   reaction.  Tryptase wnl.
   ICU Care
   Nutrition: TFs at goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-12**] 03:30 PM, replacing PICC [**11-13**] since fractured
   distal tip [**11-12**]
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition: icu

2125-11-14 07:27:00 Physician Resident Progress Note
Chief Complaint: ventilator-associated/hospital-acquired pneumonias
   24 Hour Events:
   -Thoracentesis performed; barely met one out of three Light
s criteria,
   so likely transudative. No evidence to suggest empyema; pH 7.55.
   -Over the course of the day/night, had increasing ventilator
   requirements up to an FiO2 of 1.0 this morning.  Also with bronchospasm
   treated with methylprednisolone x1.
   -Transiently hypotensive to SBP 70s this morning in the setting of
   fever to 101 and increased PEEP. Resolved with 500cc fluid bolus and
   with removal of PEEP.
   Allergies:
   Vancomycin
   Exfoliative Dermatitis
   Linezolid
   Thrombocytopenia
   Last dose of Antibiotics:
   Cefipime - [**2125-11-14**] 04:00 AM
   Meropenem - [**2125-11-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2125-11-13**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2125-11-14**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 94 (70 - 102) bpm
   BP: 110/70(76) {91/39(51) - 126/70(77)} mmHg
   RR: 31 (11 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,576 mL
                                                                  1,135 mL
   PO:
             TF:
                                                                    463 mL
                                                                    446 mL
   IVF:
                                                                  1,703 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    345 mL
   Urine:
                                                                  1,220 mL
                                                                    295 mL
   NG:
   Stool:
                                                                    200 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                    656 mL
                                                                    790 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 363 (358 - 363) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 83
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   Compliance: 16.1 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 15.4 L/min
   Physical Examination
   General: somewhat somnolent, but arousable to voice
   Neck: trach in place
   Chest: diffusely ronchorous, moreso on right
   CV: borderline tachycardic; irregular
   Abdomen: distended with mild voluntary guarding; (+) BS
   Extr: 3+ RLE edema and LLE ulcers wrapped
   Neuro: nodding to questions appropriately.
   Labs / Radiology
   334 K/uL
   10.2 g/dL
   119 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.4 mEq/L
   13 mg/dL
   105 mEq/L
   143 mEq/L
   30.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2125-11-7**]  05:33 PM
                            [**2125-11-8**]  01:15 AM
                            [**2125-11-8**]  02:35 AM
                            [**2125-11-9**]  03:29 AM
                            [**2125-11-9**]  06:23 PM
                            [**2125-11-10**]  03:49 AM
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
                            [**2125-11-13**]  04:16 AM
                            [**2125-11-14**]  03:06 AM
   WBC
   7.4
   10.1
   9.2
   6.6
   7.2
   6.2
   8.7
   Hct
   28.2
   31.0
   30.4
   30.7
   32.1
   30.1
   28.1
   29.2
   30.8
   Plt
   [**Telephone/Fax (3) 6692**]74
   282
   288
   334
   Cr
   0.8
   0.7
   0.5
   0.5
   0.3
   0.3
   0.3
   0.3
   TCO2
   30
   Glucose
   96
   115
   101
   107
   89
   94
   101
   119
   Other labs: PT / PTT / INR:14.0/38.8/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   CXR: New infiltrate in right lung; also with fluid in right fissure.
   Assessment and Plan
   75 year old man with CAD, PVD and chronic nonhealing ulcers, with a
   complicated hospitalization most notable for recurrent
   ventilator-associated pneumonias, now with new respiratory failure from
   a night right lung VAP
   1.       Respiratory failure: very likely from new right lung VAP;
   volume overload may be contributing; has numerous resistant organisms
   on prior sputum/BAL cultures and has been lacking adequate
   gram-positive coverage, in part due to allergies
   -          Will discuss broadening gram positive coverage (?
   tigecycline or linezolid) with ID
   -          Bronchoscopy this AM; f/u new sputum culture
   -          Vent support as needed
   2.       Hypotension; likely from pneumonia/sepsis as above, though
   adrenal insufficiency could be contributing (especially considering he
   just finished course of corticosteroids); pleural effusion not
   consistent with empyema
   -          resume methylprednisolone
   -          IV fluid boluses as needed; low threshold to add vasopressor
   support
   -          Hold beta blockers for now
   3.       Fevers: likely pulmonary source as above
   -          reculture blood, urine, sputum; send stool for C Diff toxin
   -          will empirically add IV metronidazole pending C Diff toxin
   assay
   4.       DVT
   -          cont enoxaparin but hold warfarin given the likelihood of
   him needing an additional invasive procedure
   5.       Atrial fibrillation
   -          hold beta blockade and warfarin as above; cont enoxaparin
   6.       Ileus; resolving
   -          cont metoclopramide and follow abdominal exam; minimize
   opiods
   7.       PVD
   -          cont current analgesia regimen
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2125-11-13**] 09:39 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-11-13**] 12:00 PM
   Prophylaxis:
   DVT: enoxaprin
   Stress ulcer: ppi
   VAP:  chlorhexidine; VAP bundle
   Communication:  Comments: with patient (when possible); wife [**Name (NI) **]
   [**Name (NI) 5700**] is power-of-attorney
   Code status: DNR
   Disposition:  ICU

2125-11-15 07:48:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2125-11-14**] 09:30 AM: no mucous plugging or thick
   secretions seen
   - ID re-consulted and recommended increasing cefepime to 2 grams q12h
   - metronidazole added for empiric C Diff coverage
   - on trach-collar during day yesterdat, switched back to PSupport [**4-23**]
   overnight
   - required intermittent NS boluses due to hypotension (SBP 80s)
   Allergies:
   Vancomycin
   Exfoliative Dermatitis
   Linezolid
   Thrombocytopenia
   Last dose of Antibiotics:
   Cefipime - [**2125-11-15**] 03:30 AM
   Meropenem - [**2125-11-15**] 04:30 AM
   Metronidazole - [**2125-11-15**] 05:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2125-11-14**] 08:00 PM
   Midazolam (Versed) - [**2125-11-15**] 02:20 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2125-11-15**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 98 (81 - 100) bpm
   BP: 113/63(69) {69/36(48) - 120/63(73)} mmHg
   RR: 20 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 10 (8 - 11)mmHg
   Total In:
                                                                  4,133 mL
                                                                    905 mL
   PO:
   TF:
                                                                  1,243 mL
                                                                    467 mL
   IVF:
                                                                  2,220 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    255 mL
   Urine:
                                                                    820 mL
                                                                    255 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  3,113 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 445 (388 - 445) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 7.6 L/min
   Physical Examination
   General: awake and nodding to questions; not in distress
   Neck: trach in place
   Chest: ronchi improved; low lung volumes
   CV: borderline tachycardic; irregular
   Abdomen: distended with mild voluntary guarding; (+) BS; no rebound
   Extr: 3+ RLE edema; LLE ulcers wrapped
   Neuro: nodding to questions appropriately.
   Labs / Radiology
   238 K/uL
   7.9 g/dL
   139 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.5 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   23.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2125-11-8**]  01:15 AM
                            [**2125-11-8**]  02:35 AM
                            [**2125-11-9**]  03:29 AM
                            [**2125-11-9**]  06:23 PM
                            [**2125-11-10**]  03:49 AM
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
                            [**2125-11-13**]  04:16 AM
                            [**2125-11-14**]  03:06 AM
                            [**2125-11-15**]  03:08 AM
   WBC
   7.4
   10.1
   9.2
   6.6
   7.2
   6.2
   8.7
   7.5
   Hct
   31.0
   30.4
   30.7
   32.1
   30.1
   28.1
   29.2
   30.8
   23.8
   Plt
   [**Telephone/Fax (3) 6692**]74
   282
   288
   334
   238
   Cr
   0.7
   0.5
   0.5
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   30
   Glucose
   115
   101
   107
   89
   94
   101
   119
   139
   Other labs: PT / PTT / INR:13.6/39.3/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   CXR: likely increasing bilateral effusions
   Assessment and Plan
   75 year old man with CAD, PVD and chronic nonhealing ulcers, with a
   complicated hospitalization most notable for recurrent
   ventilator-associated pneumonias, now with persistent respiratory
   failure possibly from a new right lung VAP
   1.       Respiratory failure: possibly from new right lung VAP; volume
   overload likely contributing; has numerous resistant organisms on prior
   sputum/BAL cultures and has been lacking adequate gram-positive
   coverage, in part due to allergies
   -          Cont current regimen of meropenem/cefepime (increased dose)
   pending sputum culture results; ID input appreciated
   -          Would likely benefit from diuresis but will hold off now
   given recent hypotension; if BP remains stable, will consider Lasix
   later this afternoon
   -          Vent support as needed
   2.       Hypotension; likely from pneumonia/sepsis as above, though
   adrenal insufficiency could be contributing (especially considering he
   just finished course of corticosteroids); pleural effusion not
   consistent with empyema
   -          cont methylprednisolone
   -          IV fluid boluses (switch to LR) as needed; low threshold to
   add vasopressor support
   -          Cont to hold beta blockers for now
   3.       Anemia; source unclear
   -          Guaiac stools
   -          Rpt Hct and consider pRBC transfusion (likely with Lasix) if
   remains low
   4.       Fevers: likely pulmonary source as above; afebrile now for 24
   hrs, though steroids could be masking fevers
   -          Follow up pending micro data; resend C Diff
   -          f/u ID recs
   -          Cont current antibiotics for now; can likely d/c
   metronidazole if C Diff remains negative
   5.       DVT
   -          cont enoxaparin but hold warfarin given the likelihood of
   him needing an additional invasive procedure
   6.       Atrial fibrillation
   -          hold beta blockade and warfarin as above; cont enoxaparin
   7.       Ileus; resolving
   -          cont metoclopramide and follow abdominal exam; minimize
   opiods
   8.       PVD
   -          cont current analgesia regimen
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-11-15**] 06:37 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-11-13**] 12:00 PM
   Prophylaxis:
   DVT: enoxaparin as above
   Stress ulcer: on ppi
   VAP:  chlorhexidine, VAP bundle
   Comments:
   Communication:  Comments: with patient (will try to get P-M valve);
   wife [**Name (NI) **] has POA
   [**Name (NI) 66**] status: DNR
   Disposition: ICU

2125-11-16 07:58:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 Got 1 unit pRBCs yesterday for low Hct with 40 mg IV Lasix; bumped
   appropriately
 Got 40mg Lasix for diuresis given stable pressures yesterday
 Overnight with worsening air mvmt so rested on pressure support
   overnight and given inhalers
 Changed steroids to hydrocortisone -- to decrease steroid load
 No changes in ABx
   Allergies:
   Vancomycin: Exfoliative Dermatitis
   Linezolid: Thrombocytopenias
   Last dose of Antibiotics:
   Meropenem - [**2125-11-16**] 03:47 AM
   Metronidazole - [**2125-11-16**] 04:00 AM
   Cefipime - [**2125-11-16**] 04:15 AM
   Infusions:
   Other ICU medications:
   Furosemide - [**2125-11-16**] 12:42 AM
   Hydrocortisone Na Succ. 25 mg IV Q12H
   Enoxaparin Sodium 60 mg SC Q12H
   Midazolam 0.5-2 mg IV Q2H:PRN
   Lansoprazole 30 mg PO DAILY
   Other medications:
   Ipratropium Bromide MDI 6 PUFF IH Q6H
   Albuterol MDI 6 PUFF IH Q4H
   Fluticasone 110mcg 2 PUFF IH [**Hospital1 **]
   Pravastatin 80 mg PO DAILY
   Aspirin EC 325 mg PO DAILY
   Pentoxifylline 400 mg PO TID
   Gabapentin 200 mg PO Q8H
   Acetaminophen 650 mg PO/PR TID
   TraMADOL (Ultram) 25 mg PO Q8H:PRN
   Levothyroxine 100 mcg PO DAILY
   Metoclopramide 10 mg IV Q8H
   Lactulose 15 mL PO TID
   Colace 100 mg PO BID
   Nystatin Oral 5 mL PO QID:PRN
   Hydrocortisone Cream 0.5% 1 Appl TP
   Guaifenesin 10 mL PO Q4H:PRN
   Sarna Lotion 1 Appl TP TID:PRN
   Senna 1 TAB PO BID:PRN constipation
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL [**Hospital1 **]
   Olanzapine 5 mg PO QHS:PRN agitation
   Miconazole Powder 2% 1 Appl TP PRN
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2125-11-16**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 103 (98 - 110) bpm
   BP: 124/45(64) {101/37(54) - 135/59(93)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 5 (0 - 10)mmHg
   Total In:
                                                                  3,109 mL
                                                                    801 mL
   PO:
   TF:
                                                                  1,448 mL
                                                                    471 mL
   IVF:
                                                                  1,036 mL
                                                                    300 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,670 mL
                                                                  1,690 mL
   Urine:
                                                                  2,070 mL
                                                                  1,440 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                    439 mL
                                                                   -888 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 356 (70 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: ) Right
sided wheeze.
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: Trace, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   259 K/uL
   9.1 g/dL
   135 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.4 mEq/L
   25 mg/dL
   109 mEq/L
   144 mEq/L
   28.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2125-11-9**]  06:23 PM
                            [**2125-11-10**]  03:49 AM
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
                            [**2125-11-13**]  04:16 AM
                            [**2125-11-14**]  03:06 AM
                            [**2125-11-15**]  03:08 AM
                            [**2125-11-15**]  09:50 AM
                            [**2125-11-15**]  08:46 PM
                            [**2125-11-16**]  12:03 AM
   WBC
   9.2
   6.6
   7.2
   6.2
   8.7
   7.5
   10.1
   Hct
   30.7
   32.1
   30.1
   28.1
   29.2
   30.8
   23.8
   24.0
   26.0
   28.1
   Plt
   297
   274
   282
   288
   334
   238
   259
   Cr
   0.5
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   Glucose
   107
   89
   94
   101
   119
   139
   135
   Other labs: PT / PTT / INR:13.6/39.3/1.2, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:80.4 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.9 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   CULTURE DATA: sputum [**2125-11-12**]
                 PSEUDOMONAS AERUGINOSA
                             |          ACINETOBACTER BAUMANNII COMPLEX
                             |          |          STENOTROPHOMONAS (XANTHOMON
                             |          |          |
AMPICILLIN/SULBACTAM--               16 I
CEFEPIME--------------     2 S     =>64 R
CEFTAZIDIME-----------     2 S     =>64 R
CIPROFLOXACIN---------     1 S      =>4 R
GENTAMICIN------------   <=1 S     =>16 R
IMIPENEM--------------                8 I
MEROPENEM-------------     8 I
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S        8 I
TRIMETHOPRIM/SULFA----                4 R        2 S
   Assessment and Plan
   75 year old man with CAD, PVD and chronic nonhealing ulcers, with a
   complicated hospitalization most notable for recurrent
   ventilator-associated pneumonias, now with persistent respiratory
   failure possibly from a new right lung VAP
   1.       Respiratory failure: possibly from new right lung VAP; volume
   overload likely contributing; has numerous resistant organisms on prior
   sputum/BAL cultures and has been lacking adequate gram-positive
   coverage, in part due to allergies
   -          Cont current regimen of meropenem/cefepime given patient
   pulmonary function has remained stable and he is currently on trach
   with O2 during the day; ID input appreciated in regards to [**11-12**] sputum
   culture
   -          Continue gentle diuresis as pressures tolerate to improve
   volume status and lung effusions
   -          Vent support as needed
   -          Continue inhalers to help with wheezing, may be due to
   volume
   2.       Hypotension; improved on steroids, and increased cefepime dose
   likely from pneumonia/sepsis as above; pleural effusion not consistent
   with empyema
   -          Wean hydrocortisone to 25 mg q12hr
   -          Cont to hold beta blockers for now, if pressures stable
   today with diuresis may consider low dose BB for heart rate control in
   pm
   3.       Anemia; source unclear, responded appropriately to blood
   transfusion [**11-15**]. [**Month (only) 60**] be delayed bleed s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**11-13**]
   -          Guaiac stools
   -          Trend HCT
   4.       Fevers: likely pulmonary source as above; afebrile now for
   48hrs, though steroids could be masking fevers
   -          Follow up pending micro data; resend C Diff
   -          F/u ID recs
   -          Cont current antibiotics for now; can likely d/c
   metronidazole if C Diff remains negative
   5.       DVT
   -          cont enoxaparin but hold warfarin given the likelihood of
   him needing an additional invasive procedure
   6.       Atrial fibrillation
   -          hold beta blockade and warfarin as above; cont enoxaparin
   7.       Ileus; resolving
   -          cont metoclopramide and follow abdominal exam; minimize
   opiods
   8.       PVD
   -          cont current analgesia regimen
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-11-15**] 06:35 AM 60 mL/hour
   Glycemic Control:  none
   Lines:
   PICC Line - [**2125-11-13**] 12:00 PM
   Prophylaxis:
   DVT:  enoxaparin as above
   Stress ulcer:  PPI
   VAP:  chlorhexadine, VAP bundle
   Comments:
   Communication:  Wife
   [**Name (NI) 66**] status: DNR
   Disposition: ICU

2125-11-17 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-11-16**] 06:30 PM
   Bl cultures x2 PICC and venipunctiure
   [**11-14**] Blood cultures showed Gram Positive Cocci in chains therefore, he
   was started on Daptomycin
   Desatted O/N and required rest on Ventilator, but tolerated Trach
   collar with 50% all  of yesterday
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Daptomycin - [**2125-11-16**] 09:00 PM
   Cefipime - [**2125-11-17**] 03:54 AM
   Meropenem - [**2125-11-17**] 03:54 AM
   Metronidazole - [**2125-11-17**] 03:54 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-11-16**] 12:00 PM
   Enoxaparin (Lovenox) - [**2125-11-17**] 01:53 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2125-11-17**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 102 (92 - 116) bpm
   BP: 102/48(61) {92/39(57) - 141/63(79)} mmHg
   RR: 27 (7 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  3,755 mL
                                                                    876 mL
   PO:
   TF:
                                                                  2,555 mL
                                                                    486 mL
   IVF:
                                                                    950 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  4,980 mL
                                                                    280 mL
   Urine:
                                                                  4,130 mL
                                                                    280 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                    596 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 395 (356 - 562) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy with blood coming
   from it and suctioned approx 40 ml of blood
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : ) Very diminished at bases.
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands
 opens eyes, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   256 K/uL
   8.2 g/dL
   140 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   28 mg/dL
   113 mEq/L
   147 mEq/L
   26.1 %
   8.4 K/uL
        [image002.jpg]
                            [**2125-11-11**]  05:15 AM
                            [**2125-11-12**]  03:44 AM
                            [**2125-11-13**]  04:16 AM
                            [**2125-11-14**]  03:06 AM
                            [**2125-11-15**]  03:08 AM
                            [**2125-11-15**]  09:50 AM
                            [**2125-11-15**]  08:46 PM
                            [**2125-11-16**]  12:03 AM
                            [**2125-11-16**]  03:28 PM
                            [**2125-11-17**]  03:37 AM
   WBC
   6.6
   7.2
   6.2
   8.7
   7.5
   10.1
   8.4
   Hct
   30.1
   28.1
   29.2
   30.8
   23.8
   24.0
   26.0
   28.1
   26.3
   26.1
   Plt
   274
   282
   288
   [**Telephone/Fax (3) 6755**]
   256
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   0.4
   Glucose
   89
   94
   101
   119
   139
   135
   126
   140
   Other labs: PT / PTT / INR:14.9/40.0/1.3, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:6.8 %, Mono:5.7 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   75 year old man with CAD, PVD and chronic nonhealing ulcers, with a
   complicated hospitalization most notable for recurrent
   ventilator-associated pneumonias, now with persistent respiratory
   failure possibly from a new right lung VAP
   1.       Respiratory failure: possibly from new right lung VAP; volume
   overload likely contributing; has numerous resistant organisms on prior
   sputum/BAL cultures. Off gram positive coverage due to gram negative
   organisms in sputum cultures, now with positive blood culture on
   Daptomycin.
   -   Meropenem/cefepime/Daptomycin given patient pulmonary function has
   remained stable and he is currently on trach with O2 during the day
   -   Hold on diuresis given new + blood culture.
   -   Vent support as needed
   -   Continue inhalers to help with wheezing, may be due to volume
   2.   Bacteremia: Gram Positive Cocci: unclear source. Chains suggest
   strep or enterococci. Will resend urine culture. Will follow blood
   cultures drawn off PICC from [**11-17**]. Consider bronch for another sputum
   sample. [**Month (only) 60**] be contaminant and patient remains clinically stable.
   -    Daptomycin
   -    Serial blood cultures
   3. Hypotension; improved on steroids, and increased cefepime dose
   likely from pneumonia/sepsis as above; pleural effusion not consistent
   with empyema
   -     Stop stress dose steroids
   -     Cont to hold beta blockers for now, if no more + blood cultures
   over next 24 hrs and pressures remain stable consider restarting BB.
   4. Hypernatremia: likely due to insensible losses
   -   Free water boluses
   5.       Anemia; source unclear, responded appropriately to blood
   transfusion [**11-15**]. [**Month (only) 60**] be delayed bleed s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**11-13**]
   -    Guaiac stools
   -    Trend HCT, transfuse HCT <25
   -     Consider bronchoscopy with recent blood around trach. [**Month (only) 60**] be from
   suctioning.
   6.       Fevers: likely pulmonary source as above; afebrile now for
   72hrs, though steroids could be masking fevers
   -    Follow up pending micro data; resend C Diff
   -    F/u ID recs
   -    Cont [**Last Name (un) **]/Dapto/Cefepime/Flagyl; can likely d/c Flagyl if C Diff
   remains negative
   7.       DVT
   -          cont enoxaparin but hold warfarin given the likelihood of
   him needing an additional invasive procedure
   8.       Atrial fibrillation
   -          hold beta blockade and warfarin as above; cont enoxaparin
   9.       Ileus; resolving
   -          cont metoclopramide and follow abdominal exam; minimize
   opiods
   10.       PVD
   -          cont current analgesia regimen
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-11-16**] 11:59 PM 60 mL/hour
   Glycemic Control:   BG 100-140, no insulin
   Lines:
   PICC Line - [**2125-11-13**] 12:00 PM
   Prophylaxis:
   DVT: enoxaparin
   Stress ulcer: PPI
   VAP:  precautions
   Comments:
   Communication: wife, [**Name (NI) **] Comments:
   Code status: DNR
   Disposition: ICU

2125-11-19 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - completed meropenem/cefepime; discontinued FLagyl due to neg C Diff
   toxins
   - given 1 unit pRBCs in AM followed by Lasix bolus (40 mg IV) and Lasix
   drip
   - HR remained 120s-130s (afib) with stable BPs so resumed metoprolol
   - PM Hct drifting down in spite of AM transfusion  23 --> 25.5 --> 22.4
   so written for add'l 2 units; Guaiac positive
   [SEE BELOW FOR EVENT NOTE/DEATH NOTE REFLECTING EVENTS AFTER THESE DATA
   FOR THIS NOTE WERE OBTAINED]
   Allergies:
   Vancomycin
   Exfoliative [**Doctor Last Name **]
   Linezolid
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2125-11-18**] 04:00 AM
   Metronidazole - [**2125-11-18**] 04:00 AM
   Meropenem - [**2125-11-18**] 10:00 AM
   Daptomycin - [**2125-11-18**] 11:15 PM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2125-11-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-19**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 119 (103 - 125) bpm
   BP: 110/53(65) {95/42(56) - 142/83(145)} mmHg
   RR: 19 (19 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
           Total In:
                                                                  4,288 mL
                                                                  1,383 mL
   PO:
           TF:
                                                                  1,440 mL
                                                                    465 mL
   IVF:
                                                                  1,528 mL
                                                                    242 mL
   Blood products:
                                                                    375 mL
                                                                    176 mL
   Total out:
                                                                  4,425 mL
                                                                    910 mL
   Urine:
                                                                  2,825 mL
                                                                    910 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                   -137 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 424) mL
   PS : 15 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 129
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 11.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   229 K/uL
   7.5 g/dL
   104 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.7 mEq/L
   37 mg/dL
   113 mEq/L
   149 mEq/L
   22.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:08 AM
                            [**2125-11-15**]  09:50 AM
                            [**2125-11-15**]  08:46 PM
                            [**2125-11-16**]  12:03 AM
                            [**2125-11-16**]  03:28 PM
                            [**2125-11-17**]  03:37 AM
                            [**2125-11-17**]  03:02 PM
                            [**2125-11-18**]  03:53 AM
                            [**2125-11-18**]  03:20 PM
                             [**2125-11-19**]  01:54 AM
   WBC
   7.5
   10.1
   8.4
   9.3
   7.6
   9.6
   9.3
   Hct
   23.8
   24.0
   26.0
   28.1
   26.3
   26.1
   25.2
   23.0
   25.5
   22.4
   Plt
   238
   259
   256
   [**Telephone/Fax (3) 6774**]
   229
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   0.6
   0.6
   0.7
   Glucose
   139
   135
   126
   140
   103
   105
   173
   104
   Other labs: PT / PTT / INR:15.5/39.0/1.4, CK / CKMB /
   Troponin-T:20/3/0.16, ALT / AST:[**10-7**], Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:36/25, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:6.8 %, Mono:5.7 %, Eos:0.4 %, D-dimer:881 ng/mL, Fibrinogen:386
   mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL, LDH:142 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PLEURAL EFFUSION, ACUTE
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   75 year old man with CAD, PVD and chronic nonhealing ulcers, with a
   complicated hospitalization most notable for recurrent
   ventilator-associated pneumonias, now with persistent respiratory
   failure possibly from a new right lung VAP
   After the vitals and lab data shown on this sheet for the am, but
   before this note was finalized, Mr [**Name13 (STitle) 6778**] appeared to have an acute
   decompensation in which his blood pressure began dropping into the 90s
   (from 120s sbp) and then to the 70s. At the same time he was found to
   be febrile to 101.4 axillary. Keeping in mind that we had recently
   discontinued antibiotics we restarted cefepime and meropenem.
   Additionally he received 2 transfusions PRBCs today; the second was
   mostly completed when he was found to be febrile, and was stopped then.
   When his pressures stayed consistently in the 70s we began bolusing
   him, although his access was limited to a PICC line so this was at a
   rate of approx 700-750 cc/hr. His pressures continued to drop and he
   went from being tachycardic in the 110s-120s to converting to sinus
   rhythm and then to sinus brady. His pressures continued to drop. We
   began running Levophed and then as he began to be bradycardic, started
   dopamine. Ultimately his heart rate began slowing into the 30s and he
   lost his pulse and gained an increasingly mottled appearance despite
   the dopamine and Levophed. He ultimately had sustained asystole and was
   declared dead at 2:14 PM.
   Possible causes include a pulmonary embolism or cardiogenic shock
   secondary to MI, though no ST changes were seen on telemetry to verify
   the second; infection could be a cause though the acuity of the changes
   (over approximately 1.5-2.5 hours) would be unusual; transfusion
   reaction is unlikely given that he was not particularly hypoxemic as he
   began the other changes. Infection leading to demand leading to MI
   might be another reasonable course.
   We will continue to try to contact Mr [**Name (NI) 5700**]
s wife.
   ICU [**Name2 (NI) **]
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-11-18**] 03:36 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-11-13**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: